2102-02-17 00:20:00 Physician Attending Progress Note
Chief Complaint: septic shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68W admitted with abdominal pain, hypoxemia, tachycardic - seen in QMC
   ER - cholstasis seen and U/S showed dilated CBD. Intubated in ER and
   brought to OR for lap chole. Post-op fevers and hypotension with rising
   TBili and blood cultures postive for GNRs. Transferred for ERCP.
   ERCP performed and stents placed in pancreatic duct and biliary duct.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CHF
   COPD
   CAD
   bipolar disease
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2102-2-17**] 12:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 117 (113 - 120) bpm
   BP: 126/61(85) {77/49(62) - 126/61(85)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                    569 mL
   PO:
   TF:
   IVF:
                                                                    569 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    415 mL
   Urine:
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 57.1 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/38/118
   Ve: 12.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   180 K/uL
   108 mg/dL
   21 mEq/L
   4.0 mEq/L
   106 mEq/L
   145 mEq/L
   33.1 %
   41.3 K/uL
        [image002.jpg]
                             [**2102-2-16**]  07:31 PM
                             [**2102-2-16**]  07:49 PM
   WBC
   41.3
   Hct
   33.1
   Plt
   180
   TropT
   0.14
   TCO2
   22
   Glucose
   108
   Other labs: PT / PTT / INR:16.0/37.0/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 11110**]/60/0.14, ALT / AST:517/937, Alk Phos / T Bili:185/6.2,
   Differential-Neuts:79.0 %, Band:16.0 %, Lymph:2.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:505 mg/dL, Lactic Acid:4.6 mmol/L, LDH:982 IU/L,
   Ca++:6.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR ETT OK, RIJ wtih tip in R subclav, consolidated LLL
   Microbiology: BCx pos GNRs
   ECG: ST, no obvious ischemia
   Assessment and Plan
   cholangitis / septic shock / bacteremia - on antibiotics, underwent
   ERCP with stenting and has drain in place, follow LFTs
   respiratory failure / pneumonia - cont abx covering for healthcare
   organisms, wean O2
   coagulopathy - improved with vitamin K and FFP, follow
   positive cardiac enzymes - suspect demand ischemia, follow EKG and
   enzymes
   COPD - bronchodilators
   bipolar - resume outpatient meds
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-16**] 06:26 PM
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2102-02-17 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   ERCP -  dark bile but no frank pus, stent placed in pancreatic and
   biliary duct
 pt tolerated procedure well.  Pt received Vanco and
   Zosyn,  lactate 4.6  down to 3.2      pt received 1600 cc
s fluid,
   receiving additional bolus at 6 am (one liter over 2 hours)  cvp ~ 9.
   Left IJ triple lumen placed, CXR showed no PTX, good position
   JP drain ~ leaking sang
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-16**] 09:00 PM
   Vancomycin - [**2102-2-17**] 01:05 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-17**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-17**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 110 (108 - 120) bpm
   BP: 119/59(80) {77/49(62) - 140/68(94)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  1,272 mL
                                                                  2,363 mL
   PO:
   TF:
   IVF:
                                                                  1,272 mL
                                                                  2,363 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                    195 mL
   Urine:
                                                                    435 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                    837 mL
                                                                  2,168 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/42/99.[**Numeric Identifier 299**]/21/-4
   Ve: 9.3 L/min
   PaO2 / FiO2: 141
   Physical Examination
   PHYSICAL EXAM
   GENERAL: intubated, sedated
   HEENT: Normocephalic, atraumatic. No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear. Neck Supple, No LAD, No
   thyromegaly.
   CARDIAC: Regular rhythm, tachy. Normal S1, S2. No murmurs, rubs or
   [**Last Name (un) 4808**]. JVP=difficult to appreciate [**2-28**] RIJ and neck size
   LUNGS: CTAB, good air movement biaterally anteriorly.
   ABDOMEN: negative bowel sounds. Soft, NT, ND. No HSM. Lap port sites
   C/D/I, JP drain in RUQ leaking serous fluid.
   EXTREMITIES: No edema or calf pain, dopplerable DP and PT pulses.  Blue
   discoloration of toes bilaterally
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: intubated, sedation, opened eyes with movement
   Labs / Radiology
   162 K/uL
   10.7 g/dL
   88 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.3 mEq/L
   45 mg/dL
   107 mEq/L
   144 mEq/L
   32.1 %
   34.1 K/uL
        [image002.jpg]
                             [**2102-2-16**]  07:31 PM
                             [**2102-2-16**]  07:49 PM
                             [**2102-2-17**]  12:30 AM
                             [**2102-2-17**]  03:08 AM
                             [**2102-2-17**]  05:37 AM
   WBC
   41.3
   34.1
   Hct
   33.1
   32.1
   Plt
   180
   162
   Cr
   2.8
   3.0
   TropT
   0.14
   TCO2
   22
   23
   22
   Glucose
   108
   88
   Other labs: PT / PTT / INR:14.5/38.0/1.3, CK / CKMB /
   Troponin-T:[**Numeric Identifier 11115**]/60/0.14, ALT / AST:456/723, Alk Phos / T Bili:171/5.8,
   Differential-Neuts:79.0 %, Band:16.0 %, Lymph:2.0 %, Mono:3.0 %,
   Eos:0.0 %, Fibrinogen:505 mg/dL, Lactic Acid:3.2 mmol/L, LDH:837 IU/L,
   Ca++:6.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.7 mg/dL
   .
   Sputum cx: >25 polys, <10 epi
s, no organisms
   .
   ERCP
   Normal biliary tree on limited cholangiogram - a biliary stent was
   placed.
   Normal limited pancreatogram - a pancreatic duct stent was placed.
   Diffuse ulcerations of the fundus, stomach body and antrum -
   differenital diagnosis includes stress ulcers and ischemia.
   Otherwise normal ercp to third part of the duodenum
   Recommendations:
   Repeat ERCP in 2 weeks for remove pancreatic stent.
   Repeat ERCP in 10 weeks to remove biliary stent.
   Assessment and Plan
   68 yo female with PMH of CAD, bipolar disease p/w abd pain, CP,
   cholestatic labs, and sepsis who underwent lap chole with subsequent
   worsening of her cholestatic labs and sepsis.  She is trensferred for
   ERCP.
   .
   #. Sepsis: Despite absence of frank pus on ERCP< RUQ remains the most
   likely source of infection with cholangitis most likely.  Ddx includes
   abscess and ischemic gastritis/colitis with bacterial translocation.
   Nonlactose-fermenting GNRs in OSH BCx.  No other obvious souces, no PNA
   on  CXR, UA neg.  CVP 9 currently after 2L IVF. ERCP was largely
   normal, with dark-appearing but not frankly infected bile, s/p
   pancreatic and biliary stent. Also draining serosanginous fluid from JP
   drain in gallbladder fossa.
   - MAP goal 60-65, currently off levo with stable pressures
   - aggressive fluid for CVP goal [**11-7**], 2L NS now
   - vanco, zosyn and tailor for speciation and sensitivities
   - appreciate ERCP recs
   - CT to assess JP drain placement and r/o abscess, ischemic colitis
   - consider surgery consult for JP drain
   - f/u OSH BCx
   - f/u blood, urine, sputum cx
   .
   #. resp failure: Appears that the reason for intubation was hypoxia.
   She has known COPD but no gas suggests hypercarbia.  CXR significant
   for mild pulmonary edema and small bilateral pleural effusions.  Large
   A-a gradient likely v/q mismatch from pulm edema and underlying COPD as
   well as atelectasis from pulm effusions.  Does not appear ARDS by CXR
   and PIP in the 20s, plateau pressure 22.
   - wean FiO2 as toleratedm, maintain on AC today
   - given sepsis, patient at high risk for ARDS.  follow A-a gradient,
   inspiratory pressures, and CXR
   - albuterol prn
   .
   #. [**Last Name (un) **]: Likely pre-renal with now ATN s/p hypotensive episode.
   Continues to worsen despite good BPs currently. Marginal urine output.
   Currently no indication for urgent RRT. Elevated CK concerning for
   development of rhabdomyolysis.
   - aggressive fluid repletion
   - monitor CKs
   - monitor renal function and UOP
   - renally dose meds, check vanco trough
   - consider renal consult if continues to worsen
   .
   #. COPD: as above re: resp failure.
   - bronchodilators
   .
   #. coagulopathy: no known preexisting liver disease.  HCT stable from
   OSH.  INR improved to 1.4 with vit K and FFP.
   - hemolysis and DIC labs wnl
   - check smear
   .
   #. elevated CEs: known history of CAD.  Trops appear to be trending
   down before transfer.  EKG without ST elevations/depressions.
   Reportedly has a cardiac workup from 8 months ago which is negative.
   History of CP at presentation is concerning.  It is described as
   atypical by consulting cardiology who felt this is likely demand
   ischemia in setting of sepsis.
   - TTE today
   - recheck EKG
   - check CEs and trend
   .
   #. psych: has apparently not been getting her home psych meds.
   - discuss safety of holding home meds with psych
   - consider OGT placement and restarting home meds
   .
   FEN: NPO
   .
   PPX:
   -DVT ppx with SCH, pneumoboots
   -Bowel regimen
   -Pain management with fentanyl drip
   .
   ACCESS: LIJ, PIV
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy:  [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-02-17 10:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ERCP performed last PM, with placement of stents in bile and pancreatic
   ducts -- drainage of dark sludge, no stones, no pus.
   Remains intubated, mechanically ventilated.
   Oliguria.
   Vasopressor weaned to d/c this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-2-17**] 01:05 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-17**] 08:22 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-17**] 01:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-17**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-17**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.6
   HR: 109 (108 - 120) bpm
   BP: 113/58(78) {77/49(62) - 140/76(94)} mmHg
   RR: 24 (12 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 9 (9 - 12)mmHg
   Total In:
                                                                  1,272 mL
                                                                  2,509 mL
   PO:
   TF:
   IVF:
                                                                  1,272 mL
                                                                  2,509 mL
   Blood products:
   Total out:
                                                                    435 mL
                                                                    250 mL
   Urine:
                                                                    435 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
                                                                     80 mL
   Balance:
                                                                    837 mL
                                                                  2,259 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 35.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.31/42/99.[**Numeric Identifier 299**]/21/-4
   Ve: 9.3 L/min
   PaO2 / FiO2: 141
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Tender: , Obese, JP drain from surgical incision
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.7 g/dL
   162 K/uL
   88 mg/dL
   3.0 mg/dL
   21 mEq/L
   4.3 mEq/L
   45 mg/dL
   107 mEq/L
   144 mEq/L
   32.1 %
   34.1 K/uL
        [image002.jpg]
                             [**2102-2-16**]  07:31 PM
                             [**2102-2-16**]  07:49 PM
                             [**2102-2-17**]  12:30 AM
                             [**2102-2-17**]  03:08 AM
                             [**2102-2-17**]  05:37 AM
   WBC
   41.3
   34.1
   Hct
   33.1
   32.1
   Plt
   180
   162
   Cr
   2.8
   3.0
   TropT
   0.14
   0.09
   TCO2
   22
   23
   22
   Glucose
   108
   88
   Other labs: PT / PTT / INR:14.5/38.0/1.3, CK / CKMB /
   Troponin-T:[**Numeric Identifier 11115**]/59/0.09, ALT / AST:456/723, Alk Phos / T Bili:171/5.8,
   Amylase / Lipase:100/10, Differential-Neuts:79.0 %, Band:16.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:505 mg/dL, Lactic
   Acid:3.2 mmol/L, LDH:837 IU/L, Ca++:6.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.7
   mg/dL
   Assessment and Plan
   yof with cholangitis, sepsis and respiratory failure.
   RESPIRATORY FAILURE -- multifactorial in context of infection/sepsis
   (acidosis) on background of underlying lung disease (COPD).  No
   evidence for acute respiratory process or pneumonia.  Plan continue
   mechanical ventilation, monitor ABG, SaO2.
   SEPSIS -- attributed to hepatobiliary infection.  Responding to current
   managmemnt.  s/p ERCP, continue iv fluids, monitor CVP, follow LFTs.
   HYPOTENSION -- attributed to hypovoolemia (3rd spacing) and sepsis.
   Vasopressor able to be tapered to d/c this AM
   OLIGURIA -- ATN likley hypovolemia, CVP=5, and and possible
   rhabdomyalsis (elevated CPK).  Plan continue to iv replete, monitor UO,
   renal dose medications, monitor BUN, creatinine.  Consider Renal
   consultation if progressive decline.
   FLUIDS -- hypovolemia, 3rd spacing from intraabdominal infection. Low
   CVP.  Continue to net volume expand to CVP >10 cmH2O.
   CHOLECYSTITIS -- s/p recent lap cholecysectomy.  Plan abd CT imaging.
   will discuss JP with General Surgery
   GNR BACTEREMIA -- likely attributed to biliary disease.  Await
   identification by micro lab.  Continue antimicrobials.
   COAGULOPATHY -- improved with vitamin K and FFP.  Monitor PT, PTT, INR.
   ELEVATED CARDIAC ENZYMES --  suspect demand ischemia, follow EKG and
   enzymes.  Check cardiac echo.
   COPD - continue bronchodilators.  Add steroids if active exacerbation.
   BIPOLAR DISORDER -- resume outpatient meds when ileus resolves.
   '
   NUTRITIONAL SUPPORT -- TF.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-18 07:57:00 Physician Attending Progress Note
Chief Complaint: Sepsis, hypotension, elevated LFTs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see H&P for full details.  In brief transferred from OSH with
   fevers, hypotension, elevated LFTs, concern for cholangitis.
   24 Hour Events:
 Progressive oliguria despite fluid resuscitation
TRANSTHORACIC ECHO
 with preserved systolic function
 Abd CT
 Concern for SBO, following serial KUBs, NG tube placed for
   decompression
 Surgical consult
 OSH Blood cx w/GNRs, here w/GPCs
 Started on levophed
ETT malpositioned in R mainstem, repositioned
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-17**] 08:22 AM
   Meropenem - [**2102-2-17**] 07:42 PM
   Vancomycin - [**2102-2-18**] 01:02 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-17**] 12:48 PM
   Dextrose 50% - [**2102-2-17**] 05:42 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-18**] 12:03 AM
   Sedation held
   Other medications:
   Colace, heparin, protonix, vancomycin, meropenem, chlorhexidine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-18**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 102 (99 - 115) bpm
   BP: 104/46(66) {87/44(60) - 126/58(234)} mmHg
   RR: 24 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 12 (4 - 15)mmHg
   Total In:
                                                                  8,831 mL
                                                                  1,579 mL
   PO:
   TF:
   IVF:
                                                                  7,906 mL
                                                                  1,579 mL
   Blood products:
   Total out:
                                                                    971 mL
                                                                    760 mL
   Urine:
                                                                    291 mL
                                                                     10 mL
   NG:
                                                                    350 mL
                                                                    650 mL
   Stool:
   Drains:
                                                                    330 mL
                                                                    110 mL
   Balance:
                                                                  7,860 mL
                                                                    819 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (400 - 430) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/42/132/18/-6
   Ve: 10.1 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Mottled toes bilaterally, improved from prior,
   dopplerable PT and DP bilaterally
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   )
   Abdominal: Soft, Non-tender, Soft Bowel sounds present, Laparoscopy
   wounds CDI, serous drainage from JP drain
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash: Patchy, erythemtous over abdomen
   Neurologic: Sedated, not following commands
   Labs / Radiology
   9.8 g/dL
   162 K/uL
   76 mg/dL
   3.7 mg/dL
   18 mEq/L
   4.5 mEq/L
   50 mg/dL
   108 mEq/L
   138 mEq/L
   29.7 %
   25.9 K/uL
        [image002.jpg]
                             [**2102-2-17**]  03:08 AM
                             [**2102-2-17**]  05:37 AM
                             [**2102-2-17**]  03:46 PM
                             [**2102-2-17**]  04:49 PM
                             [**2102-2-17**]  06:36 PM
                             [**2102-2-17**]  09:56 PM
                             [**2102-2-17**]  10:13 PM
                             [**2102-2-17**]  11:32 PM
                             [**2102-2-18**]  04:01 AM
                             [**2102-2-18**]  04:22 AM
   WBC
   34.1
   24.0
   29.7
   25.9
   Hct
   32.1
   28.9
   30.0
   29.7
   Plt
   162
   131
   164
   162
   Cr
   3.0
   3.2
   3.4
   3.7
   TropT
   0.09
   0.08
   0.07
   TCO2
   22
   21
   21
   19
   21
   Glucose
   88
   47
   61
   76
   Other labs: PT / PTT / INR:13.6/35.2/1.2, CK / CKMB /
   Troponin-T:6502/40/0.07, ALT / AST:320/422, Alk Phos / T Bili:168/5.4
   (4.7 direct), Amylase / Lipase:100/10, Differential-Neuts:79.0 %,
   Band:16.0 %, Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL,
   Lactic Acid:1.6 mmol/L, LDH:733 IU/L, Ca++:6.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.8 mg/dL
   Blood Cx
 OSH
 GNRs and GPCs, non-lactose fermenting, ID and sensi
   pending
   Blood Cx
 Here
 [**2-16**]
 GPCs in pairs and chains in
 bottles, [**2-17**] -
   NGTD
   Wound Cx
 OSH - ?Strep-like GPC
   TTE
 LVEF >55%, trivial MR, borderline PAH
   Abd CT
 Non Contrast
 Bilateral pleural effusions, bibasilar
   consolidation, bowel wall thickening at splenic flexure, concern for
   SBO
   Abd CT
 w/Contrast
 Evidence of decompression, still concern for
   early SBO vs ileus, contrast only to jejunum, no transition point.
   CXR
 ETT in position, L IJ CVC in position, L pleural effusion and
   bibasilar infiltrates
   Assessment and Plan
 SEPSIS
 Likely billiary source, concern for gangrenous
   cholecystitis, cholangitis, although latter not supported by ERCP.
   Blood cultures w/GPC and GNRs, awaiting speciation.  Was markedly
   hypotensive at OSH
   - Maintain CVP 12-14, bolus as needed
   - MAPs >65, pressors as needed
   - Follow-up OSH, inhouse cultures
   - Continue Vanco, meropenem, dose for renal function
 RESPIRATORY FAILURE
 [**Doctor Last Name 76**] by PaO2/FiO2.  Stable on current
   ventilatory settings, will help to compensate for acidosis, try to
   maintain pH >7.3, but may be limited by PIPs.
   - Intubated, on AC
   - Keep PaO2 >65
   - Continue bronchodilators
 RENAL FAILURE, ACUTE
 Not sodium avid, evidence of myoglobinuria.
   Declining urine output despite aggressive IVF.  Likely ATN [**2-28**]
   hypotension.
   - Renal consult
   - Follow urine output, check renal US to r/o obstruction
   - No acute indication for RRT, but will monitor lytes
 ACIDOSIS, METABOLIC
 Likely a combination of sepsis and
   hyperchloremic acidosis, particularly as largely non-gap.  Will try to
   maintain pH >7.3.
   - Try to maintain pH w/vent, consider IV bicarb if needed
 ELEVATED CK, CARDIAC ENZYMES
 Trending down, likely secondary to
   hypotension.
   - Can stop following as down-trending
   - TTE w/o clear regional wall-motion abnormalities
 CHOLECYSTITIS, CALCULOUS, S/P CHOLECYSTECTOMY
 Unclear exactly the
   extent of her disease prior to surgery, will touch base with surgery
   and attempt to obtain OSH records.  Per family concern for gangrenous
   gall bladder.  Possible early SBO vs ileus on abd CT.
   - OSH records
   - Surgery consult, appreciate input
 COAGULOPATHY
 Improved w/vitamin K
 ALTERED MENTAL STATUS
 Intubated and non-responsive, holding
   sedation for now.
 SCHIZOPHRENIA
 Holding psych meds for now
   ICU Care
   Nutrition: NPO for now, NG to suction
   Glycemic Control:  follow finger sticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Hep sc , P-boots
   Stress ulcer: PPI
   VAP: Chlorhexidine and HOB elevated
   Comments:
   Communication:  Comments: With family
   Code status: Full code, continue discussion re goals of care
   Disposition : MICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-19 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Surgery following along with us, no recs
   - OSH BCX are VRE and Pan-sensitive E.COLI, started on Ceftriaxone,
   linezolide and flagyl per ID recs
   - Never made much urine despite boluses, renal thinks ATN, following
   with us
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-17**] 08:22 AM
   Meropenem - [**2102-2-17**] 07:42 PM
   Vancomycin - [**2102-2-18**] 01:02 AM
   Ceftriaxone - [**2102-2-18**] 09:02 PM
   Metronidazole - [**2102-2-19**] 01:53 AM
   Linezolid - [**2102-2-19**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-19**] 12:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-19**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 81 (81 - 100) bpm
   BP: 104/47(67) {94/43(62) - 139/64(89)} mmHg
   RR: 25 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (9 - 322)mmHg
   Total In:
                                                                  4,171 mL
                                                                    523 mL
   PO:
   TF:
   IVF:
                                                                  4,171 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    725 mL
   Urine:
                                                                     20 mL
   NG:
                                                                  1,450 mL
                                                                    650 mL
   Stool:
   Drains:
                                                                    360 mL
                                                                     75 mL
   Balance:
                                                                  2,341 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 43 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/32/134/18/-6
   Ve: 11.2 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   149 K/uL
   9.0 g/dL
   96 mg/dL
   4.6 mg/dL
   18 mEq/L
   4.5 mEq/L
   63 mg/dL
   109 mEq/L
   138 mEq/L
   28.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2102-2-17**]  11:32 PM
                             [**2102-2-18**]  04:01 AM
                             [**2102-2-18**]  04:22 AM
                             [**2102-2-18**]  11:20 AM
                             [**2102-2-18**]  11:23 AM
                             [**2102-2-18**]  05:19 PM
                             [**2102-2-18**]  05:27 PM
                             [**2102-2-19**]  12:31 AM
                             [**2102-2-19**]  05:20 AM
                             [**2102-2-19**]  06:04 AM
   WBC
   25.9
   17.7
   Hct
   29.7
   28.4
   Plt
   162
   149
   Cr
   3.7
   3.9
   4.2
   4.4
   4.6
   TropT
   0.07
   TCO2
   19
   21
   21
   19
   19
   Glucose
   76
   109
   96
   68
   96
   Other labs: PT / PTT / INR:13.6/35.2/1.2, CK / CKMB /
   Troponin-T:6502/40/0.07, ALT / AST:207/237, Alk Phos / T Bili:155/6.3,
   Amylase / Lipase:60/9, Differential-Neuts:79.0 %, Band:16.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.7 g/dL, LDH:623 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Assessment and Plan
   68 yo female with PMH of CAD, bipolar disease p/w abd pain, CP,
   cholestatic labs, and sepsis who underwent lap chole with subsequent
   worsening of her cholestatic labs and sepsis.  Transferred for ERCP.
   .
   #. Sepsis: Despite absence of frank pus on ERCP, hepatobiliary tree
   remains the most likely source of infection with cholangitis most
   likely, especially given presence of offending bugs on swabs of gall
   bladder.  Ddx includes abscess and ischemic gastritis/colitis with
   bacterial translocation. VRE and Pan-sensitive E. Coli on OSH blood
   cultures, strongly suggestive of hepato-biliary source.  No other
   obvious souces, no PNA on  CXR, UA neg.  ERCP was largely normal, with
   dark-appearing but not frankly infected bile, s/p pancreatic and
   biliary stent. Also draining bloody serosanginous fluid from JP drain
   in gallbladder fossa.  CT yesterday suggested partial SBO, managing
   medically with bowel decompression.
   - Antibiotics changed to linezolide, ceftriaxone, and flagyl(in case
   gallbladder truly perfed), after discussion with ID
   - MAP goal 60-65, currently on levo with stable pressures, wean
   aggressively as risk for serotonin syndrome with linezolide
   - aggressive fluid for CVP goal [**11-9**], currently receiving bolus
   - appreciate ERCP recs
   - will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] recs re: management of partial SBO, at the moment
   Surgery doesn
t want anything new.
   - surveillance cultures
   - appreciate Surgery recs
   .
   #altered mental status:  Suspect Toxic metabolic vs retained fentanyl
   in the setting of transaminitis.
   - treat VRE
   - resolution of shock and cholestasis likely to improve hepatic
   function
   .
   #. Anuric Renal Faillure: Likely ATN s/p hypotensive episode.
   Essentially anuric despite good BPs currently.  Currently no indication
   for urgent RRT, but looks like this is impending. Elevated CK
   concerning for development of rhabdomyolysis, CK now trending down.
   - f/u renal recs
   - aggressive fluid repletion
   - monitor CKs, continuing to trend down
   - monitor renal function and UOP
   .
   # Elevated [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
 ERCP aware, concerned that this may be from edema
   around the stent, vs re-blockage
   - check PM
   - if rising would get RUQ u/s possibly repeat ERCP tomorrow.
   .
   #. Hypoxic resp failure:   Known COPD but no evidence of hypercarbia.
   CXR significant for mild pulmonary edema and small bilateral pleural
   effusions.  Large A-a gradient likely v/q mismatch from pulm edema and
   underlying COPD as well as atelectasis from pulm effusions.  Does not
   appear ARDS by CXR and PIP in the 20s, plateau pressure 22.  Pt at risk
   for developing ARDS.  Evidence of respiratory acidosis overnight,
   increased tidal volumes slightly without change in peak pressues with
   improvement in acidosis.
   - wean FiO2 as tolerated, try pressure suport today
   - ARDS falling out of differential given falling O2 requirement
   - given sepsis, patient at high risk for ARDS.  follow A-a gradient,
   inspiratory pressures, and CXR
   - albuterol prn
   .
   #  Metabolic acidosis- non-gap, likely [**2-28**] early renal failure and NaCl
   repletion.
   - cont to monitor lytes QID given anuria
   - replete volume with bicarb in d5
   .
   #. COPD: as above re: resp failure.
   - bronchodilators
   .
   #. coagulopathy: no known preexisting liver disease.  HCT stable from
   OSH.  INR improved to 1.4 with vit K and FFP, continues to improve
   without further intervention.
   - hemolysis and DIC labs wnl
   - cont to trend
   .
   #. elevated CEs: known history of CAD.  Trops appear to be trending
   down before transfer.  EKG without ST elevations/depressions.
   Reportedly has a cardiac workup from 8 months ago which is negative.
   History of CP at presentation is concerning.  It is described as
   atypical by consulting cardiology who felt this is likely demand
   ischemia in setting of sepsis.  TTE showed preserved systolic fxn with
   no WMAs.
   - CEs trending down, will stop trending
   .
   #. psych: has apparently not been getting her home psych meds.
   - discuss safety of holding home meds with psych
   - consider restarting home meds once SBO/ileus resolves
   .
   FEN: IVF as above/ QID lytes / NPO
   .
   PPX:
   -DVT ppx with SCH, pneumoboots
   -Bowel regimen
   -Pain management with fentanyl drip
   .
   ACCESS: LIJ, PIV
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy:  [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 8955**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   See above
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: SCH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2102-02-19 07:56:00 Physician Attending Progress Note
Chief Complaint: Sepsis, Elevated LFTs
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   See H&P for details.
   24 Hour Events:
 FEVER - 101.4
F - recultured
 Continued vasopressor requirement
OSH cx from GB and Blood w/VRE and E. coli, abx changed to linezolid
 Markedly oliguric
 Renal consult, feel this is likely ATN
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-18**] 09:02 PM
   Metronidazole - [**2102-2-19**] 01:53 AM
   Linezolid - [**2102-2-19**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-19**] 12:02 AM
   Other medications:
   Pantoprazole, Colace
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-19**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.4
C (99.3
   HR: 84 (81 - 100) bpm
   BP: 105/47(67) {94/43(62) - 139/64(89)} mmHg
   RR: 24 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (9 - 322)mmHg
   Total In:
                                                                  4,171 mL
                                                                    542 mL
   PO:
   TF:
   IVF:
                                                                  4,171 mL
                                                                    542 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    725 mL
   Urine:
                                                                     20 mL
   NG:
                                                                  1,450 mL
                                                                    650 mL
   Stool:
   Drains:
                                                                    360 mL
                                                                     75 mL
   Balance:
                                                                  2,341 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 43 cmH2O/mL
   SpO2: 98%
   ABG: 7.36/32/134/18/-6
   Ve: 10.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: anteriorally
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended, JP
   drain site dressed w/continued drainage, incisions otherwise CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated
   Labs / Radiology
   9.0 g/dL
   149 K/uL
   96 mg/dL
   4.6 mg/dL
   18 mEq/L
   4.5 mEq/L
   63 mg/dL
   109 mEq/L
   138 mEq/L
   28.4 %
   17.7 K/uL
        [image002.jpg]
                             [**2102-2-17**]  11:32 PM
                             [**2102-2-18**]  04:01 AM
                             [**2102-2-18**]  04:22 AM
                             [**2102-2-18**]  11:20 AM
                             [**2102-2-18**]  11:23 AM
                             [**2102-2-18**]  05:19 PM
                             [**2102-2-18**]  05:27 PM
                             [**2102-2-19**]  12:31 AM
                             [**2102-2-19**]  05:20 AM
                             [**2102-2-19**]  06:04 AM
   WBC
   25.9
   17.7
   Hct
   29.7
   28.4
   Plt
   162
   149
   Cr
   3.7
   3.9
   4.2
   4.4
   4.6
   TropT
   0.07
   TCO2
   19
   21
   21
   19
   19
   Glucose
   76
   109
   96
   68
   96
   Other labs: PT / PTT / INR:13.6/35.2/1.2, CK / CKMB /
   Troponin-T:6502/40/0.07, ALT / AST:207/237, Alk Phos / T Bili:155/6.3,
   Amylase / Lipase:60/9, Differential-Neuts:79.0 %, Band:16.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.7 g/dL, LDH:623 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   CXR
 Continued L basilar opacity, bilateral effusions, ETT and CVC in
   position
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and gall bladder cultures at
   OSH, now on Linezolid/Flagyl/Ceftriaxone.  Still on pressors, will
   bolus to keep CVP 10-14, wean pressors for goal MAP >65.
   - Antibiotics as above
   - Hemodynamic goals as above, use D5 w/bicarb for IV boluses
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   PaO2/FiO2 ~260
   - Wean PEEP, maintain PaO2 > 65 w/reasonable sat
   - If worsening acidosis, can try to use vent to compensate
   - Will trial on PSV
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric but lytes otherwise stable and renal following
   - No acute indication for HD at this point
   - Follow UOP, support BP as above
   - Appreciate renal input
 SBO/ILEUS
 Producing small smears of stool, surgery following.
   - Follow abdominal exam
   - Appreciate surgical input
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis.  T Bili now up trending.
   - Discuss w/ERCP re utility of repeat RUQ US or ERCP to insure stent
   patency
   - Fractionate T Bili
 COAGULOPATHY
 improved w/vitamin K at OSH
 ALTERED MENTAL STATUS
 Concern for toxic/metabolic, although had
   been on numerous psych meds and now on linezolid so other etiologies
   possible.
   - Continue to minimize sedation
   - Monitor for evidence of serotonin syndrome
   - Consider further work-up if does not improve in 24-48hrs
 PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition: NPO given
   Glycemic Control:  Follow fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss, family flying
   here
   Disposition : MICU for now
   Total time spent: 30 minutes

2102-02-20 06:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - resited A-line
   - Tbili elevated in AM, rechecked in PM and had decreased, if increase
   again would consider RUQ U/S per ERCP
   - head CT done for AMS despite off sedation x days, no acute findings
 BLOOD CULTURED - At [**2102-2-19**] 11:00 AM
 BLOOD CULTURED - At [**2102-2-19**] 03:00 PM
 ARTERIAL LINE - STOP [**2102-2-19**] 06:44 PM
 ARTERIAL LINE - START [**2102-2-19**] 07:10 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2102-2-17**] 08:22 AM
   Meropenem - [**2102-2-17**] 07:42 PM
   Vancomycin - [**2102-2-18**] 01:02 AM
   Ceftriaxone - [**2102-2-19**] 08:00 PM
   Metronidazole - [**2102-2-20**] 02:00 AM
   Linezolid - [**2102-2-20**] 06:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-19**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-20**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 87 (78 - 95) bpm
   BP: 112/52(72) {73/43(61) - 151/79(186)} mmHg
   RR: 18 (10 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,120 mL
                                                                    532 mL
   PO:
   TF:
   IVF:
                                                                  1,120 mL
                                                                    532 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                     75 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,170 mL
   Stool:
   Drains:
                                                                    270 mL
                                                                     60 mL
   Balance:
                                                                   -320 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 726 (726 - 743) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.36/31/104/17/-6
   Ve: 10.5 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: anteriorally
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended, JP
   drain site dressed w/continued drainage, incisions otherwise CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, macular erythematous rash on palms and soles with purpuric
   spots, non-blanching, on soles
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated
   Labs / Radiology
   176 K/uL
   8.7 g/dL
   56 mg/dL
   5.2 mg/dL
   17 mEq/L
   4.4 mEq/L
   71 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2102-2-18**]  05:19 PM
                             [**2102-2-18**]  05:27 PM
                             [**2102-2-19**]  12:31 AM
                             [**2102-2-19**]  05:20 AM
                             [**2102-2-19**]  06:04 AM
                             [**2102-2-19**]  11:12 AM
                             [**2102-2-19**]  02:49 PM
                             [**2102-2-19**]  03:08 PM
                             [**2102-2-20**]  03:20 AM
                             [**2102-2-20**]  03:37 AM
   WBC
   17.7
   16.7
   Hct
   28.4
   26.3
   Plt
   149
   176
   Cr
   4.2
   4.4
   4.6
   4.9
   5.2
   TCO2
   19
   19
   20
   20
   18
   Glucose
   96
   68
   96
   64
   56
   Other labs: PT / PTT / INR:12.1/34.6/1.0, CK / CKMB /
   Troponin-T:6502/40/0.07, ALT / AST:154/199, Alk Phos / T Bili:145/5.2,
   Amylase / Lipase:60/9, Differential-Neuts:79.0 %, Band:16.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:1.7 g/dL, LDH:578 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and gall bladder cultures at
   OSH, now on Linezolid/Flagyl/Ceftriaxone.  Still on pressors, will
   bolus to keep CVP 10-14, wean pressors for goal MAP >65.
   - Antibiotics as above
   - f/u OSH blood and intra-op cx for growth of anaerobes and consider
   D/C Flagyl
   - Hemodynamic goals as above, use D5 w/bicarb for IV boluses as needed
   as pressor weaned off
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.  Did
   well on PSV 5/5, however mental status is barrier to extubation. Had
   increased volume overload on CXR today with question of fluid in major
   fissure vs. lobar collapse, however fluid seems more likely.
   - cont daily weaning trials
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Off sedation for 2 days and no improvement. Head
   CT negative. [**Month (only) 8**] have delayed clearance of sedation given liver and
   kidney injury.
   - Continue to hold sedation
   - f/u final read head CT
   - Consider EEG, MRI if no improvement in coming days
   - consider psych consult re: restarting psych meds
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric but lytes otherwise stable and renal following. Will likely
   require HD for volume overload with anuria and metabolic acidosis.
   Renal team will discuss w/ fam today.
   - Appreciate renal input
   - [**Hospital1 **] lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   [**Month (only) 8**] have been impacted, is now producing small amounts of stool,
   surgery following.  Serial KUBs if concerned for unresolved
   obstruction.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO
   - NGT to suction until this AM when output stopped
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis.  T Bili now trending down.
   - monitor LFTs
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition: NPO given ?SBO/ileus
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss
   Disposition : MICU

2102-02-20 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No neurological response to painful stimuli over weekend --> head CT
   unrevealing.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-2-17**] 07:42 PM
   Vancomycin - [**2102-2-18**] 01:02 AM
   Ceftriaxone - [**2102-2-19**] 08:00 PM
   Metronidazole - [**2102-2-20**] 02:00 AM
   Linezolid - [**2102-2-20**] 06:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-2-20**] 07:27 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Flowsheet Data as of  [**2102-2-20**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 82 (78 - 95) bpm
   BP: 123/56(79) {73/43(61) - 151/79(186)} mmHg
   RR: 17 (10 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,120 mL
                                                                    597 mL
   PO:
   TF:
   IVF:
                                                                  1,120 mL
                                                                    597 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    160 mL
   Urine:
                                                                     20 mL
   NG:
                                                                  1,170 mL
                                                                     20 mL
   Stool:
   Drains:
                                                                    270 mL
                                                                    120 mL
   Balance:
                                                                   -320 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (580 - 743) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.37/30/98.[**Numeric Identifier 20**]/17/-6
   Ve: 11.2 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: Erythema on palms and soles.  Petichae on soles,
   No(t) Jaundice, Geographic rash(?contact dermatitis) on abd wall
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   176 K/uL
   56 mg/dL
   5.2 mg/dL
   17 mEq/L
   4.4 mEq/L
   71 mg/dL
   107 mEq/L
   138 mEq/L
   26.3 %
   16.7 K/uL
        [image002.jpg]
                             [**2102-2-18**]  05:27 PM
                             [**2102-2-19**]  12:31 AM
                             [**2102-2-19**]  05:20 AM
                             [**2102-2-19**]  06:04 AM
                             [**2102-2-19**]  11:12 AM
                             [**2102-2-19**]  02:49 PM
                             [**2102-2-19**]  03:08 PM
                             [**2102-2-20**]  03:20 AM
                             [**2102-2-20**]  03:37 AM
                             [**2102-2-20**]  09:36 AM
   WBC
   17.7
   16.7
   Hct
   28.4
   26.3
   Plt
   149
   176
   Cr
   4.4
   4.6
   4.9
   5.2
   TCO2
   19
   19
   20
   20
   18
   18
   Glucose
   68
   96
   64
   56
   Other labs: PT / PTT / INR:12.1/34.6/1.0, CK / CKMB /
   Troponin-T:6502/40/0.07, ALT / AST:154/199, Alk Phos / T Bili:145/5.2,
   Amylase / Lipase:60/9, Differential-Neuts:79.0 %, Band:16.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.7 g/dL, LDH:578 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, multifactorial (infection, acidosis,
   depressed mental status).  Tolerating PSV mode.  Good SBT yesterday.
   Continue mechanical ventilation.  Hope to be able to work towards
   repeat SBT and extubation as acute issues resolve.
   ALTERED MENTAL STATUS -- multifactorial, Head CT unrevealing (although
   posterior sulci somewhat effaced bilaterally).  Coma may in part be
   related to sedation with slow clearance of medications.  [**Month (only) 8**] be
   evolving component of uremia (although BUN <100).
   SEPSIS
 Bacteremia.  Responding to current level of care.  Continue
   vasopressor, maintain MAP >60 mmHg.  Maintain CVP= 10-14 cm H2O.
   BACTEREMIA -- E. coli and VRE.  Suspect gallbladder source.  Continue
   Linezolid, Ceftriaxone,
   RENAL FAILURE, ACUTE
 Likely ATN vs rhabdomyalysis. Remains anuric.
   Renal service following, with anticipation of requiring HD soon.
   Anticipate placement of new HD central line.
   RASH -- palms and soles, concern for drug-related rash.  ?Erythema
   multiforma.  No evidence for rickessial disease.  Doubt Syphilis.
   Consider Dermatology consult.
   SBO/ILEUS
 Persisits.  Surgery service following.  Monitor abdominal
   exam
   h/o CHOLECYSTITIS, CALCULOUS
 Severe cholecystitis,complicated by
   bacteremia.  Underwent ERCP w/o gross evidence of cholangitis.  T Bili
   now up trending.
   NUTRITIONAL SUPPORT -- TF if tolerates.  TPN if remains without
   functional GI tract.
   COAGULOPATHY
 improved w/vitamin K.  Monitor.
   PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes

2102-02-21 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - starting to show signs of agitation, tried to open
   eyes to name
   - Renal placed dialysis cath, starting CVVH tonight
   - no new [**Doctor First Name 91**] recs
   - no eos on diff
   - still on levo, BP not fluid responsive
   - attempted to wean levo overnight, unsuccessful -> SBP 80s, MAP 50s
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-2-20**] 06:23 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-20**] 08:45 PM
   Metronidazole - [**2102-2-21**] 02:03 AM
   Linezolid - [**2102-2-21**] 06:10 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Dextrose 50% - [**2102-2-20**] 12:02 PM
   Fentanyl - [**2102-2-20**] 05:15 PM
   Pantoprazole (Protonix) - [**2102-2-21**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-21**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-21**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96.1
   HR: 80 (66 - 94) bpm
   BP: 123/56(79) {123/56(79) - 123/56(79)} mmHg
   RR: 14 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 83.5 kg
    CVP: 9 (7 - 13)mmHg
   Total In:
                                                                  2,027 mL
                                                                  1,342 mL
   PO:
   TF:
   IVF:
                                                                  2,002 mL
                                                                  1,342 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                  1,324 mL
   Urine:
                                                                     20 mL
   NG:
                                                                    620 mL
                                                                    350 mL
   Stool:
   Drains:
                                                                    270 mL
                                                                    120 mL
   Balance:
                                                                    985 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 649 (499 - 649) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.32/33/121/17/-8
   Ve: 9.7 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: anteriorally
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended, JP
   drain site dressed w/continued drainage, incisions otherwise CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, macular erythematous rash on palms and soles with purpuric
   spots, non-blanching, on soles
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated
   Labs / Radiology
   203 K/uL
   8.0 g/dL
   83 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.2 mEq/L
   64 mg/dL
   109 mEq/L
   137 mEq/L
   24.5 %
   23.3 K/uL
        [image002.jpg]
                             [**2102-2-19**]  11:12 AM
                             [**2102-2-19**]  02:49 PM
                             [**2102-2-19**]  03:08 PM
                             [**2102-2-20**]  03:20 AM
                             [**2102-2-20**]  03:37 AM
                             [**2102-2-20**]  09:36 AM
                             [**2102-2-20**]  03:17 PM
                             [**2102-2-20**]  08:37 PM
                             [**2102-2-21**]  04:03 AM
                             [**2102-2-21**]  04:07 AM
   WBC
   16.7
   23.3
   Hct
   26.3
   24.5
   Plt
   176
   203
   Cr
   4.9
   5.2
   5.6
   4.4
   TCO2
   20
   20
   18
   18
   18
   18
   Glucose
   64
   56
   61
   83
   Other labs: PT / PTT / INR:13.3/39.4/1.1, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:97/163, Alk Phos / T Bili:144/5.3,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.7 g/dL, LDH:578 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and gall bladder cultures at
   OSH, now on Linezolid/Flagyl/Ceftriaxone.  One other non-speciated GNR
   in wound cx from OSH. Repeat blood cx have been neg x 4 days.
   Leukocytosis increased this AM, but unclear significance. No clinical
   worsening, still requiring low dose pressor, no change in respiratory
   status or secretions, no fevers (however difficult to monitor on CVVH)
   - wean pressors, bolus IVF as needed
   - goal CVP 10-14, MAP >65
   - run CVVH positive until off pressor, then run even
   - check random cortisol, consider [**Last Name (un) **]-stim test
   - send B-glucan and galactomannan
   - check lactate
   - Antibiotics as above for 14 day course
   - consider changing CTX to cefepime if WBC still increasing or pt
   clinically deteriorating, monitor sputum cx for GNR
   - surveillance blood cx
   - discuss WBC and LFTs with ERCP team
   - f/u OSH blood and intra-op cx for growth of anaerobes and consider
   D/C Flagyl
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down, however Tbili unchanged fro yesterday.
   - monitor LFTs
   - d/w ERCP team and consider RUQ U/S to assess stent patency
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, however mental status is barrier to extubation.
   CXR c/w volume overload, which is being addressed by CVVH.
   - cont daily weaning trials
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Off sedation for 2 days and no improvement. Head
   CT negative. [**Month (only) 8**] have delayed clearance of sedation given liver and
   kidney injury +/- uremia.
   - Continue to hold sedation
   - CVVH to remove uremic toxins and sedatives
   - check ammonia level
   - Consider EEG, MRI if no improvement in coming days
   - consider psych consult re: restarting psych meds
   - consider empiric lactulose enema vs. rifaximin
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, started CVVH overnight. Lytes and Cr improved, still has
   metabolic acidosis.
   - goal even today
   - Appreciate renal input
   - q6 lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   [**Month (only) 8**] have been impacted, is now producing small amounts of stool,
   surgery following.
   - Check KUB for transition point.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, start TPN
   - NGT to suction
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition: start TPN
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss
   Disposition : MICU

2102-02-21 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Remains on vasopressor.
   CVVH initiated last PM via new right dialysis catheter.
   Openned eyes to voice this AM per nursing.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-2-21**] 06:10 AM
   Ceftriaxone - [**2102-2-21**] 08:15 AM
   Metronidazole - [**2102-2-21**] 09:59 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Dextrose 50% - [**2102-2-20**] 12:02 PM
   Fentanyl - [**2102-2-20**] 05:15 PM
   Pantoprazole (Protonix) - [**2102-2-21**] 12:05 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-21**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-21**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96
   HR: 64 (63 - 94) bpm
   BP: 123/56(79) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 102.9 kg (admission): 83.5 kg
   CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  2,027 mL
                                                                  2,068 mL
   PO:
   TF:
   IVF:
                                                                  2,002 mL
                                                                  2,068 mL
   Blood products:
   Total out:
                                                                  1,042 mL
                                                                  2,049 mL
   Urine:
                                                                     20 mL
   NG:
                                                                    620 mL
                                                                    520 mL
   Stool:
   Drains:
                                                                    270 mL
                                                                    120 mL
   Balance:
                                                                    985 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 640 (499 - 649) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.39/32/136/17/-4
   Ve: 10.9 L/min
   PaO2 / FiO2: 272
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, Actively resists eye opening
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : few scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, palmar erythema
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Active resistance to eye
   opening.
   Labs / Radiology
   8.0 g/dL
   203 K/uL
   83 mg/dL
   4.4 mg/dL
   17 mEq/L
   4.2 mEq/L
   64 mg/dL
   109 mEq/L
   137 mEq/L
   24.5 %
   23.3 K/uL
        [image002.jpg]
                             [**2102-2-19**]  02:49 PM
                             [**2102-2-19**]  03:08 PM
                             [**2102-2-20**]  03:20 AM
                             [**2102-2-20**]  03:37 AM
                             [**2102-2-20**]  09:36 AM
                             [**2102-2-20**]  03:17 PM
                             [**2102-2-20**]  08:37 PM
                             [**2102-2-21**]  04:03 AM
                             [**2102-2-21**]  04:07 AM
                             [**2102-2-21**]  10:01 AM
   WBC
   16.7
   23.3
   Hct
   26.3
   24.5
   Plt
   176
   203
   Cr
   4.9
   5.2
   5.6
   4.4
   TCO2
   20
   18
   18
   18
   18
   20
   Glucose
   64
   56
   61
   83
   Other labs: PT / PTT / INR:13.3/39.4/1.1, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:97/163, Alk Phos / T Bili:144/5.3,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:689 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.7 g/dL, LDH:578 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, multifactorial (infection, acidosis,
   depressed mental status, LLL infiltrate).  Tolerating PSV mode.  Good
   SBT yesterday.  Continue mechanical ventilation.  Hope to be able to
   work towards repeat SBT and extubation as acute issues resolve, and
   mental status improves.
   ALTERED MENTAL STATUS -- multifactorial, Head CT unrevealing (although
   posterior sulci somewhat effaced bilaterally).  Coma may in part be
   related to sedation with slow clearance of medications.  [**Month (only) 8**] be
   evolving component of uremia (although BUN <100).  ALso, may have
   underlying liver disease (appears to have palmar erythema) -- check
   serum NH3 level.
   HYPOTENSION -- attributed to sepsis, may have component of
   hypovolemia.  Need to assess adrenal axis (cotrysyn stimulation test).
   Continue net volume repletion, use vasopressors as needed.
   SEPSIS
 Bacteremia.  Responding to current level of care.  Continue
   vasopressor, maintain MAP >60 mmHg.  Maintain CVP= 10-14 cm H2O.  Would
   consider repeat imaging abdomen.
   ABNORMAL LFTs -- net decline in LFTs except T bili.  Conintue to
   monitor.  Consider repeat US.  ERCP service to reassess.
   BACTEREMIA -- E. coli and VRE.  Suspect gallbladder source.  MRSA
   isolated from respiratory tract may represent colonization.  Continue
   Linezolid, Ceftriaxone.
   RENAL FAILURE, ACUTE
 Likely ATN vs rhabdomyalysis. Now on CVVH.
   RASH -- palms and soles, concern for drug-related rash.  ?Erythema
   multiforma.  No evidence for rickessial disease.  [**Month (only) 8**] represent
   underlying liver disease (cirrhosis?).
   SBO/ILEUS
 Persisits.  Surgery service following.  Monitor abdominal
   exam
   h/o CHOLECYSTITIS, CALCULOUS
 Severe cholecystitis,complicated by
   bacteremia.  Underwent ERCP w/o gross evidence of cholangitis.  T Bili
   now up trending.
   NUTRITIONAL SUPPORT -- TF if tolerates.  TPN if remains without
   functional GI tract.
   COAGULOPATHY
 improved w/vitamin K.  Monitor.
   PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-22 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 3rd GNR: Kluyveria cryocresan (enterobacteriacae) like
   E coli. Resistant to amp, cefazolin, cipro, cefopxitin
   [**Last Name (un) **]- amikacin, amp/sulbact, cefepime, CTX, ceftazidime, gent, pip/tazo
   (OSH micro lab [**Telephone/Fax (1) 11164**])
   - switched back to 1 gram q 24h of ceftriaxone, will readress with
   [**Doctor First Name 11165**] in AM
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-21**] 08:15 AM
   Metronidazole - [**2102-2-22**] 02:12 AM
   Linezolid - [**2102-2-22**] 06:07 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-22**] 12:23 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-22**] 12:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-22**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 75 (63 - 93) bpm
   BP: 123/56(79) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 83.5 kg
    CVP: 10 (7 - 12)mmHg
   Total In:
                                                                  5,028 mL
                                                                  1,795 mL
   PO:
   TF:
   IVF:
                                                                  4,768 mL
                                                                  1,518 mL
   Blood products:
   Total out:
                                                                  3,656 mL
                                                                    771 mL
   Urine:
   NG:
                                                                  1,170 mL
                                                                    600 mL
   Stool:
   Drains:
                                                                    145 mL
   Balance:
                                                                  1,372 mL
                                                                  1,024 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 680 (530 - 680) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/38/113/23/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: Bronchial: anteriorally
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended, JP
   drain site dressed w/continued drainage, incisions otherwise CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, macular erythematous rash on palms and soles with purpuric
   spots, non-blanching, on soles
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated
   Labs / Radiology
   259 K/uL
   7.8 g/dL
   92 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.6 mEq/L
   32 mg/dL
   103 mEq/L
   136 mEq/L
   24.3 %
   24.8 K/uL
        [image002.jpg]
                             [**2102-2-20**]  08:37 PM
                             [**2102-2-21**]  04:03 AM
                             [**2102-2-21**]  04:07 AM
                             [**2102-2-21**]  09:52 AM
                             [**2102-2-21**]  10:01 AM
                             [**2102-2-21**]  03:39 PM
                             [**2102-2-21**]  04:02 PM
                             [**2102-2-21**]  10:20 PM
                             [**2102-2-22**]  04:02 AM
                             [**2102-2-22**]  04:11 AM
   WBC
   23.3
   24.8
   Hct
   24.5
   25.8
   24.3
   Plt
   203
   259
   Cr
   4.4
   3.1
   2.3
   TCO2
   18
   18
   20
   20
   24
   25
   Glucose
   83
   75
   45
   92
   Other labs: PT / PTT / INR:12.3/38.3/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:70/119, Alk Phos / T Bili:134/3.9,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:493 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9
   mg/dL
   Gasless abdomen is a non-specific finding and could represent
   diffuse fluid-filled dilatation of the bowel loops and could be a sign
   of
   bowel obstruction.
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and VRE, E. coli, Kluvera in
   wound/gall bladder cultures at OSH, now on
   Linezolid/Flagyl/Ceftriaxone.  Repeat blood cx have been neg since day
   of admission. Leukocytosis increased this AM, but unclear significance.
   No clinical worsening,  but still requiring low dose pressor, no change
   in respiratory status or secretions, no fevers (however normothermic on
   CVVH). AM cortisol 30.7. Had rise in lactate. Only minimally
   fluid-responsive.
   - Consider [**Last Name (un) **]-stim test
   - goal CVP 10-14, MAP >65
   - run CVVH even
   - f/u B-glucan and galactomannan
   - consider changing CTX to cefepime
   - surveillance blood cx
   - no anaerobe growth in blood and intra-op cx, consider D/C Flagyl
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down. JP drain pulled [**2-21**].
   - remove staples in [**3-1**] days
   - monitor LFTs
   - f/u ERCP
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, however mental status is barrier to extubation.
   CXR c/w volume overload, which is being addressed by CVVH.
   - cont daily weaning trials
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Off sedation for 4 days and no improvement. Head
   CT negative. [**Month (only) 8**] have delayed clearance of sedation given liver and
   kidney injury +/- uremia. Ammonia level nl.
   - Continue to hold sedation
   - CVVH to remove uremic toxins and sedatives
   - Consider EEG, MRI if no improvement in coming days
   - consider psych consult re: restarting psych meds
   - consider empiric lactulose enema vs. rifaximin
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, on CVVH overnight. Lytes and Cr improved
   - goal even today
   - Appreciate renal input
   - q6 lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   No bowel sounds, producing small amounts of stool, so ileus possible.
   KUB showed absence of gas possibly c/w bowel obstruction.   Continues
   to have NGT output.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, start TPN
   - NGT to suction
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition: TPN
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss
   Disposition : MICU

2102-02-22 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating CVVH.
   Vasopressors weaned to d/c this AM.
   J-P drain removed by surgical team.
   History obtained from Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-2-22**] 06:07 AM
   Ceftriaxone - [**2102-2-22**] 08:00 AM
   Metronidazole - [**2102-2-22**] 09:48 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-22**] 12:23 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-22**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 68 (61 - 93) bpm
   BP: 123/56(79) {0/0(0) - 0/0(0)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104.6 kg (admission): 83.5 kg
   CVP: 10 (10 - 12)mmHg
   Total In:
                                                                  5,028 mL
                                                                  2,881 mL
   PO:
   TF:
   IVF:
                                                                  4,768 mL
                                                                  2,395 mL
   Blood products:
   Total out:
                                                                  3,656 mL
                                                                  1,109 mL
   Urine:
   NG:
                                                                  1,170 mL
                                                                    900 mL
   Stool:
   Drains:
                                                                    145 mL
   Balance:
                                                                  1,372 mL
                                                                  1,772 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 662 (367 - 680) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: 7.38/41/102/23/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : scattered, No(t) Bronchial:
   , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, palmar erythema; demarcating
   rash of right toes
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Able to open eyes to voice.
   Labs / Radiology
   7.8 g/dL
   259 K/uL
   100 mg/dL
   2.3 mg/dL
   23 mEq/L
   3.7 mEq/L
   32 mg/dL
   102 mEq/L
   133 mEq/L
   24.3 %
   24.8 K/uL
        [image002.jpg]
                             [**2102-2-21**]  04:07 AM
                             [**2102-2-21**]  09:52 AM
                             [**2102-2-21**]  10:01 AM
                             [**2102-2-21**]  03:39 PM
                             [**2102-2-21**]  04:02 PM
                             [**2102-2-21**]  10:20 PM
                             [**2102-2-22**]  04:02 AM
                             [**2102-2-22**]  04:11 AM
                             [**2102-2-22**]  10:00 AM
                             [**2102-2-22**]  10:04 AM
   WBC
   24.8
   Hct
   25.8
   24.3
   Plt
   259
   Cr
   3.1
   2.3
   TCO2
   18
   20
   20
   24
   25
   25
   Glucose
   75
   45
   92
   100
   Other labs: PT / PTT / INR:12.3/38.3/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:70/119, Alk Phos / T Bili:134/3.9,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:493 IU/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, multifactorial (infection, acidosis,
   depressed mental status, LLL infiltrate).  Tolerating PSV mode.  Good
   SBT yesterday.  Continue mechanical ventilation.  Hope to be able to
   work towards repeat SBT and extubation as acute issues resolve, and
   mental status improves.
   ALTERED MENTAL STATUS -- multifactorial, Head CT unrevealing (although
   posterior sulci somewhat effaced bilaterally).  Coma may in part be
   related to sedation with slow clearance of medications.  [**Month (only) 8**] be
   evolving component of uremia (although BUN <100).  ALso, may have
   underlying liver disease (appears to have palmar erythema) -- check
   serum NH3 level.  Some improvement today.
   HYPOTENSION -- attributed to sepsis, may have component of
   hypovolemia.  Adrenal unsifficiency unlikely (random AM cortisol >30).
   Continue net volume repletion, use vasopressors as needed.
   SEPSIS
 Bacteremia.  Responding to current level of care.  Continue
   vasopressor, maintain MAP >60 mmHg.  Maintain CVP= 10-14 cm H2O.  Would
   consider repeat imaging abdomen.
   ABNORMAL LFTs -- net decline in LFTs except T bili.  Conintue to
   monitor.  Consider repeat US.  ERCP service to reassess.
   BACTEREMIA -- E. coli and VRE.  Suspect gallbladder source.  MRSA
   isolated from respiratory tract may represent colonization.  Continue
   Linezolid, Ceftriaxone.
   RENAL FAILURE, ACUTE
 Likely ATN vs rhabdomyalysis. Now on CVVH -->
   continue to run net balance or positive.
   RASH -- palmar erythema, palms and soles.  [**Month (only) 8**] represent underlying
   liver disease (cirrhosis?).  Demarcating rash of right toes may reflect
   vasopressor use.  Monitor exam.  Petichae may represent embolic event
   from endovascular source.
   SBO/ILEUS
 Persisits.  Surgery service following.  Monitor abdominal
   exam
   h/o CHOLECYSTITIS, CALCULOUS
 Severe cholecystitis,complicated by
   bacteremia.  Underwent ERCP w/o gross evidence of cholangitis.  T Bili
   now up trending.
   NUTRITIONAL SUPPORT
 Now on TPN.
   COAGULOPATHY
 improved with vitamin K.  Monitor.
   HYPOMAGENESEMIA -- replete iv
   HYPOPHOSPHATEMIA -- replete iv
   PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-2-21**] 05:45 PM 41.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-23 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ran positive on CVVH, off pressors
   - spoke to [**Hospital 714**] rehab re: h/o orthostatic hypotension, started on
   meclizine for vertigo a/w ortho hypotension 1 yr ago but resolved
   around [**Month (only) **].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-22**] 08:34 PM
   Metronidazole - [**2102-2-23**] 01:56 AM
   Linezolid - [**2102-2-23**] 05:46 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-23**] 12:11 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-23**] 12:11 AM
   Fentanyl - [**2102-2-23**] 03:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-23**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 71 (58 - 86) bpm
   BP: 123/56(79) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (10 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.5 kg (admission): 83.5 kg
    CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  5,710 mL
                                                                  1,451 mL
   PO:
   TF:
   IVF:
                                                                  4,677 mL
                                                                  1,032 mL
   Blood products:
   Total out:
                                                                  4,692 mL
                                                                  2,420 mL
   Urine:
                                                                     10 mL
                                                                     10 mL
   NG:
                                                                  1,800 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  1,018 mL
                                                                   -969 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 895) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.44/36/118/22/1
   Ve: 15.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, opening spontaneously, unable to lift head
   off of pillow,
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: clear anteriorly
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended,
   dressings CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+ Petechiae noted
   Skin:  Warm, well-defined macular erythematous rash on toes with
   purpuric spots, non-blanching, on soles, palmar erythema
   Neurologic: eyes open spontaneously, deviates eyes on command, poor
   muscle strength, but lightly palpable squeeze
   Labs / Radiology
   247 K/uL
   7.9 g/dL
   122 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.8 mEq/L
   22 mg/dL
   101 mEq/L
   132 mEq/L
   23.6 %
   21.2 K/uL
        [image002.jpg]
                             [**2102-2-22**]  04:11 AM
                             [**2102-2-22**]  10:00 AM
                             [**2102-2-22**]  10:04 AM
                             [**2102-2-22**]  03:50 PM
                             [**2102-2-22**]  03:51 PM
                             [**2102-2-22**]  08:45 PM
                             [**2102-2-22**]  09:19 PM
                             [**2102-2-22**]  10:03 PM
                             [**2102-2-23**]  03:08 AM
                             [**2102-2-23**]  03:34 AM
   WBC
   21.2
   Hct
   23.6
   Plt
   247
   Cr
   1.8
   1.6
   1.4
   TCO2
   25
   25
   24
   24
   24
   25
   Glucose
   100
   98
   123
   122
   Other labs: PT / PTT / INR:12.5/33.7/1.1, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:51/75, Alk Phos / T Bili:137/2.9,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:463 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and VRE, E. coli, Kluvera in
   wound/gall bladder cultures at OSH, now on
   Linezolid/Flagyl/Ceftriaxone.  Repeat blood cx have been neg since day
   of admission. Leukocytosis trending down again. No clinical worsening,
   finally off of pressors, no change in respiratory status or secretions,
   no fevers (however normothermic on CVVH). AM cortisol 30.7. Had rise in
   lactate? 2 /2 CVVH. Only minimally fluid-responsive.
   - goal CVP 10-14, MAP >65
   - run CVVH even to positive as needed to keep off pressors
   - f/u B-glucan and galactomannan
   - cont Linezolid/Flagyl/Ceftriaxone
   - consider changing CTX to cefepime if continued WBC elevation or
   clinical decompensation
   - surveillance blood cx
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down. JP drain pulled [**2-21**].
   - remove staples in [**3-1**] days
   - monitor LFTs
   - f/u ERCP recs
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, however mental status is barrier to extubation.
   CXR c/w volume overload, which is being addressed by CVVH.
   - cont daily weaning trials
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Off sedation for 4 days and no improvement. Head
   CT negative. [**Month (only) 8**] have delayed clearance of sedation given liver and
   kidney injury +/- uremia. Ammonia level nl.
   - Continue to hold sedation
   - CVVH to remove uremic toxins and sedatives
   .
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, on CVVH overnight. Lytes and Cr improved
   - goal even to positive today
   - Appreciate renal input
   - q6 lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   No bowel sounds, producing small amounts of stool, so ileus possible.
   KUB showed absence of gas possibly c/w bowel obstruction.   Continues
   to have NGT output.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, start TPN
   - NGT to suction
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 discussed with psych yesterday, will cont to
   hold all psych meds to avoid serotinin syndrome while on linezolid
   ICU Care
   Nutrition: TPN
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss
   Disposition : MICU
   [**Doctor Last Name **] DISORDERS)

2102-02-23 13:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   More awake.  Eyes open, wiggles toes to command.
   Abdominal surgical incisions draining serous fluid.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-2-23**] 05:46 AM
   Ceftriaxone - [**2102-2-23**] 08:00 AM
   Metronidazole - [**2102-2-23**] 10:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-23**] 12:11 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-23**] 12:11 AM
   Fentanyl - [**2102-2-23**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-23**] 01:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.2
   HR: 66 (58 - 86) bpm
   BP: 123/56(79) {0/0(0) - 0/0(0)} mmHg
   RR: 18 (9 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.5 kg (admission): 83.5 kg
   CVP: 3 (3 - 7)mmHg
   Total In:
                                                                  5,711 mL
                                                                  2,636 mL
   PO:
   TF:
   IVF:
                                                                  4,677 mL
                                                                  1,838 mL
   Blood products:
   Total out:
                                                                  4,692 mL
                                                                  3,749 mL
   Urine:
                                                                     10 mL
                                                                     10 mL
   NG:
                                                                  1,800 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  1,019 mL
                                                                 -1,113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 950 (409 - 950) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/38/143/24/1
   Ve: 10.3 L/min
   PaO2 / FiO2: 286
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   247 K/uL
   144 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   22 mg/dL
   99 mEq/L
   131 mEq/L
   23.6 %
   21.2 K/uL
        [image002.jpg]
                             [**2102-2-22**]  10:04 AM
                             [**2102-2-22**]  03:50 PM
                             [**2102-2-22**]  03:51 PM
                             [**2102-2-22**]  08:45 PM
                             [**2102-2-22**]  09:19 PM
                             [**2102-2-22**]  10:03 PM
                             [**2102-2-23**]  03:08 AM
                             [**2102-2-23**]  03:34 AM
                             [**2102-2-23**]  10:11 AM
                             [**2102-2-23**]  10:25 AM
   WBC
   21.2
   Hct
   23.6
   Plt
   247
   Cr
   1.8
   1.6
   1.4
   TCO2
   25
   24
   24
   24
   25
   26
   Glucose
   98
   123
   122
   144
   Other labs: PT / PTT / INR:12.5/33.7/1.1, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:51/75, Alk Phos / T Bili:137/2.9,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:1.7 g/dL, LDH:463 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, multifactorial (infection, acidosis,
   depressed mental status, LLL infiltrate).  Tolerating PSV mode.  Good
   SBT yesterday.  Continue mechanical ventilation.  Hope to be able to
   work towards repeat SBT and extubation as acute issues resolve, and
   mental status improves.
   ALTERED MENTAL STATUS -- Improved.  Multifactorial, Head CT unrevealing
   (although posterior sulci somewhat effaced bilaterally).   In part be
   related to sedation with slow clearance of medications.  [**Month (only) 8**] be
   evolving component of uremia (although BUN <100).  ALso, may have
   underlying liver disease (appears to have palmar erythema).
   HYPOTENSION -- attributed to sepsis, may have component of
   hypovolemia.  Adrenal unsifficiency unlikely (random AM cortisol >30).
   Continue net volume repletion, use vasopressors as needed.
   SEPSIS
 Bacteremia.  Responding to current level of care.  Continue
   vasopressor, maintain MAP >60 mmHg.  Maintain CVP= 10-14 cm H2O.  Would
   consider repeat imaging abdomen.
   ABNORMAL LFTs -- net decline in LFTs except T bili.  Conintue to
   monitor.  Consider repeat US.  ERCP service to reassess.
   BACTEREMIA -- E. coli and VRE.  Suspect gallbladder source.  MRSA
   isolated from respiratory tract may represent colonization.  Continue
   Linezolid, Ceftriaxone.
   RENAL FAILURE, ACUTE
 Likely ATN vs rhabdomyalysis. Now on CVVH -->
   continue to run net balance or positive.
   RASH -- palmar erythema, palms and soles.  [**Month (only) 8**] represent underlying
   liver disease (cirrhosis?).  Demarcating rash of right toes may reflect
   vasopressor use.  Monitor exam.  Petichae may represent embolic event
   from endovascular source.
   SBO/ILEUS
 Persisits.  Surgery service following.  Monitor abdominal
   exam
   h/o CHOLECYSTITIS, CALCULOUS
 Severe cholecystitis,complicated by
   bacteremia.  Underwent ERCP w/o gross evidence of cholangitis.  T Bili
   now up trending.
   NUTRITIONAL SUPPORT
 Now on TPN.
   COAGULOPATHY
 improved with vitamin K.  Monitor.
   HYPOMAGENESEMIA -- replete iv
   HYPOPHOSPHATEMIA -- replete iv
   PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-2-23**] 12:04 PM 58 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-24 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cont CVVH, neg 3 liters by evening
   - Surgery threw in stitch near JP drain site, rec leaving in staples
   - mental status improved, became more agitated in evening, received
   small doses of fentanyl and lorazepam
   - cont to essentially be anuric
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-23**] 08:52 PM
   Metronidazole - [**2102-2-24**] 02:28 AM
   Linezolid - [**2102-2-24**] 05:56 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Fentanyl - [**2102-2-23**] 08:54 PM
   Lorazepam (Ativan) - [**2102-2-23**] 09:17 PM
   Pantoprazole (Protonix) - [**2102-2-23**] 11:49 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-23**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-24**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 72 (58 - 93) bpm
   BP: 135/48(76) {124/44(66) - 153/54(83)} mmHg
   RR: 20 (9 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 83.5 kg
    CVP: 5 (2 - 5)mmHg
   Total In:
                                                                  5,052 mL
                                                                  1,470 mL
   PO:
   TF:
   IVF:
                                                                  3,597 mL
                                                                  1,054 mL
   Blood products:
   Total out:
                                                                  7,291 mL
                                                                  2,385 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,200 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,239 mL
                                                                   -915 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 781 (511 - 950) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.42/35/140/20/0
   Ve: 11.7 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, opening spontaneously, unable to lift head
   off of pillow,
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: clear anteriorly
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended,
   dressings CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+ Petechiae noted
   Skin:  Warm, well-defined macular erythematous rash on toes with
   purpuric spots, non-blanching, on soles, palmar erythema
   Neurologic: eyes open spontaneously, deviates eyes on command, poor
   muscle strength, but lightly palpable squeeze stronger than yesterday
   Labs / Radiology
   289 K/uL
   7.8 g/dL
   118 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.0 mEq/L
   18 mg/dL
   102 mEq/L
   132 mEq/L
   23.7 %
   26.3 K/uL
        [image002.jpg]
                             [**2102-2-23**]  03:08 AM
                             [**2102-2-23**]  03:34 AM
                             [**2102-2-23**]  10:11 AM
                             [**2102-2-23**]  10:25 AM
                             [**2102-2-23**]  03:46 PM
                             [**2102-2-23**]  04:09 PM
                             [**2102-2-23**]  10:55 PM
                             [**2102-2-23**]  11:14 PM
                             [**2102-2-24**]  04:01 AM
                             [**2102-2-24**]  04:37 AM
   WBC
   21.2
   26.3
   Hct
   23.6
   23.7
   Plt
   247
   289
   Cr
   1.4
   1.2
   1.2
   TCO2
   25
   26
   26
   24
   23
   Glucose
   122
   144
   106
   123
   118
   Other labs: PT / PTT / INR:11.6/28.7/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:49/57, Alk Phos / T Bili:185/2.0,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and VRE, E. coli, Kluvera in
   wound/gall bladder cultures at OSH, now on
   Linezolid(([**2-18**])/Flagyl([**2-18**])/Ceftriaxone([**2-22**]).  Repeat blood cx have
   been neg since day of admission. Leukocytosis is up today.   Clinically
   improving, waking up,  finally off of pressors, no change in
   respiratory status or secretions, no fevers (however normothermic on
   CVVH). AM cortisol 30.7. Had rise in lactate? 2 /2 CVVH. Tolerated 3
   liters negative yesterday.
   - goal CVP 10-14, MAP >65
   - run CVVH negative to remove excess fluid
 LOS + 10.9 L
   - f/u B-glucan and galactomannan
   - cont Linezolid for VRE
 d [**7-10**]
   - cont Ceftriaxone for Kluyveria cryocresan and E.coli
 d6/14
   - Would continue flagyll along with this course
   - consider changing CTX to cefepime if continued WBC elevation or
   clinical decompensation
   - surveillance blood cx
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down. JP drain pulled [**2-21**], stitched [**2-22**]
   - Surgery asked us to leave in stables yesterday
   - monitor LFTs
   - f/u ERCP recs
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, and with improved MS, she is clearing her
   barriers to extubation. CXR c/w volume overload, which is being
   addressed by CVVH.
   - anticipate extubation tomorrow after massive diuresis with CVVH.
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Off sedation for 4 days and no improvement. Head
   CT negative. [**Month (only) 8**] have delayed clearance of sedation given liver and
   kidney injury +/- uremia. Ammonia level nl.
   - Continue to hold sedation
   - CVVH to remove uremic toxins and sedatives
   - Greatly improved today
   .
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, on CVVH overnight. Lytes and Cr improved
   - goal as negative as possible
   - Appreciate renal input
   - q6 lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   No bowel sounds, producing small amounts of stool, so ileus possible.
   KUB showed absence of gas possibly c/w bowel obstruction.   Continues
   to have NGT output and small stools.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, start TPN
   - NGT to suction
   - bisacodyl suppository
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 discussed with psych yesterday, will cont to
   hold all psych meds to avoid serotinin syndrome while on linezolid
   ICU Care
   Nutrition: TPN
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code for now, will continue to discuss
   Disposition : MICU

2102-02-24 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Copious foaming while
   secretions via ETT.
   Tolerating CVVH.
   More awake.  Appropriate in head nods.
   Somewhat aggitated.
   Good effect from iv bolus of ativan for aggitation.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-2-24**] 05:56 AM
   Ceftriaxone - [**2102-2-24**] 08:30 AM
   Metronidazole - [**2102-2-24**] 09:59 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Fentanyl - [**2102-2-23**] 08:54 PM
   Lorazepam (Ativan) - [**2102-2-23**] 09:17 PM
   Pantoprazole (Protonix) - [**2102-2-23**] 11:49 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-24**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 75 (62 - 93) bpm
   BP: 145/47(78) {111/41(62) - 153/54(83)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 83.5 kg
   CVP: 3 (0 - 5)mmHg
   Total In:
                                                                  5,052 mL
                                                                  2,499 mL
   PO:
   TF:
   IVF:
                                                                  3,597 mL
                                                                  1,703 mL
   Blood products:
   Total out:
                                                                  7,291 mL
                                                                  4,671 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,200 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,239 mL
                                                                 -2,172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 697 (511 - 950) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 20
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.41/37/158/20/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   289 K/uL
   118 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.0 mEq/L
   18 mg/dL
   102 mEq/L
   132 mEq/L
   23.7 %
   26.3 K/uL
        [image002.jpg]
                             [**2102-2-23**]  03:34 AM
                             [**2102-2-23**]  10:11 AM
                             [**2102-2-23**]  10:25 AM
                             [**2102-2-23**]  03:46 PM
                             [**2102-2-23**]  04:09 PM
                             [**2102-2-23**]  10:55 PM
                             [**2102-2-23**]  11:14 PM
                             [**2102-2-24**]  04:01 AM
                             [**2102-2-24**]  04:37 AM
                             [**2102-2-24**]  11:21 AM
   WBC
   26.3
   Hct
   23.7
   Plt
   289
   Cr
   1.2
   1.2
   TCO2
   25
   26
   26
   24
   23
   24
   Glucose
   144
   106
   123
   118
   Other labs: PT / PTT / INR:11.6/28.7/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:49/57, Alk Phos / T Bili:185/2.0,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, multifactorial (infection, acidosis,
   depressed mental status, LLL infiltrate).  Tolerating PSV mode.  Good
   SBT yesterday.  Continue mechanical ventilation.  Hope to be able to
   work towards repeat SBT and extubation as acute issues resolve, and
   mental status continues to improve, and able to net diurese to baseline
   weight.
   ALTERED MENTAL STATUS -- Improved.  Multifactorial, Head CT unrevealing
   (although posterior sulci somewhat effaced bilaterally).   In part be
   related to sedation with slow clearance of medications.  [**Month (only) 8**] be
   evolving component of uremia (although BUN <100).  ALso, may have
   underlying liver disease (appears to have palmar erythema).
   HYPOTENSION -- attributed to sepsis, may have component of
   hypovolemia.  Adrenal unsifficiency unlikely (random AM cortisol >30).
   Continue net volume repletion, use vasopressors as needed.
   SEPSIS
 Bacteremia.  Responding to current level of care.  Continue
   vasopressor, maintain MAP >60 mmHg.  Maintain CVP= 10-14 cm H2O.  Would
   consider repeat imaging abdomen.
   ABNORMAL LFTs -- net decline in LFTs except T bili.  Conintue to
   monitor.  Consider repeat US.  ERCP service to reassess.
   BACTEREMIA -- E. coli and VRE.  Suspect gallbladder source.  MRSA
   isolated from respiratory tract may represent colonization.  Continue
   Linezolid, Ceftriaxone.
   RENAL FAILURE, ACUTE
 Likely ATN vs rhabdomyalysis. Now on CVVH -->
   continue to run net balance or positive.
   RASH -- palmar erythema, palms and soles.  [**Month (only) 8**] represent underlying
   liver disease (cirrhosis?).  Demarcating rash of right toes may reflect
   vasopressor use.  Monitor exam.  Petichae may represent embolic event
   from endovascular source.
   SBO/ILEUS
 Persisits.  Surgery service following.  Monitor abdominal
   exam
   h/o CHOLECYSTITIS, CALCULOUS
 Severe cholecystitis,complicated by
   bacteremia.  Underwent ERCP w/o gross evidence of cholangitis.  Will
   require repeat ERCP to remove stent in approx 1 week.
   NUTRITIONAL SUPPORT
 Now on TPN.
   COAGULOPATHY
 improved with vitamin K.  Monitor.
   HYPOMAGENESEMIA -- replete iv
   HYPOPHOSPHATEMIA -- replete iv
   PSYCHIATRIC DISEASE
 Will discuss with psych about restarting
   medications once more awake.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-2-23**] 05:30 PM 66.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-25 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - did not attempt extubation [**2-28**] white foamy
   secretions,
   - attempted very aggressive fluid removal with CVVH, complicated by
   clotted filter
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-24**] 08:13 PM
   Metronidazole - [**2102-2-25**] 02:07 AM
   Linezolid - [**2102-2-25**] 05:46 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-24**] 11:05 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-24**] 11:05 PM
   Lorazepam (Ativan) - [**2102-2-24**] 11:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 100 (64 - 100) bpm
   BP: 148/57(87) {101/38(55) - 163/57(90)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 83.5 kg
    CVP: 1 (-3 - 6)mmHg
   Total In:
                                                                  7,001 mL
                                                                  2,834 mL
   PO:
   TF:
   IVF:
                                                                  5,402 mL
                                                                  2,387 mL
   Blood products:
   Total out:
                                                                 10,035 mL
                                                                  4,652 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    750 mL
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,034 mL
                                                                 -1,818 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 329 (329 - 785) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/42/121/24/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, opening spontaneously, unable to lift head
   off of pillow,
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: Dopplerable DPs and PTs bilaterally, toes
   w/improved perfusion, cap refill bilat
   Respiratory / Chest: (Breath Sounds: clear anteriorly
   Abdominal: Soft, Non-tender, No Bowel sounds present, Distended,
   dressings CDI
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+ Petechiae noted
   Skin:  Warm, well-defined macular erythematous rash on toes with
   purpuric spots, non-blanching, on soles, palmar erythema
   Neurologic: eyes open spontaneously, deviates eyes on command, poor
   muscle strength, but lightly palpable squeeze stronger than yesterday
   Labs / Radiology
   324 K/uL
   8.3 g/dL
   94 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   21 mg/dL
   100 mEq/L
   134 mEq/L
   25.5 %
   26.5 K/uL
        [image002.jpg]
                             [**2102-2-23**]  10:55 PM
                             [**2102-2-23**]  11:14 PM
                             [**2102-2-24**]  04:01 AM
                             [**2102-2-24**]  04:37 AM
                             [**2102-2-24**]  11:10 AM
                             [**2102-2-24**]  11:21 AM
                             [**2102-2-24**]  05:47 PM
                             [**2102-2-24**]  06:00 PM
                             [**2102-2-25**]  05:52 AM
                             [**2102-2-25**]  06:11 AM
   WBC
   26.3
   26.5
   Hct
   23.7
   25.5
   Plt
   289
   324
   Cr
   1.2
   1.2
   TCO2
   24
   23
   24
   22
   26
   Glucose
   123
   118
   126
   94
   Other labs: PT / PTT / INR:11.6/28.7/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:49/57, Alk Phos / T Bili:185/2.0,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:7.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and VRE, E. coli, Kluvera in
   wound/gall bladder cultures at OSH, now on
   Linezolid([**2-18**])/Flagyl([**2-18**])/Ceftriaxone([**2-22**]).  Repeat blood cx have
   been neg since day of admission. Leukocytosis is up today.   Clinically
   improving, waking up,  finally off of pressors, no change in
   respiratory status or secretions, no fevers (however normothermic on
   CVVH). AM cortisol 30.7.
   - goal CVP 10-14, MAP >65
   - f/u B-glucan (-) and galactomannan (P)
   - cont Linezolid for VRE
 d [**8-9**]
   - cont Ceftriaxone for Kluyveria cryocresan and E.coli
 d7/14
   - Would continue flagyl along with this course
   - consider changing CTX to cefepime if continued WBC elevation or
   clinical decompensation
   - surveillance blood cx
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down. JP drain pulled [**2-21**], stitched [**2-22**]
   - Surgery rec leave in staples
   - monitor LFTs
   - f/u ERCP recs
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, and with improved MS. Barriers to extubation are
   CXR c/w volume overload, and secretions, which are being addressed by
   CVVH.
   - cont massive diuresis with CVVH
   - daily SBT
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Improved with time off sedation and CVVH.
   .
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, on CVVH overnight. Lytes and Cr improved
   - goal as negative as possible
   - Appreciate renal input
   - q6 lytes
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   No bowel sounds, producing small amounts of stool, so ileus possible.
   KUB showed absence of gas possibly c/w bowel obstruction.   Continues
   to have NGT output and small stools.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, start TPN
   - NGT to suction
   - bisacodyl suppository
   .
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 discussed with psych yesterday, will cont to
   hold all psych meds to avoid serotinin syndrome while on linezolid
   - d/w psych when illness improves re: restarting meds
   ICU Care
   Nutrition: TPN
   Glycemic Control:  fingersticks
   Lines:
   Arterial Line - [**2102-2-16**] 06:28 PM
   20 Gauge - [**2102-2-16**] 06:30 PM
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Pantoprazole
   VAP: Chlorhexidine, HOB elevated
   Comments:
   Communication:  With family
   Code status: Full code
   Disposition : MICU

2102-02-25 08:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed aggressively overnight
   Awake, alert and following commands
   Secretions much improved, only modest amount of thin white secretions
   overnight
   History obtained from Patient, ableit limited given intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-2-25**] 02:07 AM
   Linezolid - [**2102-2-25**] 05:46 AM
   Ceftriaxone - [**2102-2-25**] 07:59 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.8 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-24**] 11:05 PM
   Lorazepam (Ativan) - [**2102-2-24**] 11:05 PM
   Heparin Sodium (Prophylaxis) - [**2102-2-25**] 08:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO, Parenteral nutrition
   Genitourinary: Foley
   Integumentary (skin): Rash
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-2-25**] 08:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 95 (64 - 100) bpm
   BP: 159/60(95) {101/38(55) - 163/60(95)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 83.5 kg
   CVP: 1 (-3 - 6)mmHg
   Total In:
                                                                  7,001 mL
                                                                  3,651 mL
   PO:
   TF:
   IVF:
                                                                  5,402 mL
                                                                  3,091 mL
   Blood products:
   Total out:
                                                                 10,035 mL
                                                                  5,420 mL
   Urine:
                                                                      5 mL
                                                                      5 mL
   NG:
                                                                    750 mL
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,034 mL
                                                                 -1,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (329 - 785) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 25
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/42/121/23/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dependently)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, Rash: bottom of feet bilaterally
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   324 K/uL
   178 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.5 mEq/L
   18 mg/dL
   99 mEq/L
   135 mEq/L
   25.5 %
   26.5 K/uL
        [image002.jpg]
                             [**2102-2-23**]  10:55 PM
                             [**2102-2-23**]  11:14 PM
                             [**2102-2-24**]  04:01 AM
                             [**2102-2-24**]  04:37 AM
                             [**2102-2-24**]  11:10 AM
                             [**2102-2-24**]  11:21 AM
                             [**2102-2-24**]  05:47 PM
                             [**2102-2-24**]  06:00 PM
                             [**2102-2-25**]  05:52 AM
                             [**2102-2-25**]  06:11 AM
   WBC
   26.3
   26.5
   Hct
   23.7
   25.5
   Plt
   289
   324
   Cr
   1.2
   1.2
   1.0
   TCO2
   24
   23
   24
   22
   26
   Glucose
   123
   118
   126
   94
   178
   Other labs: PT / PTT / INR:11.9/23.9/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:49/57, Alk Phos / T Bili:185/2.0,
   Amylase / Lipase:60/9, Differential-Neuts:87.0 %, Band:5.0 %, Lymph:5.0
   %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION:  Continues broad spectrum
   antibiotics.  WBC increased over past two days, unclear etiology.  Rash
   improving.  Repeat blood and urine cultures including through lines.
   LFTs trending down. Check differential.  Send stool for C.diff albeit
   currently not stooling.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Improved overnight with
   decreased secretions in the setting of continued aggressive diuresis on
   CVVH.  Anticipate extubation this morning.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): Secondary to ATN.
   Continues on CVVH, diuresing well.  Increased calcium drip as per renal
   recommendations.
 ILEUS:  No bowel sounds, NGT to suction.  Abdomen soft on exam.
   Minimize narcotics.
 H/O CHOLECYSTITIS, CALCULOUS:
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Awake and alert this morning
   off sedation, following commands.
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-2-24**] 05:31 PM 66.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-02-26 07:29:00 Physician Resident Progress Note
Chief Complaint: biliary sepsis, renal failure, hypoxic resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-2-25**] 09:45 AM
   - extubated
   - mental status improved, conversant
   - CVVH plan is diurese until clots or 1 more day, then HD Mon -->
   clotted off and done at midnight
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-25**] 08:31 PM
   Metronidazole - [**2102-2-26**] 01:34 AM
   Linezolid - [**2102-2-26**] 05:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-26**] 12:37 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-26**] 12:37 AM
   Other medications:
   Changes to medical and family history:
   c/o pain near belly button, no other complaints
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Flowsheet Data as of  [**2102-2-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 80 (77 - 107) bpm
   BP: 104/32(52) {90/32(50) - 182/66(103)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.7 kg (admission): 83.5 kg
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  9,303 mL
                                                                    978 mL
   PO:
   TF:
   IVF:
                                                                  7,704 mL
                                                                    484 mL
   Blood products:
   Total out:
                                                                 16,433 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -7,130 mL
                                                                    978 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 573 (573 - 573) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.45/32/91.[**Numeric Identifier 253**]/24/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Bowel sounds present, Tender: right flank/RUQ, Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   326 K/uL
   7.8 g/dL
   133 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   29 mg/dL
   99 mEq/L
   136 mEq/L
   23.3 %
   26.5 K/uL
        [image002.jpg]
                             [**2102-2-24**]  11:10 AM
                             [**2102-2-24**]  11:21 AM
                             [**2102-2-24**]  05:47 PM
                             [**2102-2-24**]  06:00 PM
                             [**2102-2-25**]  05:52 AM
                             [**2102-2-25**]  06:11 AM
                             [**2102-2-25**]  12:41 PM
                             [**2102-2-25**]  05:47 PM
                             [**2102-2-25**]  06:05 PM
                             [**2102-2-26**]  04:56 AM
   WBC
   26.5
   26.5
   Hct
   25.5
   23.3
   Plt
   324
   326
   Cr
   1.2
   1.0
   1.0
   1.5
   TCO2
   24
   22
   26
   25
   23
   Glucose
   126
   94
   178
   151
   194
   133
   Other labs: PT / PTT / INR:11.9/23.9/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:32/32, Alk Phos / T Bili:346/1.2,
   Amylase / Lipase:60/9, Differential-Neuts:83.0 %, Band:5.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.8
   mg/dL
   Microbiology: surveillance blood cxs (-)
   urine (-)
   Assessment and Plan
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   Assessment and Plan
 SEPSIS
 Has VRE and E. coli in blood and VRE, E. coli, Kluvera in
   wound/gall bladder cultures at OSH, now on
   Linezolid([**2-18**])/Flagyl([**2-18**])/Ceftriaxone([**2-22**]).  Repeat blood cx have
   been neg since day of admission. Leukocytosis stable today.
   Clinically improving, waking up, off of pressors, no change in
   respiratory status or secretions, no fevers, AM cortisol 30.7.
   - goal CVP 10-14, MAP >65
   - f/u B-glucan (-) and galactomannan (P)
   - cont Linezolid for VRE
 d [**10-10**], Ceftriaxone for Kluyveria cryocresan
   and E.coli
 d5/14, flagyl given GI source d9/14
   - consider changing CTX to cefepime if continued WBC elevation or
   clinical decompensation
   - repeat blood, urine, sputum cx
   - surveillance blood cx
   - will check C. diff given persistent leukocytosis, abd. pain,
   increased stool output, will add on lipase
   .
 H/O CHOLECYSTITIS, CALCULOUS
 Appears to have had severe
   cholecystitis, bacteremia resultant from that.  Underwent ERCP w/o
   gross evidence of cholangitis. s/p pancreatic and biliary stents.LFts
   continue to be trending down. JP drain pulled [**2-21**], stitched [**2-22**]
   - monitor LFTs
   - f/u ERCP recs
   - Surgery recs -> ? enteral feeds, staples out
   .
 RESPIRATORY FAILURE
 Intubated for hypoxia and OR, CXR stable.
   Doing well on PSV 5/5, and with improved MS. Barriers to extubation
   were CXR c/w volume overload, and secretions, which improved with
   diuresis by CVVH.
   - extubated, monitor closely, doing well, improved lung volumes s/p
   CVVH volume removal
   - will d/c a-line
   .
 RENAL FAILURE, ACUTE
 Likely ATN vs myoglobinuria, still essentially
   anuric, on CVVH overnight. CVVH stopped this morning.
   - Appreciate renal input
   - [**Hospital1 **] lytes,  monitor renal fxn closely
   - renally dose meds
   .
 SBO/ILEUS
 E/o SBO on CT, however surgery unimpressed with ab exam.
   No bowel sounds, producing small amounts of stool, so ileus possible.
   KUB showed absence of gas possibly c/w bowel obstruction.   Continues
   to have NGT output and small stools.  Resolving.
   - Follow abdominal exam
   - Appreciate surgical input
   - keep NPO, cont TPN
   - NGT LICS
   - bisacodyl suppository
   .
 ALTERED MENTAL STATUS
 Most likely toxic/metabolic +/- delirium
   given psych history. Improved with time off sedation and CVVH.
   Resolved.
   >. DRUG RASH- Rash on palms and soles
likely erythema multiforme-
   started 3 new abx day before rash appeared. Will cont to monitor and
   cont abx as tolerated.
 COAGULOPATHY
 improved w/vitamin K at OSH
 PSYCHIATRIC DISEASE
 discussed with psych yesterday, will cont to
   hold all psych meds to avoid serotinin syndrome while on linezolid
   - d/w psych when illness improves re: restarting meds
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-2-25**] 05:28 PM 66.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT:   SC heparin, SCDs
   Stress ulcer:   pantoprazole
   VAP:  see above for Abx regimen
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:   ICU

2102-02-26 11:07:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, biliary sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-2-25**] 09:45 AM
   Extubated yesterday morning, tolerated well
   Mental status improving, fully alert and oriented this morning
   Off CVVH since 6 am today
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-2-26**] 01:34 AM
   Linezolid - [**2102-2-26**] 05:45 AM
   Ceftriaxone - [**2102-2-26**] 08:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-26**] 12:37 AM
   Heparin Sodium (Prophylaxis) - [**2102-2-26**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Gastrointestinal: Diarrhea
   Pain: [**1-28**] Minimal
   Pain location: over abdomen, can't necessarily localize by pointing to
   any one location
   Flowsheet Data as of  [**2102-2-26**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 101 (80 - 107) bpm
   BP: 134/52(76) {90/32(50) - 182/66(103)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.5 kg (admission): 83.5 kg
   CVP: -3 (-3 - 11)mmHg
   Total In:
                                                                  9,303 mL
                                                                  1,288 mL
   PO:
   TF:
   IVF:
                                                                  7,704 mL
                                                                    568 mL
   Blood products:
   Total out:
                                                                 16,433 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                 -7,130 mL
                                                                  1,288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.45/32/91.[**Numeric Identifier 253**]/24/0
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, No(t) Non-tender, mild R sided abdominal pain;
   staples/stiches still in place, mild surrounding erythema
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Rash: toes
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): A & O x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   7.8 g/dL
   326 K/uL
   133 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   29 mg/dL
   99 mEq/L
   136 mEq/L
   23.3 %
   26.5 K/uL
        [image002.jpg]
                             [**2102-2-24**]  11:10 AM
                             [**2102-2-24**]  11:21 AM
                             [**2102-2-24**]  05:47 PM
                             [**2102-2-24**]  06:00 PM
                             [**2102-2-25**]  05:52 AM
                             [**2102-2-25**]  06:11 AM
                             [**2102-2-25**]  12:41 PM
                             [**2102-2-25**]  05:47 PM
                             [**2102-2-25**]  06:05 PM
                             [**2102-2-26**]  04:56 AM
   WBC
   26.5
   26.5
   Hct
   25.5
   23.3
   Plt
   324
   326
   Cr
   1.2
   1.0
   1.0
   1.5
   TCO2
   24
   22
   26
   25
   23
   Glucose
   126
   94
   178
   151
   194
   133
   Other labs: PT / PTT / INR:11.9/23.9/1.0, CK / CKMB /
   Troponin-T:762/40/0.07, ALT / AST:32/32, Alk Phos / T Bili:346/1.2,
   Amylase / Lipase:60/9, Differential-Neuts:83.0 %, Band:5.0 %, Lymph:7.0
   %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic Acid:2.2 mmol/L,
   Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.8
   mg/dL
   Imaging: CXR:  Decreased effusions and cephalization
   Assessment and Plan
 RASH:  Continues to improve.
 SEPSIS, BILIARY;  VRE and E Coli bacteremia, E Coli in urine.
   Continues on CTX/flagyl/linezolid.
 DIARRHEA:  Plan to send stool for C. Diff.  Has been on IV flagyl.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Extubated yesterday
   morning.  Doing well on 3 L NC.  CXR improved with large volume removal
   on CVVH over past 24 hours.  Maintain even I/Os.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Renal service
   anticipating initiation of HD.  Follow labs.
 CHOLECYSTITIS, CALCULOUS:  Stent in place.  Anticipate repeat ERCP as
   per GI.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-2-25**] 05:28 PM 66.[**Telephone/Fax (3) 499**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-17**] 01:00 AM
   Arterial Line - [**2102-2-19**] 07:10 PM
   Dialysis Catheter - [**2102-2-20**] 06:23 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2102-02-28 08:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD removed only 700 cc, short of targe 3L, due to hypotension (SBP in
   80s)
   - repeat gas at 17:00 [**2-27**]: 7.54/32/68/28/4
   - continued to have RR in 20's and 30s, not appearing to tire yet
   - tried to call family, no answer (son [**Name (NI) **]: [**Telephone/Fax (1) 11278**], [**Name2 (NI) **]r [**Name (NI) 2245**]
   H:[**Telephone/Fax (1) 11279**] C:[**Telephone/Fax (1) 11280**], sister [**Name (NI) 11281**]: [**Telephone/Fax (1) 11282**])
   - repeat labs: leukocytosis 22----->31
   - repeat CXR [**2-27**]: Slight improved aeration of left lung base, although
   pleural effusion and likely atelectasis persists.
   - RUQ u/s [**2-27**]: No evidence of intra- or extra-hepatic biliary ductal
   dilation. Overall, unremarkable study with patent portal vein.
   - LENI [**2-27**]: no evidence of deep venous thrombosis. Peroneal vein in the
   right calf was not visualized.
   200 cc black from NGT, 500 cc stool
 ULTRASOUND - At [**2102-2-27**] 12:00 PM
   ultrasound bilat lower extremities
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-27**] 08:07 PM
   Linezolid - [**2102-2-27**] 08:49 PM
   Metronidazole - [**2102-2-27**] 11:24 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-27**] 07:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-2-28**] 08:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 104 (96 - 108) bpm
   BP: 132/33(60) {92/29(55) - 149/69(76)} mmHg
   RR: 21 (21 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 83.5 kg
             Total In:
                                                                    687 mL
                                                                     89 mL
   PO:
             TF:
   IVF:
                                                                    687 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    200 mL
   Urine:
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: 7.51/34/143/26/4
   PaO2 / FiO2: 286
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   382 K/uL
   7.0 g/dL
   117
   2.5 mg/dL
   26 mEq/L
   4.6 mEq/L
   51 mg/dL
   100 mEq/L
   141 mEq/L
   21.3 %
   25.8 K/uL
        [image002.jpg]
                             [**2102-2-25**]  12:41 PM
                             [**2102-2-25**]  05:47 PM
                             [**2102-2-25**]  06:05 PM
                             [**2102-2-26**]  04:56 AM
                             [**2102-2-26**]  03:07 PM
                             [**2102-2-27**]  04:54 PM
                             [**2102-2-27**]  06:28 PM
                             [**2102-2-28**]  02:59 AM
                             [**2102-2-28**]  04:00 AM
                             [**2102-2-28**]  08:48 AM
   WBC
   26.5
   31.1
   25.8
   Hct
   23.3
   21.5
   21.3
   Plt
   326
   332
   382
   Cr
   1.0
   1.5
   2.0
   2.0
   2.5
   TCO2
   25
   23
   28
   28
   Glucose
   151
   194
   133
   146
   117
   96
   117
   Other labs: PT / PTT / INR:14.2/26.9/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:24/40, Alk Phos / T Bili:362/1.2,
   Amylase / Lipase:369/65, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.7 g/dL, LDH:464 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ASSESSMENT AND PLAN: 68 yo female with CAD, bipolar disease s/p
   cholecystectomy and ERCP, course complicated by sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring
   CVVH/HD who was improving but now transferred back to ICU for
   tachypnea.
   #Tachypnea: DDx includes PE (large AA gradient, tachycardia, low grade
   temp), atelectasis (though seen on prior CXR and apparent acute
   tachypnea this AM), volume overload due to needing dialysis (though not
   c/w CXR), aspiration (unlikely as patient with NG to suction), and
   anxiety (is alkalotic on ABG but also hypoxic). Patient has a history
   of COPD but she is not hypercarbic on ABG.  Spoke to renal and would
   not be good to give dye given her kidneys should improve over time.  VQ
   scan would also not likely be helpful as patient has underlying lung
   pathology.,
   -LENI
   -Check Coags, if INR <2, will start heparin for presumed PE.
   -ECHO to assess for RH strain
   -continue nebs
   #. Bacteremia, Biliary infection: ABX tailored to VRE and multiple
   organisms in Bile.
   -continue 14 day course of Linezolid, CTX, Flagyl (last day)
   -ERCP following - may need stent removal on Thursday if clinically
   improving
   # Renal failure: likely [**Last Name (un) **] secondary to ATN. She required CVVH
   starting [**2102-2-20**] and plan to [**Last Name (un) 11271**] HD today. Renal service following
   closely.
   - monitor electrolytes
   - f/u renal recs
   - HD
   - renally dose medications
   - daily weights
   # Anemia: HCT of 21, slowly trending down
   - no e/o bleeding, guaiac all stool
   - T & S active
   - trend coags
   - transfuse for hct<21
   # SBO/Ileus - evidence of SBO on CT, but likely resolving, now with
   bowel sounds, non-tender abdominal exam. Continues to have NGT output.
   -monitor abdominal exam
   -NPO, continue TPN
   -NGT LICS
   -followup labs tomorrow - will consider removing NGT and advancing diet
   when labs, exam improved.
   -bowel regimen
   # Pyschiatric disease
 discussed with psych, will continue to hold all
   psych meds to avoid serotinin syndrome while on linezolid
   - d/w psych when off linezolid re: restarting meds
   #. COPD:
   - bronchodilators
   # Drug rash - rash on palms and soles, improving. Started new
   antibiotics the day before rash appeared - unclear which may have bee
   the cause. Will continue to follow, continue abx as tolerated.
   FEN: NPO
   PPX:
   -Heparin gtt
   -Bowel regimen
   ACCESS:
   CODE STATUS: Presumed full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-01 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-2-28**] 08:11 PM
   - Intubated for IR procedure, given increased upper airway secretions.
   Hopefully can wean/extubate in AM
   - Transiently given levo and small fluid bolus post-intubation. Now off
   pressors
   - CT revealed liver abscess. Pt went to IR for IR-guided drainage of
   hypodensity. Per brief signout by IR, needle yielded clot, no grossly
   purulent fluid. Sent for GS & Culture
   - Plan to start TPN in AM
   - Psych recs: C/w hold psych meds. Page psych prior to starting any
   meds or if patient agitated
   - TTE: LVEF > 55%. Preserved BiV function. Trivial pericardial effusion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-2-28**] 07:30 AM
   Linezolid - [**2102-2-28**] 08:00 PM
   Metronidazole - [**2102-3-1**] 12:16 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-2-28**] 10:29 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-1**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 97 (86 - 108) bpm
   BP: 104/38(55) {77/25(39) - 141/60(75)} mmHg
   RR: 23 (16 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.5 kg (admission): 83.5 kg
             Total In:
                                                                  1,140 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                  1,140 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                    950 mL
                                                                    400 mL
   Urine:
   NG:
                                                                    450 mL
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                    190 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 401 (400 - 401) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.39/46/122/24/2
   Ve: 10.3 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Ventilator sounds
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   456 K/uL
   5.9 g/dL
   88 mg/dL
   3.6 mg/dL
   24 mEq/L
   5.0 mEq/L
   71 mg/dL
   99 mEq/L
   140 mEq/L
   18.4 %
   26.0 K/uL
        [image002.jpg]
                             [**2102-2-25**]  06:05 PM
                             [**2102-2-26**]  04:56 AM
                             [**2102-2-26**]  03:07 PM
                             [**2102-2-27**]  04:54 PM
                             [**2102-2-27**]  06:28 PM
                             [**2102-2-28**]  02:59 AM
                             [**2102-2-28**]  04:00 AM
                             [**2102-2-28**]  08:48 AM
                             [**2102-3-1**]  12:50 AM
                             [**2102-3-1**]  03:28 AM
   WBC
   26.5
   31.1
   25.8
   26.0
   Hct
   23.3
   21.5
   21.3
   18.4
   Plt
   326
   332
   382
   456
   Cr
   1.5
   2.0
   2.0
   2.5
   3.6
   TCO2
   23
   28
   28
   29
   Glucose
   133
   146
   117
   96
   117
   88
   Other labs: PT / PTT / INR:14.4/29.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:24/41, Alk Phos / T Bili:262/1.0,
   Amylase / Lipase:369/65, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:464 IU/L, Ca++:6.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.6 mg/dL
   Imaging: [**2-28**] CT Abd/Pelvis: Interval development of 2.5cm rounded,
   hypodense fluid collection
   in the anterior aspect of the left hepatic lobe, concerning for abscess
   especially in the context of sepsis. The abscess is amenable to
   ultrasound-guided bedside drainage.
   [**2-28**] RUQ U/S: Pending
   [**2-28**] Interventional CT: Pending
   Microbiology: [**2-28**] Liver aspirate: GRAM STAIN (Final [**2102-2-28**]): No PMN
   or Microorganisms.
   CULTURE: Pending
   [**2-27**], [**2-25**] BCx: Pending
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ASSESSMENT AND PLAN: 68 yo female with CAD, bipolar disease s/p
   cholecystectomy and ERCP, course c/b sepsis requiring intubation and
   pressors, [**Doctor Last Name 816**] bacteremia, renal failure requiring CVVH/HD -- was
   improving but now transferred back to ICU for tachypnea.
   # Abdominal Pain: Patient has elevated Amylase/Lipase/Alk Phos,
   abdominal pain, tachypnea with roughly normal blood gases, in setting
   of relatively recent ERCP, [**Name (NI) 816**] bacteremia. Could be pancreatitis
   driving her pain and her  tachypnea.
   -          CT abd/pelvis, noncom (PO con) to look for hemorrhagic
   pancreatitis
   -          Check with ERCP recs after CT scan
   -          NPO, NGT, LICS
   #Tachypnea: DDx still includes PE (large AA gradient, tachycardia, low
   grade temp), but this less likely given reasonably normal CO2 and O2 in
   ABGs. Negative LENIs noted. V/Q would be difficult given patient would
   be poor participant. Patient this AM states her belly pain more
   concerning than her tachypnea. Tachypnea seems more likely secondary to
   pain, infection of an abdominal process.
   -ECHO to assess for RH strain, if CT comes back negative
   #. Bacteremia, Biliary infection: ABX tailored to [**Name (NI) 816**] and multiple
   organisms in Bile.
   -continue 14 day course of Linezolid, CTX, Flagyl (last day)
   -ERCP following - may need stent removal on Thursday if clinically
   improving
   # Renal failure: likely [**Last Name (un) **] secondary to ATN. She required CVVH
   starting [**2102-2-20**] and plan to [**Last Name (un) 11271**] HD today. Renal service following
   closely.
   - HD tomorrow
   - monitor electrolytes
   - f/u renal recs
   - renally dose medications
   - daily weights
   # Anemia: HCT of 21, slowly trending down
   - no e/o bleeding, guaiac all stool
   - T & S active
   - trend coags
   - transfuse for hct<21
   # Pyschiatric disease: Seen by psych today
   - continue to hold all psych meds to avoid serotinin syndrome while on
   linezolid
   - d/w psych when off linezolid re: restarting meds
   #. COPD:
   - bronchodilators
   # Drug rash - Rash on palms and soles resolved
   FEN: NPO
   PPX:
   -Heparin gtt
   -Bowel regimen
   ACCESS:
   CODE STATUS: Presumed full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-02 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Gen/Transplant Surgery: Recommending ERCP
   - ID: CT sinus, CTX increased to q12h, repeat UA/UCx
   - IP: Not enough fluid to do thoracentesis
   - ERCP would like to pull pancreatic stent tomorrow on [**Hospital Ward Name 203**] -
   they will do repeat ERCP also
   - Given plans for ERCP, holding on Renal request for IR tunnelled RIJ
   - Anemia panel ordered: Ferritin 1059, Iron 157, Retic 4.2, Hapto 289
   suggestive of anemia of chronic disease and recent blood loss
   - C Diff negative
   - HD today
   - TPN started today. NPO and no TF for ERCP tomorrow
   - Staples removed and surgical site above umbilicus open, deep. Not
   overtly infected (?stitch vs steristrips)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-1**] 08:51 PM
   Linezolid - [**2102-3-1**] 09:30 PM
   Metronidazole - [**2102-3-2**] 12:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-1**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-2**] 12:22 AM
   Hydromorphone (Dilaudid) - [**2102-3-2**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-2**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 83 (78 - 101) bpm
   BP: 111/40(57) {88/34(50) - 140/49(71)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.6 kg (admission): 83.5 kg
             Total In:
                                                                  2,468 mL
                                                                    522 mL
   PO:
             TF:
   IVF:
                                                                  1,449 mL
                                                                    156 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  1,114 mL
                                                                    802 mL
   Urine:
                                                                     14 mL
                                                                      2 mL
   NG:
                                                                    900 mL
                                                                    800 mL
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 401 (401 - 401) mL
   Vt (Spontaneous): 305 (305 - 483) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 11.6 L/min
   Physical Examination
   General Appearance: Well nourished, opens eyes spontaneously, responds
   intermittently to questions/commands
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Supra-umbilical
   surgical incision site open, w/o discharge but deep (~1 inch)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   410 K/uL
   7.3 g/dL
   142 mg/dL
   2.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   38 mg/dL
   102 mEq/L
   141 mEq/L
   22.2 %
   17.1 K/uL
        [image002.jpg]
                             [**2102-2-26**]  03:07 PM
                             [**2102-2-27**]  04:54 PM
                             [**2102-2-27**]  06:28 PM
                             [**2102-2-28**]  02:59 AM
                             [**2102-2-28**]  04:00 AM
                             [**2102-2-28**]  08:48 AM
                             [**2102-3-1**]  12:50 AM
                             [**2102-3-1**]  03:28 AM
                             [**2102-3-1**]  03:05 PM
                             [**2102-3-2**]  02:04 AM
   WBC
   31.1
   25.8
   26.0
   17.1
   Hct
   21.5
   21.3
   18.4
   23.7
   22.2
   Plt
   332
   382
   456
   410
   Cr
   2.0
   2.0
   2.5
   3.6
   2.5
   TCO2
   28
   28
   29
   Glucose
   146
   117
   96
   117
   88
   142
   Other labs: PT / PTT / INR:14.3/30.2/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:19/35, Alk Phos / T Bili:219/0.9,
   Amylase / Lipase:362/61, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:464 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   MICRO: Liver aspirate, blood cultures, urine cultures NGTD
   Sputum
 negative, sparse yeast
   IMAGING:
   CT sinus
   1. Interval near complete resolution of paranasal sinus opacification
   compared to [**2102-2-19**], with remaining partial opacification of one left
   ethmoid air cell.
   2. Persistent opacification of mastoid air cells bilaterally.
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring CVVH/HD -- was improving but now transferred
   back to ICU for tachypnea.
   # Low grade fevers/leukocytosis: Initial impression of possible hepatic
   abscess not corroborated by aspiration. Alk phos and lipase continue to
   be elevated but other abdominal labs unrevealing. Given recent
   procedures and stent placement, may be partially attributable to
   inflammation [**2-28**] foreign bodies.  Culture data only revealing for VRE
   bacteremia now s/p ~2 weeks ABx therapy. Leukocytosis improving, no
   fevers in last 24 hours
   - Wound care consult and Gen [**Doctor First Name **] eval of umbilical surgical incision
   currently does not look infected but concerning
   - Appreciate ID consult: Increased CTX frequency, CT sinus negative,
   UA/urine culture ordered
   - Gen [**Doctor First Name 91**] recommending ERCP, to be done today with pancreatic stent
   removal; will discuss patient case further with Dr. [**Last Name (STitle) 473**]
   - Trend LFT
s/pancreatic enzymes
   - C/w linezolid for VRE bacteremia, CTX/Flagyl for empiric intra-abd
   coverage
   # Respiratory distress/Secretions: Patient intubated, doing well on
   CPAP/pressure support and responsive. TTE unrevealing for RH strain.
   Etiology/source of secretions unclear. [**Name2 (NI) **] cultures/samples have grown
   organisms
   - Appreciate IP consult: No tappable fluid
   - Will consider extubation today but hold until repeat bronchscopy
   performed
   # ESRD on HD: Got HD yesterday.  Renal service following closely.
   - Appreciate Renal following: Will request IR to place tunneled RIJ for
   HD after ERCP completed today, given non-improving renal function
   - Discuss with Renal coordination of CT abd/pelvis with contrast given
   unclear etiology of infection and current hemodialysis dependent status
   - Monitor electrolytes
   - Renally dose medications
   - Daily weights
   # Anemia: Hct trending down to 18 from 33 upon admission. More acute
   drop since yesterday, which was concerning given IR procedure. No
   evidence of active bleeding and anemia labs suggestive of anemia of
   chronic disease, acute phase reaction and recent blood loss. Responded
   appropriately to two units pRBC yesterday and now stable
   - Guaiac all stool
   - T & S active
   - Trend coags (stable)
   # Psychiatric disease: Holding psych meds, per psychiatry
   - Will re-discuss with Psychiatry the possibility of re-starting
   non-SSRI medications given that currently all psych meds are being held
   to avoid serotonin syndrome on linezolid and patient
s mental status
   continues to be altered from baseline (interactive with family, minimal
   self-care
 since admission, has been minimally interactive)
   .
   #. COPD:
   - Bronchodilators
   # Drug rash - Rash on palms and soles resolved
   FEN: NPO
   PPX:
   -PBoots
   -Bowel regimen
   -PPI
   ACCESS: HD catheter
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-1**] 05:00 PM 66 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-03 05:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Micro: Liver lesion tissue growing G+ cocci, GNRs
   - ERCP: Changed both biliary and panc stents:
   - Continues to put out copious green NG residuals (2.3L @ midnight for
   24 hrs, 600 cc from midnight to 4 AM), no stool in Flexiseal
   - Plan re IR & tunneled RJ for HD: Call [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 11343**] [**3-3**]
   - HD today
   - [**Doctor First Name 91**] debrided abdomen wound
   - SBT this AM, bronch before extubate
   - Hct drop 3 points over 2 days (23.7->22.2->20.7), NG residuals were
   guiac+
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-2**] 07:50 PM
   Linezolid - [**2102-3-2**] 07:58 PM
   Metronidazole - [**2102-3-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-2**] 07:58 PM
   Hydromorphone (Dilaudid) - [**2102-3-2**] 10:01 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-3**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-3**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 85 (76 - 96) bpm
   BP: 100/36(52) {96/28(46) - 133/72(80)} mmHg
   RR: 15 (10 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 83.5 kg
             Total In:
                                                                  3,599 mL
                                                                    489 mL
   PO:
             TF:
   IVF:
                                                                  2,010 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  2,302 mL
                                                                    600 mL
   Urine:
                                                                      2 mL
   NG:
                                                                  2,300 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  1,297 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (247 - 636) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.41/43/121/24/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Gen: Opens eyes to voice, seems to follow commands (opens mouth for
   suctioning, looks at speaker)
   HEENT: PERRLA
   Lungs: CTA
   CV: s1s2
   Ab: more taut, surgical wounds debrided, clean pink margin, packed
   Ext: trace edema
   TLD: L IJ, R tunneled line, getting TPN
   Labs / Radiology
   398 K/uL
   6.8 g/dL
   123 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   60 mg/dL
   100 mEq/L
   137 mEq/L
   20.7 %
   19.7 K/uL
        [image002.jpg]
                             [**2102-2-28**]  02:59 AM
                             [**2102-2-28**]  04:00 AM
                             [**2102-2-28**]  08:48 AM
                             [**2102-3-1**]  12:50 AM
                             [**2102-3-1**]  03:28 AM
                             [**2102-3-1**]  03:05 PM
                             [**2102-3-2**]  02:04 AM
                             [**2102-3-2**]  07:39 AM
                             [**2102-3-2**]  04:50 PM
                             [**2102-3-3**]  01:58 AM
   WBC
   25.8
   26.0
   17.1
   19.7
   Hct
   21.3
   18.4
   23.7
   22.2
   20.7
   Plt
   382
   456
   410
   398
   Cr
   2.5
   3.6
   2.5
   3.5
   TCO2
   28
   29
   30
   28
   Glucose
   96
   117
   88
   142
   123
   Other labs: PT / PTT / INR:14.2/31.7/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:15/29, Alk Phos / T Bili:199/0.7,
   Amylase / Lipase:362/65, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.8 mg/dL
   ERCP report:
   "The biliary stent was removed initially using a snare.
   The pancreatic stent was removed at the end of the procedure.
   A mild localized dilation and sludge was seen at the main duct with the
   CBD measuring 10 mm.  No large stones or structures were noted. A 7cm
   by 10FR Cotton [**Doctor Last Name 6355**] biliary stent was placed successfully.
   Limited examination of the stomach - The appearance of the stomach has
   improved since the last ERCP. Otherwise normal ercp to third part of
   the duodenum"
   - C Diff negative x 1
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring CVVH/HD -- was improving but now transferred
   back to ICU for tachypnea.
   [**Doctor First Name 91**]: trend WBC, LFTs
   - ID: continue current abx (Linezolid Flagyl Ceftriax
   # Low grade fevers/leukocytosis: Initial impression of possible hepatic
   abscess not corroborated by aspiration. Alk phos and lipase continue to
   be elevated but other abdominal labs unrevealing. Given recent
   procedures and stent placement, may be partially attributable to
   inflammation [**2-28**] foreign bodies.  Culture data only revealing for VRE
   bacteremia now s/p ~2 weeks ABx therapy. Leukocytosis improving, no
   fevers in last 24 hours
   - Wound care consult and Gen [**Doctor First Name **] eval of umbilical surgical incision
   currently does not look infected but concerning
   - Appreciate ID consult: Increased CTX frequency, CT sinus negative,
   UA/urine culture ordered
   - Gen [**Doctor First Name 91**] recommending ERCP, to be done today with pancreatic stent
   removal; will discuss patient case further with Dr. [**Last Name (STitle) 473**]
   - Trend LFT
s/pancreatic enzymes
   - C/w linezolid for VRE bacteremia, CTX/Flagyl for empiric intra-abd
   coverage
   # Respiratory distress/Secretions: Patient intubated, doing well on
   CPAP/pressure support and responsive. TTE unrevealing for RH strain.
   Etiology/source of secretions unclear. [**Name2 (NI) **] cultures/samples have grown
   organisms
   - Appreciate IP consult: No tappable fluid
   - Will consider extubation today but hold until repeat bronchscopy
   performed
   # ESRD on HD: Got HD yesterday.  Renal service following closely.
   - Appreciate Renal following: Will request IR to place tunneled RIJ for
   HD after ERCP completed today, given non-improving renal function
   - Discuss with Renal coordination of CT abd/pelvis with contrast given
   unclear etiology of infection and current hemodialysis dependent status
   - Monitor electrolytes
   - Renally dose medications
   - Daily weights
   # Anemia: Hct trending down to 18 from 33 upon admission. More acute
   drop since yesterday, which was concerning given IR procedure. No
   evidence of active bleeding and anemia labs suggestive of anemia of
   chronic disease, acute phase reaction and recent blood loss. Responded
   appropriately to two units pRBC yesterday and now stable
   - Guaiac all stool
   - T & S active
   - Trend coags (stable)
   # Psychiatric disease: Holding psych meds, per psychiatry
   - Will re-discuss with Psychiatry the possibility of re-starting
   non-SSRI medications given that currently all psych meds are being held
   to avoid serotonin syndrome on linezolid and patient
s mental status
   continues to be altered from baseline (interactive with family, minimal
   self-care
 since admission, has been minimally interactive)
   .
   #. COPD:
   - Bronchodilators
   # Drug rash - Rash on palms and soles resolved
   FEN: NPO
   PPX:
   -PBoots
   -Bowel regimen
   -PPI
   ACCESS: HD catheter
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-2**] 11:11 PM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-04 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2102-3-3**] 12:50 PM
 BLOOD CULTURED - At [**2102-3-3**] 11:00 PM
   - KUB- wet read with focal ileus in LLQ
   - GI was consulted-recommend not checking guaiac's on NG tube output.
   Regarding ileus, recommend holding narcotics (written for dilaudid).
   Also recommending CT scan if renal ok with contrast load
   - ID recs: repeat cultures (done), c/w CTX/flagyl, d/c linezolid,
   rescan chest/abd/pelvis with contrast CT for abdominal pain
   - Discussed desire for [**Doctor Last Name 1822**] abdominal imaging with nephrology. Chances
   are slim for renal recovery, and clinical condition should dictate
   whether or not to get contrast CT
   - IR made aware of need for tunneled line. They would prefer patient be
   afebrile x 48 hrs first. They can change out temp lines if current one
   is in for too long or thought to be contributing to fevers
   - linezolid was stopped
   - transfused 1 unit of RBCs
   - recultured
   - liver cx with entercoccus (sensitivities pending); ID still
   recommending stopping linezolid
   - had HD today
   - had bronch
   - intermittently tachypnic with abd distension o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-3**] 08:45 AM
   Metronidazole - [**2102-3-3**] 06:00 PM
   Ceftriaxone - [**2102-3-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-3**] 06:00 PM
   Pantoprazole (Protonix) - [**2102-3-3**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-4**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 84 (73 - 97) bpm
   BP: 106/33(51) {68/29(44) - 135/55(73)} mmHg
   RR: 35 (11 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 83.5 kg
    CVP: 2 (1 - 3)mmHg
   Total In:
                                                                  3,185 mL
                                                                    522 mL
   PO:
   TF:
   IVF:
                                                                  1,010 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  5,125 mL
                                                                    215 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  2,775 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 320 (280 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.45/38/147/28/3
   Ve: 11.1 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), Tachypnic, shallow breaths
   Abdominal: Soft, Distended, Tender:
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, Interaction difficult to assess
   Labs / Radiology
   377 K/uL
   7.5 g/dL
   109 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   37 mg/dL
   102 mEq/L
   139 mEq/L
   23.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2102-3-1**]  12:50 AM
                             [**2102-3-1**]  03:28 AM
                             [**2102-3-1**]  03:05 PM
                             [**2102-3-2**]  02:04 AM
                             [**2102-3-2**]  07:39 AM
                             [**2102-3-2**]  04:50 PM
                             [**2102-3-3**]  01:58 AM
                             [**2102-3-3**]  08:38 PM
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
   WBC
   26.0
   17.1
   19.7
   16.0
   Hct
   18.4
   23.7
   22.2
   20.7
   23.9
   23.1
   Plt
   [**Telephone/Fax (3) 11380**]77
   Cr
   3.6
   2.5
   3.5
   2.5
   TCO2
   29
   30
   28
   27
   Glucose
   88
   142
   123
   109
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:13/22, Alk Phos / T Bili:203/0.8,
   Amylase / Lipase:362/72, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: [**3-3**] CXR: No definite radiographic evidence of small-bowel
   obstruction.
   Focally dilated gas-filled small bowel loops in the left upper quadrant
   similar to seen on prior CT likely represent a focal ileus
   Microbiology: [**2-28**] Liver aspiration:    GRAM STAIN (Final [**2102-2-28**]):  NO
   POLYMORPHONUCLEAR LEUKOCYTES OR MICROORGANISMS SEEN.
      TISSUE (Preliminary):    ENTEROCOCCUS SP. Isolated from broth media
   only, INDICATING VERY LOW NUMBERS OF ORGANISMS. GRAM NEGATIVE ROD(S).
   Isolated from broth media only, INDICATING VERY LOW NUMBERS OF
   ORGANISMS.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring CVVH/HD -- was improving but then transferred
   back to ICU for tachypnea, growing GNRs and G+cocci from liver biopsy.
   # Bowel obstruction: Ileus vs mechanical obstruction. Finally had BM
   this morning, but continues to have soft distension and significant NG
   output. Tenderness difficult to evaluate given patient
s lack of clear
   communication. Today
s KUB appears mildly improved, with smaller bowel
   loops. Per GI, endoscopy not indicated at this time.
   - NPO
   - Hold narcotics or other constipating medications
   - Active T & S
   # Fevers/Leukocytosis: Infectious workup most recently revealing for
   VRE in hepatic aspiration. S/p 2+ weeks of fevers and elevated WBC
   count, multiple antibiotic therapy, although liver collection may
   represent walled off infection that antibiotics have not been reaching.
   Alternatively, there may be other sources of infection in the patient
   abdomen that were not picked up on the non-contrast study. In the
   setting of elevated lactate, clinical condition warrants further
   imaging.
   - Trend WBC, temperature
   - CT scan today with IV contrast to better evaluate for concurrent
   intra-abdominal processes, besides known liver lesion
   - trend WBC, LFTs
   - Continue Flagyl Ceftriax, restart linezolid
   # Tachypnea: Patient
s RR intermittently in the 40
s, but generally
   elevated overnight. ABG reasonably normal on ventilator. Bronch
   yesterday unrevealing for new acute processes. Possible anxiety
   component, but difficult to know for sure, as patient is minimally
   communicative. Family may be able to provide further input on patient
   mental status or attempts to communicate.
   - Likely
   # ESRD on HD: Last HD yesterday. Given ongoing need for HD and anuric
   status, there is increasing concern that kidneys may not recover. Foley
   pulled. Of note, IR prefers to wait until patient afebrile x 48 hrs
   before placing tunneled line.
   - Monitor electrolytes
   - Renally dose medications
   - Daily weights
   - If temp HD line suspected as source of infection, IR is available to
   replace with new temp line
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Psychiatric: Holding psych meds, per psychiatry. Could potentially be
   clouding clinical condition, by making it increasingly difficult to
   assess patient
s thoughts/responses
   - Will d/w psych restarting non-SSRIs while on Linezolid, or all psych
   meds if ID recs lead to D/c of Linezolid
   #. COPD:
   - Bronchodilators
   FEN: NPO
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-3-3**] 05:00 PM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Multi Lumen - [**2102-2-27**] 10:00 AM
   20 Gauge - [**2102-3-3**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-04 08:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2102-3-3**] 12:50 PM
 BLOOD CULTURED - At [**2102-3-3**] 11:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-3**] 08:45 AM
   Metronidazole - [**2102-3-3**] 06:00 PM
   Ceftriaxone - [**2102-3-3**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-3**] 06:00 PM
   Pantoprazole (Protonix) - [**2102-3-3**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-4**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 78 (73 - 97) bpm
   BP: 127/29(51) {68/29(44) - 135/55(73)} mmHg
   RR: 23 (11 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 83.5 kg
   CVP: 4 (1 - 4)mmHg
   Total In:
                                                                  3,185 mL
                                                                    657 mL
   PO:
   TF:
   IVF:
                                                                  1,010 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  5,125 mL
                                                                    215 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  2,775 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (280 - 460) mL
   PS : 8 cmH2O
   RR (Spontaneous): 38
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 113
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: 7.45/38/147/28/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   377 K/uL
   109 mg/dL
   2.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   37 mg/dL
   102 mEq/L
   139 mEq/L
   23.1 %
   16.0 K/uL
        [image002.jpg]
                             [**2102-3-1**]  12:50 AM
                             [**2102-3-1**]  03:28 AM
                             [**2102-3-1**]  03:05 PM
                             [**2102-3-2**]  02:04 AM
                             [**2102-3-2**]  07:39 AM
                             [**2102-3-2**]  04:50 PM
                             [**2102-3-3**]  01:58 AM
                             [**2102-3-3**]  08:38 PM
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
   WBC
   26.0
   17.1
   19.7
   16.0
   Hct
   18.4
   23.7
   22.2
   20.7
   23.9
   23.1
   Plt
   [**Telephone/Fax (3) 11380**]77
   Cr
   3.6
   2.5
   3.5
   2.5
   TCO2
   29
   30
   28
   27
   Glucose
   88
   142
   123
   109
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:13/22, Alk Phos / T Bili:203/0.8,
   Amylase / Lipase:362/72, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:6.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-3-3**] 05:00 PM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Multi Lumen - [**2102-2-27**] 10:00 AM
   20 Gauge - [**2102-3-3**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2102-03-05 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Enterococcus, GNR from liver lesion sensitive to Linezolid, which was
   restarted per ID recs
   - CT abd/pelvis w/ con done after Mucomyst/Bicarb: Concerning for
   appendicitis and mid/lower abdominal ischemic bowel (infxn vs. poor
   perfusion); liver abscess still present. Called Transplant Surgery who
   will do serial abd exams overnight. Any concerns of fevers/hypotension,
   increasing lactate and Surgery should be updated emergently.
   - Can not tunnel line until afebrile; may change temp line if no other
   sources for infection found
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-4**] 08:00 PM
   Linezolid - [**2102-3-5**] 12:00 AM
   Metronidazole - [**2102-3-5**] 01:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-4**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-5**] 01:12 AM
   Hydromorphone (Dilaudid) - [**2102-3-5**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-5**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 78 (75 - 97) bpm
   BP: 102/42(56) {78/29(45) - 141/68(77)} mmHg
   RR: 19 (13 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 83.5 kg
    CVP: 7 (-3 - 7)mmHg
   Total In:
                                                                  4,414 mL
                                                                  1,039 mL
   PO:
   TF:
   IVF:
                                                                  1,711 mL
                                                                    458 mL
   Blood products:
                                                                    191 mL
   Total out:
                                                                  1,215 mL
                                                                    900 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,200 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  3,199 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.45/38/147/28/3
   Ve: 11.7 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, Distended, Hypoactive bowel sounds
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   286 K/uL
   7.0 g/dL
   127 mg/dL
   3.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   52 mg/dL
   99 mEq/L
   137 mEq/L
   20.3 %
   10.5 K/uL
        [image002.jpg]
   Blood cultures X4 NGTD
   Urine culture X1 NGTD
   Lactate 2.9
 2.3
 1.9
 2.0
                             [**2102-3-1**]  03:05 PM
                             [**2102-3-2**]  02:04 AM
                             [**2102-3-2**]  07:39 AM
                             [**2102-3-2**]  04:50 PM
                             [**2102-3-3**]  01:58 AM
                             [**2102-3-3**]  08:38 PM
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
                             [**2102-3-4**]  04:59 PM
                             [**2102-3-5**]  03:28 AM
   WBC
   17.1
   19.7
   16.0
   11.7
   10.5
   Hct
   23.7
   22.2
   20.7
   23.9
   23.1
   21.7
   20.3
   Plt
   [**Telephone/Fax (3) 11395**]44
   286
   Cr
   2.5
   3.5
   2.5
   3.4
   TCO2
   30
   28
   27
   Glucose
   142
   123
   109
   127
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:13/22, Alk Phos / T Bili:203/0.8,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring CVVH/HD -- was improving but then transferred
   back to ICU for tachypnea, growing GNRs and G+cocci from liver biopsy.
   # Abdominal distension/ischemic colitis and appendicitis on CT: * Pt
   continues to have small amounts of stool, continues with soft
   distension and significant NG output; per GI, endoscopy not indicated
   currently - per CT, concern for ischemic bowel but transplant surgery
   aware/reviewed films and are following (no plans for surgical
   intervention for now)
   - Transfused 2 units pRBC this morning for ongoing downward trend of
   Hct; post-transfusion Hct ordered (guaiac positive)
   - NPO, started TPN yesterday
   - Serial abdominal exams
   - Hold narcotics or other constipating medications
   # Fevers/Leukocytosis: Infectious workup most recently revealing for
   VRE in hepatic aspiration. S/p 2+ weeks of fevers and elevated WBC
   count, multiple antibiotic therapy, although liver collection may
   represent walled off infection that antibiotics have not been reaching.
   Alternatively, there may be other sources of infection in the patient
   abdomen that were not picked up on the non-contrast study.
   * CT abd/pelvis showed on-going liver abscess, appendicitis and concern
   for ischemic bowel (mid/lower abdomen), WBC and fever trend improving
   though
   - Trend WBC, fever curve, LFTs
   - Appreciate ID recs: continue Flagyl Ceftriaxone, restarted linezolid;
   if clinically worsens, will broaden to Meropenem. Per Renal this AM,
   had decreased CTX to q24h given bump in creatinine. Will touch base
   with ID regarding this. Repeat CDiff sample sent.
   - Follow-up Transplant Surgery recs
   - Consider repeat liver abscess drainage
   # Tachypnea: Patient
s RR intermittently in the 40
s, but generally
   stable in the 20s. ABG reasonably normal on ventilator. Bronch
   unrevealing for new acute processes. Possible anxiety component, but
   difficult to know for sure, as patient is minimally communicative. Per
   family, prior to current admission for abdominal pain, patient was
   interactive although not actively involved in her own medical care
   - Given blood transfusions, anuric and +3L in last 24 hours, will hold
   on extubating until after hemodialysis tomorrow
   - Given RISBI 103 today, will likely do well with extubation
   # ESRD on HD: Given ongoing need for HD and anuric status, Renal feels
   that patient
s kidneys will not recover. Foley pulled. Of note, IR
   prefers to wait until patient afebrile x 48 hrs before placing tunneled
   line.
   * Next HD session on Monday, Cr bumped from 2.5
 3.4 likely partly due
   to IV con with CT abd/pelvis (prepped w/ Mucomyst/Bicarb) and ongoing
   renal disease
   - Monitor electrolytes
   - Renally dose medications  (check on CTX dosing)
   - Daily weights
   - If temp HD line suspected as source of infection, IR is available to
   replace with new temp line
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Psychiatric: Holding psych meds, per psychiatry. Could potentially be
   clouding clinical condition, by making it increasingly difficult to
   assess patient
s thoughts/responses. Per patient
s family, however,
   patient would be psychotic not dystonic/less responsive when not taking
   her psych meds
   - Will d/w psych restarting non-SSRIs while on Linezolid
   #. COPD:
   - Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-3-4**] 10:53 PM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Multi Lumen - [**2102-2-27**] 10:00 AM
   20 Gauge - [**2102-3-3**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-05 08:19:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-4**] 08:00 PM
   Linezolid - [**2102-3-5**] 12:00 AM
   Metronidazole - [**2102-3-5**] 01:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-4**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-5**] 01:12 AM
   Hydromorphone (Dilaudid) - [**2102-3-5**] 02:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-5**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.8
   HR: 84 (75 - 97) bpm
   BP: 116/49(65) {78/32(45) - 141/68(77)} mmHg
   RR: 14 (13 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.5 kg (admission): 83.5 kg
   CVP: 7 (-3 - 7)mmHg
   Total In:
                                                                  4,414 mL
                                                                  1,570 mL
   PO:
   TF:
   IVF:
                                                                  1,711 mL
                                                                    483 mL
   Blood products:
                                                                    533 mL
   Total out:
                                                                  1,215 mL
                                                                    900 mL
   Urine:
                                                                     15 mL
   NG:
                                                                  1,200 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  3,199 mL
                                                                    670 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 300 (300 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.38/45/123/28/1
   Ve: 9.9 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.0 g/dL
   286 K/uL
   127 mg/dL
   3.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   52 mg/dL
   99 mEq/L
   137 mEq/L
   20.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2102-3-2**]  02:04 AM
                             [**2102-3-2**]  07:39 AM
                             [**2102-3-2**]  04:50 PM
                             [**2102-3-3**]  01:58 AM
                             [**2102-3-3**]  08:38 PM
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
                             [**2102-3-4**]  04:59 PM
                             [**2102-3-5**]  03:28 AM
                             [**2102-3-5**]  07:58 AM
   WBC
   17.1
   19.7
   16.0
   11.7
   10.5
   Hct
   22.2
   20.7
   23.9
   23.1
   21.7
   20.3
   Plt
   [**Telephone/Fax (3) 11395**]44
   286
   Cr
   2.5
   3.5
   2.5
   3.4
   TCO2
   30
   28
   27
   28
   Glucose
   142
   123
   109
   127
   Other labs: PT / PTT / INR:14.0/28.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**11-15**], Alk Phos / T Bili:181/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-3-4**] 10:53 PM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-2-27**] 10:00 AM
   Multi Lumen - [**2102-2-27**] 10:00 AM
   20 Gauge - [**2102-3-3**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2102-03-06 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2102-3-5**] 11:43 AM
 DIALYSIS CATHETER - START [**2102-3-5**] 12:00 PM
   - plan for ? extubation tomorrow after HD, had wanted to try today, but
   very volume up
   - Spell of tachypnea to 50s at 17:00, good tidal volumes, sats.
   Happened once before o/n, resolved with analgesia. CXR normal, ABG
   7.41/41/108, Dilaudid 0.25 mg. Spell resolved on its own after 20-30
   mins
   - Foley placed though making little urine
   - f/u U/A
   - [**Doctor First Name 91**] recs: continue abx, serial ab exams, trend lactate
   - ID recs: check C Diff, change Flagyl to 500 q12, if she deteriorates
   add Meropenem
   - renal recs: change catheter on Monday at IR
   - patient making eye contact, tracking well this evening. Per family
   she cries often when they enter room. Her altered MS could be profound
   depression masking as dementia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-5**] 07:56 PM
   Linezolid - [**2102-3-5**] 11:23 PM
   Metronidazole - [**2102-3-6**] 04:43 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-5**] 07:56 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-5**] 11:24 PM
   Hydromorphone (Dilaudid) - [**2102-3-6**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-6**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 85 (74 - 98) bpm
   BP: 111/43(58) {98/36(54) - 131/68(82)} mmHg
   RR: 30 (12 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92 kg (admission): 83.5 kg
    CVP: 10 (8 - 17)mmHg
   Total In:
                                                                  3,722 mL
                                                                    619 mL
   PO:
   TF:
   IVF:
                                                                  1,341 mL
                                                                    136 mL
   Blood products:
                                                                    568 mL
   Total out:
                                                                  1,835 mL
                                                                    700 mL
   Urine:
                                                                     20 mL
   NG:
                                                                  1,775 mL
                                                                    700 mL
   Stool:
                                                             Small amounts
   Drains:
   Balance:
                                                                  1,887 mL
                                                                    -81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 609 (265 - 674) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.41/41/108/23/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: noxious stimuli with facial grimaces but not
   withdrawing extremities, tracks with eyes to verbal stimuli
   Abdomen: Softly distended, slightly improved from yesterday. +BS
   Labs / Radiology
   243 K/uL
   8.2 g/dL
   138 mg/dL
   4.1 mg/dL
   23 mEq/L
   3.5 mEq/L
   69 mg/dL
   98 mEq/L
   133 mEq/L
   24.6 %
   8.5 K/uL
        [image002.jpg]
   Lactate 2.0
 1.7
 1.7
   Urine Cx: GNR ~[**2092**]/cc
   Cdiff: Pending
   BCx X3 NGTD
                             [**2102-3-3**]  08:38 PM
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
                             [**2102-3-4**]  04:59 PM
                             [**2102-3-5**]  03:28 AM
                             [**2102-3-5**]  07:58 AM
                             [**2102-3-5**]  11:24 AM
                             [**2102-3-5**]  03:01 PM
                             [**2102-3-5**]  05:25 PM
                             [**2102-3-6**]  02:52 AM
   WBC
   16.0
   11.7
   10.5
   8.5
   Hct
   23.9
   23.1
   21.7
   20.3
   25.9
   24.6
   Plt
   377
   344
   286
   243
   Cr
   2.5
   3.4
   3.8
   4.1
   TCO2
   27
   28
   27
   Glucose
   109
   127
   138
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**10-20**], Alk Phos / T Bili:202/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring CVVH/HD -- was improving but then transferred
   back to ICU for tachypnea, growing GNRs and G+cocci from liver biopsy.
   # Abdominal distension/ischemic colitis and appendicitis on CT: * Pt
   continues to have small amounts of stool, continues with soft
   distension and significant NG output; per GI, endoscopy not indicated
   currently - per CT, concern for ischemic bowel but transplant surgery
   aware/reviewed films and are following (no plans for surgical
   intervention for now). No longer guaiac positive.
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   # Fevers/Leukocytosis: Infectious workup most recently revealing for
   VRE in hepatic aspiration. S/p 2+ weeks of fevers and elevated WBC
   count, multiple antibiotic therapy, although liver collection may
   represent walled off infection that antibiotics have not been reaching.
   Alternatively, there may be other sources of infection in the patient
   abdomen that were not picked up on the non-contrast study.
   * CT abd/pelvis showed on-going liver abscess, appendicitis and concern
   for ischemic bowel (mid/lower abdomen), WBC and fever trend improving
   though
   - Trend WBC, fever curve, LFTs
   - Appreciate ID recs: continue Flagyl Ceftriaxone, restarted linezolid;
   if clinically worsens, will broaden to Meropenem. Per Renal this AM,
   had decreased CTX to q24h given bump in creatinine. Will touch base
   with ID regarding this. Repeat CDiff sample sent.
   # Tachypnea: Patient
s RR intermittently in the 40
s, but generally
   stable in the 20s. Did have an episode of tachypnea to the 50s
   yesterday that responded to dilaudid - ?anxiety, depression, pain? ABG
   reasonably normal on ventilator. Bronch unrevealing for new acute
   processes. Possible anxiety component, but difficult to know for sure,
   as patient is minimally communicative. Per family, prior to current
   admission for abdominal pain, patient was interactive although not
   actively involved in her own medical care
   - Given RISBI 103 today, will consider extubation after hemodialysis
   today
   - Continue to manage/monitor pain
   - Touch  base with psychiatry again today re: possibility of restarting
   psych medications
   # ESRD on HD: Given ongoing need for HD and anuric status, Renal feels
   that patient
s kidneys will not recover. Foley pulled. Of note, IR
   prefers to wait until patient afebrile x 48 hrs before placing tunneled
   line.
   * Next HD session on Monday, Cr bumped from 2.5
 3.4 likely partly due
   to IV con with CT abd/pelvis (prepped w/ Mucomyst/Bicarb) and ongoing
   renal disease
   - Will order for tunneled HD line today
   - Monitor electrolytes
   - Renally dose medications
   - Daily weights
   - If temp HD line suspected as source of infection, IR is available to
   replace with new temp line
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Psychiatric: Holding psych meds, per psychiatry. Could potentially be
   clouding clinical condition, by making it increasingly difficult to
   assess patient
s thoughts/responses. Per patient
s family, however,
   patient would be psychotic not dystonic/less responsive when not taking
   her psych meds
   - Will d/w psych restarting non-SSRIs while on Linezolid
   #. COPD:
   - Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN without Lipids - [**2102-3-6**] 04:46 AM 66.[**Telephone/Fax (5) 2666**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-3-5**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-07 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - HD: 3 liters off [**3-6**]
   - Persistently elevated lactate (2.7 this AM, yesterday), NG residuals,
   no stool
   - SBT this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-6**] 11:39 PM
   Ceftriaxone - [**2102-3-7**] 04:00 AM
   Metronidazole - [**2102-3-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-6**] 07:51 PM
   Lorazepam (Ativan) - [**2102-3-6**] 09:23 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-6**] 11:40 PM
   Hydromorphone (Dilaudid) - [**2102-3-6**] 11:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-7**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 97 (71 - 104) bpm
   BP: 112/37(54) {106/36(54) - 148/81(87)} mmHg
   RR: 19 (13 - 48) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.2 kg (admission): 83.5 kg
    CVP: 7 (0 - 11)mmHg
   Total In:
                                                                  2,687 mL
                                                                    644 mL
   PO:
   TF:
   IVF:
                                                                  1,090 mL
                                                                    184 mL
   Blood products:
   Total out:
                                                                  5,260 mL
                                                                    560 mL
   Urine:
                                                                     10 mL
                                                                     10 mL
   NG:
                                                                  2,250 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,573 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 701 (16 - 701) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///24/
   NIF: -15 cmH2O
   Ve: 8.2 L/min
   Physical Examination
   Gen: Awake, tracking with eyes but non-interactive. Intubated,
   non-sedated.
   CV: S1 S2
   Lungs: CTA, somewhat coarse BS
   Ab: soft, apparently NT, mildly distended
   Labs / Radiology
   194 K/uL
   8.5 g/dL
   143 mg/dL
   3.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   46 mg/dL
   102 mEq/L
   140 mEq/L
   25.8 %
   10.0 K/uL
        [image002.jpg]
   LFTs, H/H stably at b/l
                             [**2102-3-4**]  03:01 AM
                             [**2102-3-4**]  06:02 AM
                             [**2102-3-4**]  04:59 PM
                             [**2102-3-5**]  03:28 AM
                             [**2102-3-5**]  07:58 AM
                             [**2102-3-5**]  11:24 AM
                             [**2102-3-5**]  03:01 PM
                             [**2102-3-5**]  05:25 PM
                             [**2102-3-6**]  02:52 AM
                             [**2102-3-7**]  02:12 AM
   WBC
   16.0
   11.7
   10.5
   8.5
   10.0
   Hct
   23.1
   21.7
   20.3
   25.9
   24.6
   25.8
   Plt
   377
   344
   286
   243
   194
   Cr
   2.5
   3.4
   3.8
   4.1
   3.0
   TCO2
   27
   28
   27
   Glucose
   109
   127
   138
   143
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**12-25**], Alk Phos / T Bili:287/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.7 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   CT abdomen/pelvis [**3-4**]:
   1. Abnormal bowel in the mid to lower abdomen with associated
   mesenteric
   edema is worrisome for ischemic bowel and may be secondary to poor
   perfusion
   or infectious etiologies. The proximal aspects of the SMA are grossly
   patent.
   2. Dilated fluid filled appendix likely reflecting appendicitis in the
   proper
   clinical context unchanged compared to most recent CT.
   3. Stable intrahepatic abscess with focus of air.
   4. Unchanged fluid within the gallbladder fossa tracking in a
   subcapsular
   location along the posterior inferior right hepatic lobe for which
   biliary
   leakage cannot be excluded given the recent cholecystectomy.
   KUB [**3-6**]: Unread but no air-fluid levels
   CXR [**3-7**]: LLL loss of hemidiaphragm
   Urine cx [**3-4**]: ~2,000 GNRs
   Cdiff negative x 2 now
   Assessment and Plan
   68 yo female with CAD, bipolar s/p chole and ERCP, course c/b sepsis
   requiring intubation and pressors, VRE bacteremia, renal failure
   requiring HD -- was improving then transferred to ICU for tachypnea,
   GNRs and G+cocci from liver biopsy.
   # Abdominal distention: Persistently elevated lactate (1.7 [**3-5**]-> 2.7
   [**3-6**], 2.7 this am), NGT putting out ~2L past 24 hours, no/very little
   stool, NPO on TPN. CT 3 days ago read as concerning for appy/ischemic
   bowel, surgery reviewed films and was less impressed. KUB [**3-6**]: no air
   fluid levels, constipation
   - NPO, continue TPN
   - NGT to suction, clamp trial
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   - Touch base w/surgery
# VRE bacteremia: Very low numbers of VRE isolated from broth medium for liver t
issue bx [**2-28**]. Urine cx [**3-4**] +for GNRs. (~[**2092**]/mL). CT noted stable hepatic focus
of air above hepatic abscess. Afebrile for 3 days, WBC trended down, lactate ele
vated for 2 days but has been this high lactate frequently in recent past. On Fl
agyl (day 19/? ), CTX (day 16/? ), restarted Linezolid (day 15/?)
   - If clinically worsens, will broaden to Meropenem
   - Touch base w/transplant surgery re this liver abscess, does it not
   need drained to resolve?
   - F/u urine cx
   - f/u ID recs
   - surveillance cultures
   # Respiratory status: Has had spells of tachypnea to 50s that
   self-resolve. RISBI [**Age over 90 **] yesterday. 7.35/46/146/26. CXR shows LLL
   derecruited.
   - SBT this AM
   - Extubate if that goes well
   # Altered MS: Patient remains non-interactive, which not her b/l.
   Likely represents depression masking as dementia, as family states she
   [**Doctor Last Name **] up with tears for them. Psych continues to advise no home meds.
   Per family, without her meds patient if symptomatic would be psychotic
   not less responsive; but ICU a new experience for patient. Received
   single doses of Haldol and Ativan o/n for apparent anxiety component of
   tachypnea--RR seems to increase when family members visit
but [**Male First Name (un) **]
   seem to do much.
   - Haldol prn
   # ESRD on HD: HD yesterday with 3 L off. Renal feels that patient
   kidneys will not recover. IR prefers to wait until patient afebrile x
   48 hrs before placing tunneled line. Afebrile (low-grade fever) 3 days
   now (since 0800 [**3-4**])
   * IR tunnelled line: call first thing today
   * Monitor electrolytes
   * Renally dose medications
   * Daily weights
   * Consider pulling existing line to give a line holiday, clear way for
   IR
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   #. COPD:
   - Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACT:
   Health [**Name2 (NI) 151**] Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-6**] 04:45 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-3-5**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: 68F with bipolar, s/p chole and ercp for
   cholangitis c/b vre sepsis, ARF on HD transferred back to ICU with resp
   failure and polymicrobial liver abscess s/p IR drainage.  Continues to
   have sig NG output, ileus.  Remains intubated on SBT this am.
   100.2  100  130/50   13  98% PS 10/5 (40%)
   awake, minimally responsive, but able to follow some simple commands
   CTA with decreased basilar BS
   RR
   soft NT decreased BS distended
   edema dependent
   7.35/46/146, WBC 10K, HCT 26, K+ 3.5 , Cr 3.0, lactate 2.7
   cxr with lll atelectasis increased from yesterday
   Fever curve improved and with normalization of wbcs.  She remains HD
   stable. Doing well on SBT but with increased LLL collapse on cxr.  Will
   perform chest PT, continue mdis, recruitement man and reassess for
   possible extubation.  Con't broad antibx for polymicrobial / vre
   abscess and bacteremia with ID following  Need to clarify length of
   course. Send survellience cxs.  Surgery is following.  At this point
   nothing is pushing for re-exploration but remain concerned she has
   abscesses that are not fully drained with ongoing infectious nedis. She
   continues to have significant ileus and high NGT outpt.  Will hold on
   TFs, increase bowel regimen and initiate suppository, following abd
   exam and kub.  Fluid off with HD yesterday but remains up from admit.
   Unlikely that kidneys will recover.  Will d/w IR r tunnel line
   placement for longterm HD as now AF X several days. Continue to follow
   lactate level and AG--which is trending down--  ? [**2-28**] low grade
   infection, med related (linezolid).  Her MS remains altered.
   Depression psych med withdrawal delirium in ddx.  Will ask for pysch
   input regarding pysch meds given interactions with linezolid.  ICU:
   full code, PPI, sq hep.  Remainder of plan as outlined in resident
   note.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2102-3-7**] 15:23 ------
   Addendum
   Extubated successfully.  Doing well, appears comfortable, O2 sats
   98-99% NC. More alert and conversant. Good cough.
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2102-3-7**] 16:38 ------

2102-03-08 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-3-7**] 12:47 PM
   surveillance blood cx sent x2 sets
 INVASIVE VENTILATION - STOP [**2102-3-7**] 03:10 PM
   - Extubated without issues this afternoon; less upper extremity
   clenching now, slept comfortably ON
   - Renal would like temp line change; plan on HD tomorrow, then pull for
   line holiday
   - Surgery/ID: Recs left, no new suggestions besides broadening to
   meropenem if decompensates, no plan for further liver aspiration
   - Lactate: 2.7, 2.4, 2.3, 2.2
   - 2+ medium bowel movements today with all bowel regimen standing, and
   bisacodyl PR
   - More tachycardic and tachypnic this morning with desats to 80's,
   somewhat relieved by suctioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-8**] 12:06 AM
   Ceftriaxone - [**2102-3-8**] 03:58 AM
   Metronidazole - [**2102-3-8**] 04:20 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2102-3-7**] 08:43 AM
   Pantoprazole (Protonix) - [**2102-3-7**] 08:32 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-8**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-8**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.5
   HR: 103 (91 - 114) bpm
   BP: 95/44(58) {95/44(58) - 170/79(99)} mmHg
   RR: 19 (15 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 88.2 kg (admission): 83.5 kg
    CVP: 0 (-6 - 8)mmHg
   Total In:
                                                                  2,541 mL
                                                                    958 mL
   PO:
   TF:
   IVF:
                                                                    940 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    767 mL
   Urine:
                                                                     30 mL
                                                                     17 mL
   NG:
                                                                  1,450 mL
                                                                    750 mL
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 236 (236 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 41
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Nontender
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   169 K/uL
   8.8 g/dL
   126 mg/dL
   4.2 mg/dL
   21 mEq/L
   4.4 mEq/L
   64 mg/dL
   105 mEq/L
   139 mEq/L
   26.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2102-3-5**]  03:28 AM
                             [**2102-3-5**]  07:58 AM
                             [**2102-3-5**]  11:24 AM
                             [**2102-3-5**]  03:01 PM
                             [**2102-3-5**]  05:25 PM
                             [**2102-3-6**]  02:52 AM
                             [**2102-3-7**]  02:12 AM
                             [**2102-3-7**]  09:29 AM
                             [**2102-3-7**]  03:41 PM
                             [**2102-3-8**]  02:07 AM
   WBC
   10.5
   8.5
   10.0
   11.2
   Hct
   20.3
   25.9
   24.6
   25.8
   26.2
   Plt
   286
   243
   194
   169
   Cr
   3.4
   3.8
   4.1
   3.0
   4.2
   TCO2
   28
   27
   Glucose
   127
   138
   143
   101
   120
   126
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**12-25**], Alk Phos / T Bili:287/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.2 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Imaging: [**3-7**] CXR: As compared to the previous examination, there is an
   elevation of
   the left hemidiaphragm. In addition, a left-sided pleural effusion has
   newly
   occurred. The effusion leads to retrocardiac atelectasis which has
   clearly increased since the previous exam. Overall, the size of the
   cardiac
   silhouette seems slightly enlarged.
   In the remaining left lung and in the right lung there is no evidence
   of
   interval recurrence of new focal parenchymal opacities. No evidence of
   overhydration, no right-sided pleural effusion (the right lateral parts
   of the
   hemithorax are missing on today's image).
   Microbiology: [**3-5**], [**3-7**] C. Diff: Negative
   [**3-4**], [**3-5**], [**3-7**] BCx: pending
   [**3-6**] UCx: Yeast > 100K
   [**2-28**] Liver aspirate: +VRE
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   68 yo female with CAD, bipolar s/p chole and ERCP, course c/b sepsis
   requiring intubation and pressors, VRE bacteremia, renal failure
   requiring HD -- was improving then transferred to ICU for tachypnea,
   GNRs and G+cocci from liver biopsy.
   # Abdominal distention: Persistently elevated lactate (1.7 [**3-5**]-> 2.7
   [**3-6**], 2.7 this am), NGT putting out ~2L past 24 hours, no/very little
   stool, NPO on TPN. CT 3 days ago read as concerning for appy/ischemic
   bowel, surgery reviewed films and was less impressed. KUB [**3-6**]: no air
   fluid levels, constipation
   - NPO, continue TPN
   - NGT to suction, clamp trial
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   - Touch base w/surgery
   # VRE bacteremia: Very low numbers of VRE isolated from broth medium
   for liver tissue bx [**2-28**]. Urine cx [**3-4**] +for GNRs. (~[**2092**]/mL). CT noted
   stable hepatic focus of air above hepatic abscess. Afebrile for 3 days,
   WBC trended down, lactate elevated for 2 days but has been this high
   lactate frequently in recent past. On Flagyl (day 19/? ), CTX (day 16/?
   ), restarted Linezolid (day 15/?)
   - If clinically worsens, will broaden to Meropenem
   - Touch base w/transplant surgery re this liver abscess, does it not
   need drained to resolve?
   - F/u urine cx
   - f/u ID recs
   - surveillance cultures
   # Respiratory status: Has had spells of tachypnea to 50s that
   self-resolve. RISBI [**Age over 90 **] yesterday. 7.35/46/146/26. CXR shows LLL
   derecruited.
   - SBT this AM
   - Extubate if that goes well
   # Altered MS: Patient remains non-interactive, which not her b/l.
   Likely represents depression masking as dementia, as family states she
   [**Doctor Last Name **] up with tears for them. Psych continues to advise no home meds.
   Per family, without her meds patient if symptomatic would be psychotic
   not less responsive; but ICU a new experience for patient. Received
   single doses of Haldol and Ativan o/n for apparent anxiety component of
   tachypnea--RR seems to increase when family members visit
but [**Male First Name (un) **]
   seem to do much.
   - Haldol prn
   # ESRD on HD: HD yesterday with 3 L off. Renal feels that patient
   kidneys will not recover. IR prefers to wait until patient afebrile x
   48 hrs before placing tunneled line. Afebrile (low-grade fever) 3 days
   now (since 0800 [**3-4**])
   * IR tunnelled line: call first thing today
   * Monitor electrolytes
   * Renally dose medications
   * Daily weights
   * Consider pulling existing line to give a line holiday, clear way for
   IR
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   #. COPD:
   - Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**].
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-7**] 04:43 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Dialysis Catheter - [**2102-3-5**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-09 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2102-3-8**] 06:12 PM
 MULTI LUMEN - STOP [**2102-3-9**] 05:06 AM
   - Bronch'd to assess vocal cords / stridor
   - stridor self-resolved (did not get racemic epi)
   - Had HD today, after which line pulled
   - Catheter tip sent for culture
   - IR to place tunneled HD line Friday
   - lactate 2.0 (before HD), 3.7 (after), 3.8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-8**] 11:49 PM
   Metronidazole - [**2102-3-9**] 03:23 AM
   Ceftriaxone - [**2102-3-9**] 04:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-9**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2102-3-9**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 98 (90 - 114) bpm
   BP: 128/55(81) {121/47(71) - 171/83(115)} mmHg
   RR: 19 (17 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 83.5 kg
    CVP: 12 (1 - 12)mmHg
   Total In:
                                                                  3,081 mL
                                                                    659 mL
   PO:
   TF:
   IVF:
                                                                  1,440 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  4,142 mL
                                                                    615 mL
   Urine:
                                                                     42 mL
                                                                     15 mL
   NG:
                                                                  1,400 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,061 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.45/34/173/24/0
   PaO2 / FiO2: 346
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   No stridor
   Abdominal: Soft, Bowel sounds present, Tender: Mild tenderness to
   palpation
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   166 K/uL
   8.1 g/dL
   137 mg/dL
   2.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   39 mg/dL
   105 mEq/L
   141 mEq/L
   24.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2102-3-6**]  02:52 AM
                             [**2102-3-7**]  02:12 AM
                             [**2102-3-7**]  09:29 AM
                             [**2102-3-7**]  03:41 PM
                             [**2102-3-8**]  02:07 AM
                             [**2102-3-8**]  07:49 AM
                             [**2102-3-8**]  10:06 AM
                             [**2102-3-8**]  05:37 PM
                             [**2102-3-8**]  08:00 PM
                             [**2102-3-9**]  02:57 AM
   WBC
   8.5
   10.0
   11.2
   11.6
   Hct
   24.6
   25.8
   26.2
   24.0
   Plt
   243
   194
   169
   166
   Cr
   4.1
   3.0
   4.2
   2.9
   TCO2
   20
   20
   25
   24
   Glucose
   138
   143
   101
   120
   126
   139
   130
   106
   137
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**12-25**], Alk Phos / T Bili:287/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.8 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: [**3-8**] CXR: Left lower lobe aeration has improved. The
   cardiomediastinum is shifted towards the left side. If any, there is a
   small left pleural effusion. NG tube tip is out of view below the
   diaphragm. There is no evident pneumothorax. Left IJ catheter remains
   in place.
   Microbiology: [**2-28**] Liver aspirate: VRE
   Assessment and Plan
   68 yo female with CAD, bipolar s/p chole and ERCP, course c/b sepsis
   requiring intubation and pressors, VRE bacteremia, renal failure
   requiring HD -- was improving then transferred to ICU for tachypnea,
   GNRs and G+cocci from liver biopsy.
   # Abdominal distention: Soft and nontender today. Lactate trending down
   to normal. Continues to have NGT output, but patient is having bowel
   movements. Surgery aware of CT findings. KUB [**3-6**]: no air fluid levels,
   constipation
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   - Low threshold to re-CT abdomen/pelvis if condition worsens (fevers,
   abd tenderness, worsening lactate/WBC), given known intra-abdominal
   processes on prior scan
   # Liver abscess/clot: Very low numbers of VRE isolated from broth
   medium for liver tissue bx [**2-28**]. On Flagyl, ceftriaxone Linezolid
   - If clinically worsens, will broaden to Meropenem
   - F/u with surgery re: need for repeat drainage
   - f/u ID recs; specifically clarify duration of linezolid therapy
   - surveillance cultures
   # Respiratory status: Now extubated, continues to have tachypnic spells
   with good ABG
s. Tachypnea may be at least partially attributable to
   anxiety. CXR shows stable opacity over LLL. Has loud upper airway
   sounds with inspiration today; concerning for upper airway injury from
   multiple intubations
   - Follow ABGs
   - Change MDI to nebs
   - Trial of racemic epi and humidified oxygen, for apparent upper airway
   obstruction
   # Altered MS: Post-extubation, patient is answering questions, making
   intermittent eye contact, and showing good understanding and
   orientation. Psych continues to advise no home psych meds. Per family,
   without her meds patient if symptomatic would be psychotic not less
   responsive; but ICU a new experience for patient.
   - Monitor mental status
   - continue to touch base with psych re: re-initiation of medications,
   will re-visit when linezolid therapy complete
   # ESRD on HD: Will have HD today
   - Remove HD line after HD session today, line holiday tomorrow
   - IR will re-place HD line (temp vs tunneled) on Friday [**3-10**]
   - Renally dose medications
   - Daily weights
   # Anemia:
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Skin breakdown: C/w lotrizone cream, per wound care recs
   #. COPD:
   - Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-8**] 04:41 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2102-3-8**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-10 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2102-3-9**] 09:10 PM
   - [**Known lastname 11503**] next CXR needs to say "to rule out TB" in order text, to meet
   demand of chronic HD units for dedicated CXR (ordered it thus for [**3-10**]
   am)
   - PPD and hepatitis serologies ordered for chronic HD eligibility
   - Pt starting EPO with HD
   - ID recs: c/w linezolid through [**3-14**], c/w flagyl indefinitely for
   ongoing intra-abd processes, monitor lactate
   - [**Doctor First Name 91**] recs: consider trial of capping NG tube
   - Confirmed IR planning on HD line tomorrow. If afebrile, will do
   tunneled line
   - GI recs: re-scan, stop NG suction
   - Discussed situation with psych again. They firmly believe that
   patient is not psychotic, and that invega is of no benefit to her at
   this point. They actually believe it may cause harm b/c of her renal
   function. If anything, she's depressed, but cannot use SSRI until off
   linezolid
   - miconazole cream started for apparent intertrigo in groin/buttocks
   - Lactate 2.2 at 12:30 pm
   - Foley came out, not re-placing for now given trying to keep afebrile
   for line placement tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-10**] 01:00 AM
   Ceftriaxone - [**2102-3-10**] 03:30 AM
   Metronidazole - [**2102-3-10**] 04:09 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-9**] 04:04 PM
   Lorazepam (Ativan) - [**2102-3-9**] 05:40 PM
   Pantoprazole (Protonix) - [**2102-3-9**] 07:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-10**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 96 (96 - 125) bpm
   BP: 150/62(95) {135/54(80) - 174/76(112)} mmHg
   RR: 12 (12 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 88.1 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 8 (1 - 16)mmHg
   Total In:
                                                                  2,441 mL
                                                                    975 mL
   PO:
   TF:
   IVF:
                                                                    840 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    650 mL
   Urine:
                                                                     35 mL
   NG:
                                                                  1,250 mL
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                    325 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.30/44/183/18/-4
   PaO2 / FiO2: 366
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm, Rash: buttocks, groin
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x3, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   176 K/uL
   7.8 g/dL
   148 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.1 mEq/L
   58 mg/dL
   105 mEq/L
   138 mEq/L
   23.6 %
   11.0 K/uL
        [image002.jpg]
                             [**2102-3-8**]  02:07 AM
                             [**2102-3-8**]  07:49 AM
                             [**2102-3-8**]  10:06 AM
                             [**2102-3-8**]  05:37 PM
                             [**2102-3-8**]  08:00 PM
                             [**2102-3-9**]  02:57 AM
                             [**2102-3-9**]  12:22 PM
                             [**2102-3-9**]  11:14 PM
                             [**2102-3-10**]  03:11 AM
                             [**2102-3-10**]  03:28 AM
   WBC
   11.2
   11.6
   11.0
   Hct
   26.2
   24.0
   23.6
   Plt
   169
   166
   176
   Cr
   4.2
   2.9
   3.6
   TCO2
   20
   20
   25
   24
   23
   21
   23
   Glucose
   126
   139
   130
   106
   137
   148
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:[**12-25**], Alk Phos / T Bili:287/0.6,
   Amylase / Lipase:362/72, Differential-Neuts:83.6 %, Band:0.0 %,
   Lymph:11.1 %, Mono:4.6 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.3 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.2 mg/dL
   Microbiology: [**3-8**] Catheter Tip: No growth
   Assessment and Plan
   Assessment and Plan: 68 yo female with CAD, bipolar s/p chole and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring HD -- was improving then transferred to ICU for
   tachypnea, GNRs and G+cocci from liver biopsy.
   # Abdominal distention/ileus: Soft and nontender today. Lactate
   increasing post-HD. Continues to have significant NGT output (1.4 L
   over 24 hrs yesterday). Surgery aware of CT findings (possible
   appendicitis, mesenteric ischemia). GI recommending repeat CT. Patient
   has steadily elevating alk phos, concerning for biliary processes in
   patient with multiple recent biliary stent placements.
   - NPO, continue TPN
   - Consider stopping suction or capping NG tube
   - RUQ U/s for ?new biliary process
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   - Will defer CT for now, but low threshold to re-CT abdomen/pelvis if
   condition worsens (fevers, abd tenderness, worsening lactate/WBC),
   given known intra-abdominal processes on prior scan
   # Liver abscess/clot: Very low numbers of VRE isolated from broth
   medium for liver tissue bx [**2-28**]. Per ID, on Flagyl & ceftriaxone as long
   as having active intra-abdominal processes, Linezolid through [**3-14**].
   - If clinically worsens, will broaden to Meropenem
   - F/u with surgery re: need for repeat drainage
   - f/u ID recs; c/w linezolid through [**3-14**] (will be two weeks of therapy
   post-drainage)
   - surveillance cultures
   # Respiratory status: Now extubated, respiratory rate relatively
   stable. Less tachypnic over past 1-2 days. Slightly more academic this
   morning, but appears to be breathing comfortably. No further stridor.
   - Follow ABGs
   # Altered MS: Pt continues to interact, answering questions, making
   intermittent eye contact, and showing good understanding and
   orientation. Psych continues to advise holding all psych meds, as they
   see no benefit to antipsychotics at this time, and SSRI
   contra-indicated while on linezolid.
   - Monitor mental status
   - will re-visit initiating home psych meds when linezolid therapy
   complete (scheduled to be [**3-14**])
   - avoid sedating meds or anxiolytics
   # ESRD on HD: Tunneled line placed today. Will have HD later today
   - IR will re-place HD line (temp vs tunneled) tomorrow
   - Renally dose medications
   - Daily weights
   # Anemia: Stable. Per renal note, will start EPO
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Skin breakdown: C/w lotrizone cream, per wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-9**] 04:37 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-11 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2102-3-10**] 12:16 PM
   [**3-10**]:
   - Was going to call out to the floor after discussion with family re:
   long-term plans. Ultimately, tachypneic to the 30s, would likely
   trigger on floor, so kept in ICU. Did elicit anxiety, no SOB, so given
   Ativan 0.5mg IV with good effect.
   - Did develop tachycardia, hypertension and stridor at 2am. Suctioned
   out thick mucus plugs, ABG 7.31/54/93, CXR and neck Xray nl, got
   racemic epi w/ some improvement. ?bronch in AM to extract thick
   secretions?
   - RUQ u/s neg for bil dil, changed fluid collection in CCY site. ERCP
   will redo her in 2 weeks
   - Per Psych, restart SSRI when Linezolid off
   - Per ID, Liinezolid/CTX until [**3-14**] and Flagyl until [**3-15**] (if decomps,
   CTX --> Meropenem)
   - Per Renal, starting EPO with HD. Got tunnelled line today and HD went
   well!
   - Per Surgery: will follow until pt can tolerate NG being clamped
   - Family would like pt to go to NE [**Hospital1 1298**] [**Location (un) 2460**] (CM aware) and PCP
   in [**Location (un) 11522**] system. Family also expressed concern re: multiple
   psych meds pt has been on. Consider adding back conservatively etc.
   .
   [**3-11**]:
   - Lactate 3.3 and WBC climbing again...
   - Consider reCT scanning her
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-11**] 12:25 AM
   Ceftriaxone - [**2102-3-11**] 04:00 AM
   Metronidazole - [**2102-3-11**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-10**] 08:26 PM
   Lorazepam (Ativan) - [**2102-3-10**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-11**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 102 (90 - 131) bpm
   BP: 134/54(83) {100/47(63) - 175/70(111)} mmHg
   RR: 14 (13 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.1 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 8 (2 - 17)mmHg
   Total In:
                                                                  2,381 mL
                                                                    983 mL
   PO:
   TF:
   IVF:
                                                                    780 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    500 mL
   Urine:
   NG:
                                                                  1,450 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -369 mL
                                                                    483 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: 7.44/44/160/22/5
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   7.5 g/dL
   130 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   35 mg/dL
   103 mEq/L
   141 mEq/L
   22.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2102-3-8**]  08:00 PM
                             [**2102-3-9**]  02:57 AM
                             [**2102-3-9**]  12:22 PM
                             [**2102-3-9**]  11:14 PM
                             [**2102-3-10**]  03:11 AM
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
   WBC
   11.6
   11.0
   15.3
   Hct
   24.0
   23.6
   22.9
   Plt
   166
   176
   191
   Cr
   2.9
   3.6
   2.4
   TCO2
   24
   23
   21
   23
   22
   28
   31
   Glucose
   137
   148
   130
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:14/33, Alk Phos / T Bili:408/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:80.0 %, Band:3.0 %,
   Lymph:8.0 %, Mono:7.0 %, Eos:1.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan: 68 yo female with CAD, bipolar s/p chole and ERCP,
   course c/b sepsis requiring intubation and pressors, VRE bacteremia,
   renal failure requiring HD -- was improving then transferred to ICU for
   tachypnea, GNRs and G+cocci from liver biopsy.
   # Abdominal distention/ileus: Soft and nontender today. Lactate
   increasing post-HD. Continues to have significant NGT output (1.4 L
   over 24 hrs yesterday). Surgery aware of CT findings (possible
   appendicitis, mesenteric ischemia). GI recommending repeat CT. Patient
   has steadily elevating alk phos, concerning for biliary processes in
   patient with multiple recent biliary stent placements.
   - NPO, continue TPN
   - Consider stopping suction or capping NG tube
   - RUQ U/s for ?new biliary process
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Hold narcotics or other constipating medications
   - Will defer CT for now, but low threshold to re-CT abdomen/pelvis if
   condition worsens (fevers, abd tenderness, worsening lactate/WBC),
   given known intra-abdominal processes on prior scan
   # Liver abscess/clot: Very low numbers of VRE isolated from broth
   medium for liver tissue bx [**2-28**]. Per ID, on Flagyl & ceftriaxone as long
   as having active intra-abdominal processes, Linezolid through [**3-14**].
   - If clinically worsens, will broaden to Meropenem
   - F/u with surgery re: need for repeat drainage
   - f/u ID recs; c/w linezolid through [**3-14**] (will be two weeks of therapy
   post-drainage)
   - surveillance cultures
   # Respiratory status: Now extubated, respiratory rate relatively
   stable. Less tachypnic over past 1-2 days. Slightly more academic this
   morning, but appears to be breathing comfortably. No further stridor.
   - Follow ABGs
   # Altered MS: Pt continues to interact, answering questions, making
   intermittent eye contact, and showing good understanding and
   orientation. Psych continues to advise holding all psych meds, as they
   see no benefit to antipsychotics at this time, and SSRI
   contra-indicated while on linezolid.
   - Monitor mental status
   - will re-visit initiating home psych meds when linezolid therapy
   complete (scheduled to be [**3-14**])
   - avoid sedating meds or anxiolytics
   # ESRD on HD: Tunneled line placed today. Will have HD later today
   - IR will re-place HD line (temp vs tunneled) tomorrow
   - Renally dose medications
   - Daily weights
   # Anemia: Stable. Per renal note, will start EPO
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   # Skin breakdown: C/w lotrizone cream, per wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-10**] 04:35 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-11 10:27:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: stridor, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2102-3-10**] 12:16 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-11**] 12:25 AM
   Ceftriaxone - [**2102-3-11**] 04:00 AM
   Metronidazole - [**2102-3-11**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2102-3-10**] 10:28 PM
   Pantoprazole (Protonix) - [**2102-3-11**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-11**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-11**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 110 (98 - 131) bpm
   BP: 175/75(113) {100/47(63) - 175/75(113)} mmHg
   RR: 21 (14 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 86.1 kg (admission): 83.5 kg
   Height: 64 Inch
   CVP: 11 (2 - 17)mmHg
   Total In:
                                                                  2,381 mL
                                                                  1,231 mL
   PO:
   TF:
   IVF:
                                                                    780 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  2,750 mL
                                                                    500 mL
   Urine:
   NG:
                                                                  1,450 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                   -369 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.44/44/160/22/5
   PaO2 / FiO2: 320
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, stridor
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   ), stridor
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ.
   no rebound or guarding
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   191 K/uL
   130 mg/dL
   2.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   35 mg/dL
   103 mEq/L
   141 mEq/L
   22.9 %
   15.3 K/uL
        [image002.jpg]
                             [**2102-3-8**]  08:00 PM
                             [**2102-3-9**]  02:57 AM
                             [**2102-3-9**]  12:22 PM
                             [**2102-3-9**]  11:14 PM
                             [**2102-3-10**]  03:11 AM
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
   WBC
   11.6
   11.0
   15.3
   Hct
   24.0
   23.6
   22.9
   Plt
   166
   176
   191
   Cr
   2.9
   3.6
   2.4
   TCO2
   24
   23
   21
   23
   22
   28
   31
   Glucose
   137
   148
   130
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:14/33, Alk Phos / T Bili:408/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:80.0 %, Band:3.0 %,
   Lymph:8.0 %, Mono:7.0 %, Eos:1.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   68F h/o CAD, bipolar s/p chole and ERCP, course c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy. Now with stridor, tachycardia.
   # Abdominal distention/ileus:
   -RUQ tenderness today. Has had intermittently.  Had RUQ U/S yesterday
   without new findings.
   -Continues to have significant NGT output =
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   -CT abd
   # Liver abscess/clot:
   -Flagyl & ceftriaxone, Linezolid through /16.
   -surgery following
   # Respiratory status:
   -extubated but with intermittent stridor
   -racemic epi nebs
   -CT neck to assess for swelling/narrowing between episodes
   # ESRD on HD:
   -Tunneled line
   # Anemia:
   -Stable
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-10**] 04:35 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2102-03-12 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-11**]:
   - Lactate 3.3 and WBC climbing
   - ERCP: Not inclined to rescope
   - CT neck (for recurring stridor): cords opposed on scan - would happen
   when speaking, slight irregularity on the R below epiglottis would need
   iv contrast to best evalm wait for final attending read
   - CT ab/pelvis (for RQ pain, known liver abscess): Stable hypodense
   liver lesion 2 cm in size; second fluid collection 2.6 x 3.6 cm at GB
   tracks subcapsular and inferior, no new intraductal path; increased L
   lung atelectasis at base.
   - rash on back side dramatically improved -- no longer involves back,
   now localized only to buttocks and gluteal cleft. Red dermatitis rash,
   still somewhat macerated in gluteal cleft. Wound care nurse following.
   Rash appears fungal and improving with antifungals and aquacel. She is
   turned on her side with fan on rash now.
   - stooled (finally!)
   - [**Doctor First Name 91**] rec: clamp NG
   - renal note: had HD today w/2.5 L off, no sign of kidney fx return,
   next HD on Monday with goal 2-3 L off
   [**3-12**]:
   - at 0100 had copious thick secretions, during suctioning dropped sats
   to 70s briefly. Ativan prn order added.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-11**] 11:37 PM
   Ceftriaxone - [**2102-3-12**] 04:23 AM
   Metronidazole - [**2102-3-12**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-11**] 08:34 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-11**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2102-3-12**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2102-3-12**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.4
   HR: 97 (87 - 134) bpm
   BP: 128/49(74) {103/40(61) - 175/75(113)} mmHg
   RR: 15 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 3 (0 - 19)mmHg
   Total In:
                                                                  3,531 mL
                                                                    683 mL
   PO:
   TF:
   IVF:
                                                                  1,380 mL
                                                                    187 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                      0 mL
   Urine:
   NG:
                                                                  1,300 mL
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                    683 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: No scleral icterus
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Wheezes : expiratory)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash: Less erythematous, over buttocks
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   197 K/uL
   6.9 g/dL
   130 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   58 mg/dL
   98 mEq/L
   137 mEq/L
   21.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2102-3-9**]  02:57 AM
                             [**2102-3-9**]  12:22 PM
                             [**2102-3-9**]  11:14 PM
                             [**2102-3-10**]  03:11 AM
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
   WBC
   11.6
   11.0
   15.3
   14.7
   Hct
   24.0
   23.6
   22.9
   21.1
   Plt
   166
   176
   191
   197
   Cr
   2.9
   3.6
   2.4
   3.4
   TCO2
   23
   21
   23
   22
   28
   31
   Glucose
   137
   148
   130
   130
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:13/32, Alk Phos / T Bili:420/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:80.0 %, Band:3.0 %,
   Lymph:8.0 %, Mono:7.0 %, Eos:1.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Imaging: [**3-11**] CT w/o contrast Neck/Abd/Pelvis: Report pending
   [**3-11**] Neck X-ray: Endotracheal tube is in place with distal tip not
   visualized. Neck is visualized to the C3-C4 vertebral level. No
   prevertebral soft tissue swelling is evident. Visualized portions of
   the airway are widely patent. Epiglottis appears within normal limits
   in size. Osseous structures show no abnormalities. Visualized portion
   of the occiput and upper cervical spine is within normal limits in
   alignment. No evidence of fracture or dislocation.
   Microbiology: [**3-8**] Catheter tip: Negative
   [**3-7**] C. diff: Negative
   [**2-28**] Liver aspirate: + VRE
   Assessment and Plan
    68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Lactate, Alk Phos, WBC and NG output all
   remain elevated. +VRE from liver aspiration on [**2-28**]. Repeat CT showing
   additional hepatic fluid collection near GB. Admitting to abdominal
   tenderness today. Patient did not tolerate NG clamp trial. ERCP team
   does not see a role here for them. ID recommends completing courses of
   /Ceftriaxone through tomorrow, Flagyl through [**3-15**].
   - F/u final read of abd/pelvis CT
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - appreciate surgery input regarding known multiple intra-abdominal CT
   findings
   - appreciate ID input; will broaden to meropenem if patient
   decompensates
   - re-culture for fever spikes
   - will check C. diff if starts having bowel movements
    # Respiratory status: Continues to have intermittent stridor with
   equivocal neck CT findings. Has been relieved with anxiolytics in the
   past.
   - Follow ABGs
   - PRN ativan/dilaudid
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now.
   - Appreciate ongoing psych recs, hope to restart home SSRI after
   linezolid therapy complete
   # ESRD on HD: Tunneled line placed; had HD yesterday
   - Renally dose medications
   - next HD session tomorrow vs Tuesday
   - Daily weights
   # Skin breakdown: C/w lotrizone cream, per wound care recs
   - Evaluate wound when patient rolled later today
   - If merited, consider derm c/s
   # Anemia: Slowly downtrending. Hemodynamically stable, no reported
   lightheadedness, although history can be difficult to obtain
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   # Buttocks rash: Less erythematous with miconazole
   - c/w anti-fungal treatment
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: [**First Name8 (NamePattern2) 768**] [**Known lastname 7288**], cell [**Telephone/Fax (1) 11104**]
   Sister: [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-11**] 04:24 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-12 11:05:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: intermittent stridor, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -CT neck, abd/pelvis
   -dialysis
   -inc secretions with desats - resolved with suctioning
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-11**] 11:37 PM
   Ceftriaxone - [**2102-3-12**] 04:23 AM
   Metronidazole - [**2102-3-12**] 04:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-11**] 04:00 PM
   Hydromorphone (Dilaudid) - [**2102-3-12**] 12:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-12**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 99 (94 - 134) bpm
   BP: 133/53(81) {103/40(61) - 167/74(107)} mmHg
   RR: 14 (11 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.1 kg (admission): 83.5 kg
   Height: 64 Inch
   CVP: 5 (0 - 19)mmHg
   Total In:
                                                                  3,531 mL
                                                                    922 mL
   PO:
   TF:
   IVF:
                                                                  1,380 mL
                                                                    204 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                      0 mL
   Urine:
   NG:
                                                                  1,300 mL
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                    923 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: ), stridor audible over trachea
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   197 K/uL
   130 mg/dL
   3.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   58 mg/dL
   98 mEq/L
   137 mEq/L
   21.1 %
   14.7 K/uL
        [image002.jpg]
                             [**2102-3-9**]  02:57 AM
                             [**2102-3-9**]  12:22 PM
                             [**2102-3-9**]  11:14 PM
                             [**2102-3-10**]  03:11 AM
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
   WBC
   11.6
   11.0
   15.3
   14.7
   Hct
   24.0
   23.6
   22.9
   21.1
   Plt
   166
   176
   191
   197
   Cr
   2.9
   3.6
   2.4
   3.4
   TCO2
   23
   21
   23
   22
   28
   31
   Glucose
   137
   148
   130
   130
   Other labs: PT / PTT / INR:13.3/28.5/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:13/32, Alk Phos / T Bili:420/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:80.0 %, Band:3.0 %,
   Lymph:8.0 %, Mono:7.0 %, Eos:1.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:310 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   68F h/o CAD, bipolar s/p chole and ERCP, course c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy. Now with ? intermittent stridor, tachycardia.
   # Abdominal distention/ileus:
   -RUQ tenderness
   -Alk phos trending upward
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   -CT abd
   # Liver abscess/clot:
   -Flagyl & ceftriaxone, Linezolid through /16.
   -surgery following
   # Respiratory status:
   -extubated but with intermittent strido
   -CT neck did not show significant swelling/narrowing - ? psychogenic
   # ESRD on HD:
   -Tunneled line
   # Anemia:
   -Stable
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-11**] 04:24 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2102-03-13 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - at 0100 had copious thick secretions, during suctioning dropped sats
   to 70s briefly. Ativan prn order added. No events ON [**3-26**]
   - Surgery recs: f/u CT scan, consider clamp trial, consider drain
   placement
   - Renal recs: Will transfuse [**1-28**] units RBC with HD tomorrow
   - AM ABG: 7.43/37/133, lactate 2.3
   - Continues to have intermittent upper airway sounds
   - Spoke with pharmacy; OK to start SSRI the day after linezolid d/c'd
   - WBC up to 19, lactate down to 2.3, then inc to 2.9
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-3-12**] 05:16 PM
   Ceftriaxone - [**2102-3-12**] 05:17 PM
   Linezolid - [**2102-3-12**] 11:46 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-12**] 08:27 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-12**] 11:46 PM
   Lorazepam (Ativan) - [**2102-3-13**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-13**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 108 (94 - 123) bpm
   BP: 185/67(109) {108/44(65) - 185/74(109)} mmHg
   RR: 27 (14 - 37) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 1 (1 - 11)mmHg
   Total In:
                                                                  2,638 mL
                                                                    549 mL
   PO:
   TF:
   IVF:
                                                                  1,030 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    900 mL
   Urine:
   NG:
                                                                    900 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                   -351 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: 7.40/40/143/23/0
   PaO2 / FiO2: 286
   Physical Examination
   Conjunctival hemorrhage of right eye
   Upper airway stridorous breathing +rhonchi on right>left
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   6.8 g/dL
   119 mg/dL
   4.2 mg/dL
   23 mEq/L
   4.5 mEq/L
   75 mg/dL
   98 mEq/L
   139 mEq/L
   20.8 %
   15.6 K/uL
        [image002.jpg]
   Catheter tip, stool cdiff, BCx X2 negative
   Alk phos 393
   INR 1.1
   Lactate 2.9
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
                             [**2102-3-12**]  11:08 AM
                             [**2102-3-12**]  01:48 PM
                             [**2102-3-12**]  11:25 PM
                             [**2102-3-13**]  02:40 AM
   WBC
   15.3
   14.7
   19.0
   15.6
   Hct
   22.9
   21.1
   20.5
   20.8
   Plt
   191
   197
   232
   250
   Cr
   2.4
   3.4
   3.7
   4.2
   TCO2
   23
   22
   28
   31
   25
   26
   Glucose
   130
   130
   103
   119
   Other labs: PT / PTT / INR:13.2/30.6/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:17/35, Alk Phos / T Bili:393/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Lactate, Alk Phos, WBC and NG output all
   remain elevated. +VRE from liver aspiration on [**2-28**]. Repeat CT showing
   additional hepatic fluid collection near GB. Admitting to abdominal
   tenderness today. ERCP team does not see a role here for them. ID
   recommends completing courses of Linezolid/Ceftriaxone through
   tomorrow, Flagyl through [**3-15**].
   - F/u final read of abd/pelvis CT
 will discuss findings with Surgery
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - appreciate surgery input regarding known multiple intra-abdominal CT
   findings
   - appreciate ID input; will broaden to meropenem if patient
   decompensates
   - re-culture for fever spikes
   - will check C. diff if starts having bowel movements
    # Respiratory status: Continues to have intermittent stridorous/raspy
   breathing with equivocal neck CT findings. Has been relieved with
   anxiolytics in the past.
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol
 face shovel for improved patient comfort
   - Follow ABGs
   - PRN ativan/dilaudid
   # Conjunctival hemorrhage: New, ?cough vs.
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now.
   - Appreciate ongoing psych recs, hope to restart home SSRI after [**3-15**]
   when linezolid therapy complete tomorrow
   # ESRD on HD: Tunneled line placed; HD today. Will receive [**1-28**] units
   pRBC during hemodialysis as well for low Hct. No frank blood noted,
   guaiac neg stools.
   - Renally dose medications
   - next HD session today
   - Daily weights
   # Skin breakdown: C/w lotrizone cream, per wound care recs. Coccyx w/
   deep tissue injury, macerated rash on gluteal folds/buttocks.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   - If merited, consider derm c/s
   # Anemia: Slowly downtrending. Hemodynamically stable, no reported
   lightheadedness, although history can be difficult to obtain
   - pRBC per above
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-12**] 04:14 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-13 11:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: intermittent stridor, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-3-12**] 05:16 PM
   Ceftriaxone - [**2102-3-12**] 05:17 PM
   Linezolid - [**2102-3-12**] 11:46 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-12**] 08:27 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-12**] 11:46 PM
   Lorazepam (Ativan) - [**2102-3-13**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-13**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.2
   HR: 95 (95 - 123) bpm
   BP: 158/58(95) {83/51(75) - 185/76(109)} mmHg
   RR: 13 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
   CVP: 9 (1 - 12)mmHg
   Total In:
                                                                  2,638 mL
                                                                    800 mL
   PO:
   TF:
   IVF:
                                                                  1,030 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    900 mL
   Urine:
   NG:
                                                                    900 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                  1,738 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 100%
   ABG: 7.40/40/143/23/0
   PaO2 / FiO2: 286
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, stridor
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   transmitted from trachea)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   6.8 g/dL
   250 K/uL
   119 mg/dL
   4.2 mg/dL
   23 mEq/L
   4.5 mEq/L
   75 mg/dL
   98 mEq/L
   139 mEq/L
   20.8 %
   15.6 K/uL
        [image002.jpg]
                             [**2102-3-10**]  03:28 AM
                             [**2102-3-10**]  08:52 AM
                             [**2102-3-11**]  01:15 AM
                             [**2102-3-11**]  03:06 AM
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
                             [**2102-3-12**]  11:08 AM
                             [**2102-3-12**]  01:48 PM
                             [**2102-3-12**]  11:25 PM
                             [**2102-3-13**]  02:40 AM
   WBC
   15.3
   14.7
   19.0
   15.6
   Hct
   22.9
   21.1
   20.5
   20.8
   Plt
   191
   197
   232
   250
   Cr
   2.4
   3.4
   3.7
   4.2
   TCO2
   23
   22
   28
   31
   25
   26
   Glucose
   130
   130
   103
   119
   Other labs: PT / PTT / INR:13.2/30.6/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:17/35, Alk Phos / T Bili:393/0.6,
   Amylase / Lipase:362/51, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   68F h/o CAD, bipolar s/p chole and ERCP, course c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy. Now with intermittent stridor, tachycardia.
   # Abdominal distention
   - ileus / ?SBO
   -RUQ tenderness
   -Alk phos now trending downward
   - NPO, continue TPN, trial clamp NGT
   - Await [**Doctor First Name 91**] input re: ? SBO - CT w/ ? transition pt
   # Liver abscess/clot:
   -Flagyl & ceftriaxone, Linezolid through /16.
   -surgery following
   # Respiratory status:
   -extubated but with intermittent stridor
   -CT neck did not show significant swelling/narrowing
   -ENT to eval vocal cords given exam and CT findings VC opposed on
   imaging when presumably wasn't phonating
   # ESRD on HD:
   -Tunneled line
   # Anemia:
   -Stable
   -presumed secondary to ESRD ? start Epo
   # COPD
   -cont BD
   # HTN
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-12**] 04:14 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2102-03-14 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2102-3-13**] 08:00 PM
   - Updated family
   - CT abd/pelvis: Unchanged segment V liver abscess/fluid within the
   gallbladder fossa. Persistent SBO with transition point. Ischemic small
   bowel segment remains a concern. The abnormal configuration of small
   bowel loops at the transition also raises possibility of closed loop
   obstruction. 3. Increasing left lower lobe atelectasis.
   - Gen [**Doctor First Name **]: Aware of CT findings, camp trials, consider ultrasound of
   abdominal vasculature
   - Low grade temp again (100.5) - given no recent BCx, ordered X2
   - 2 units pRBC w/ HD today - bumped accordingly (20-->26)
   - Lactate 4.3 w/ abdominal pain tonight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-3-14**] 02:00 AM
   Ceftriaxone - [**2102-3-14**] 04:00 AM
   Linezolid - [**2102-3-14**] 04:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-13**] 08:49 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-13**] 11:59 PM
   Hydromorphone (Dilaudid) - [**2102-3-14**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-14**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.7
C (98.1
   HR: 105 (95 - 129) bpm
   BP: 133/60(86) {83/51(74) - 163/77(107)} mmHg
   RR: 22 (13 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 6 (0 - 360)mmHg
   Total In:
                                                                  2,867 mL
                                                                  1,083 mL
   PO:
   TF:
   IVF:
                                                                    580 mL
                                                                    619 mL
   Blood products:
                                                                    675 mL
   Total out:
                                                                  3,905 mL
                                                                    155 mL
   Urine:
   NG:
                                                                    905 mL
                                                                    155 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                    928 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.41/47/274/25/4
   PaO2 / FiO2: 457
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   ), Expiratory wheeze
   Abdominal: Bowel sounds present, Distended, Tender: Deep palpation
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm, Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   person, time, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   225 K/uL
   8.9 g/dL
   125 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   41 mg/dL
   102 mEq/L
   142 mEq/L
   25.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
                             [**2102-3-12**]  11:08 AM
                             [**2102-3-12**]  01:48 PM
                             [**2102-3-12**]  11:25 PM
                             [**2102-3-13**]  02:40 AM
                             [**2102-3-13**]  05:40 PM
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
   WBC
   14.7
   19.0
   15.6
   16.8
   15.0
   Hct
   21.1
   20.5
   20.8
   26.5
   25.8
   Plt
   197
   232
   250
   261
   225
   Cr
   3.4
   3.7
   4.2
   2.8
   TCO2
   31
   25
   26
   29
   31
   Glucose
   130
   103
   119
   125
   Other labs: PT / PTT / INR:14.2/27.2/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:18/35, Alk Phos / T Bili:453/0.7,
   Amylase / Lipase:362/51, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.5 mmol/L, Albumin:2.0 g/dL, LDH:340 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Imaging: [**3-13**] CXR: In comparison with the study of [**3-12**], there is
   continued bibasilar
   atelectasis, more prominent on the left. The area of suspected patchy
   opacity
   in the right upper zone is not appreciated at this time.
   Monitoring and support devices remain in place.
   [**3-14**] CXR: Pending
   [**3-14**] KUB: Pending
   Microbiology: [**3-7**] C Diff: Negative
   [**3-8**] Catheter tip: Negative
   [**3-13**] BCx: Pending x2
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Lactate, Alk Phos, WBC and NG output all
   remain elevated. +VRE from liver aspiration on [**2-28**]. Repeat CT showing
   additional hepatic fluid collection near GB. Admitting to abdominal
   tenderness today. ERCP team does not see a role here for them. ID
   recommends completing courses of Linezolid/Ceftriaxone through
   tomorrow, Flagyl through [**3-15**].
   - F/u final read of abd/pelvis CT
 will discuss findings with Surgery
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - appreciate surgery input regarding known multiple intra-abdominal CT
   findings
   - appreciate ID input; will broaden to meropenem if patient
   decompensates
   - re-culture for fever spikes
   - will check C. diff if starts having bowel movements
    # Respiratory status: Continues to have intermittent stridorous/raspy
   breathing with equivocal neck CT findings. Has been relieved with
   anxiolytics in the past.
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol
 face shovel for improved patient comfort
   - Follow ABGs
   - PRN ativan/dilaudid
   # Conjunctival hemorrhage: New, ?cough vs.
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now.
   - Appreciate ongoing psych recs, hope to restart home SSRI after [**3-15**]
   when linezolid therapy complete tomorrow
   # ESRD on HD: Tunneled line placed; HD today. Will receive [**1-28**] units
   pRBC during hemodialysis as well for low Hct. No frank blood noted,
   guaiac neg stools.
   - Renally dose medications
   - next HD session today
   - Daily weights
   # Skin breakdown: C/w lotrizone cream, per wound care recs. Coccyx w/
   deep tissue injury, macerated rash on gluteal folds/buttocks.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   - If merited, consider derm c/s
   # Anemia: Slowly downtrending. Hemodynamically stable, no reported
   lightheadedness, although history can be difficult to obtain
   - pRBC per above
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-13**] 03:58 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-14 12:21:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: sepsis, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2102-3-13**] 08:00 PM
   CT final read returned (reviewed)
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-3-14**] 02:00 AM
   Ceftriaxone - [**2102-3-14**] 04:00 AM
   Linezolid - [**2102-3-14**] 04:34 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2102-3-14**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-14**] 08:14 AM
   Pantoprazole (Protonix) - [**2102-3-14**] 08:22 AM
   Other medications:
   PPI, SQI, SQH, linezolid, bowel reg, ceftriaxone, flagyl,
   bronchodilators, erythro ointment
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-14**] 12:09 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.4
C (97.5
   HR: 102 (102 - 129) bpm
   BP: 141/52(81) {116/51(74) - 163/77(107)} mmHg
   RR: 16 (16 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
   CVP: 9 (0 - 360)mmHg
   Total In:
                                                                  2,867 mL
                                                                  1,669 mL
   PO:
   TF:
   IVF:
                                                                    580 mL
                                                                    869 mL
   Blood products:
                                                                    675 mL
   Total out:
                                                                  3,905 mL
                                                                    355 mL
   Urine:
   NG:
                                                                    905 mL
                                                                    355 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,038 mL
                                                                  1,315 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: 7.41/47/274/25/4
   PaO2 / FiO2: 457
   Physical Examination
   Comfortable
   Follow commands
   Upper airway noises not distractable.
   Abdomen is not particularly tender.  Somewhat tympanitic
   Edema
   Labs / Radiology
   8.9 g/dL
   225 K/uL
   125 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   41 mg/dL
   102 mEq/L
   142 mEq/L
   25.8 %
   15.0 K/uL
        [image002.jpg]
                             [**2102-3-11**]  03:25 AM
                             [**2102-3-12**]  03:23 AM
                             [**2102-3-12**]  11:08 AM
                             [**2102-3-12**]  01:48 PM
                             [**2102-3-12**]  11:25 PM
                             [**2102-3-13**]  02:40 AM
                             [**2102-3-13**]  05:40 PM
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
   WBC
   14.7
   19.0
   15.6
   16.8
   15.0
   Hct
   21.1
   20.5
   20.8
   26.5
   25.8
   Plt
   197
   232
   250
   261
   225
   Cr
   3.4
   3.7
   4.2
   2.8
   TCO2
   31
   25
   26
   29
   31
   Glucose
   130
   103
   119
   125
   Other labs: PT / PTT / INR:14.2/27.2/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:18/35, Alk Phos / T Bili:453/0.7,
   Amylase / Lipase:362/51, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.5 mmol/L, Albumin:2.0 g/dL, LDH:340 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   68F h/o CAD, bipolar s/p chole and ERCP, course c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy. Now with intermittent stridor, tachycardia.  Febrile
   overnight, with some increasing tachycardia.  CT [**Location (un) 118**] is concerning
   for bowel issues.
          Discuss CT findings and bowel issues with surgery
          Ask ID to re-visit, since due to stop antibiotics soon and
   febrile in setting of complex infectious disease including liver
   abscess with VRE
          Ask ENT to evaluate for ongoing upper airway sounds/stridor
          For acute renal failure
 dialysis per renal
          Anemia
 follow for now
          TPN for nutrition
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-13**] 03:58 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2102-03-15 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2102-3-14**] 08:30 AM
   abd
 BLOOD CULTURED - At [**2102-3-14**] 05:37 PM
   central line
 URINE CULTURE - At [**2102-3-14**] 05:37 PM
   straight cath
   - updated family
   - [**Doctor First Name 91**] recs: can do UGI w/ SBFT, then place Dobhoff and tube feeds. Or,
   could repeat CT ab/pelvis now w/IV dye given kidneys seemingly not
   recovering ...
   - T 100.4, diaphoretic, tachy. Has follicular rash on chest, hands, c/w
   drug rash? Good ABG (7.39/42/187), lactate falling.
   - F/u U/A & Ucx (straight cath'd for), CXR, C Diff, repeat blood cxs.
   - ID recs: most likely HAP or sinusitis but also send fungal studies as
   on TPN, has rash c/w possible candidemia.
   - f/u fungal cxs, beta glucan
   - If she crashes o/n give Mycofungin which would cover non-albicans
   which associated with abdominal infections, better than Fluconazole
   - rash also c/w drug reaction, most likely [**2-28**] CTX. D/c'd Flagyl and
   CTX, started Meropenem and Cipro, continuing Linezolid for now.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-14**] 04:00 AM
   Metronidazole - [**2102-3-14**] 02:38 PM
   Ciprofloxacin - [**2102-3-14**] 09:00 PM
   Meropenem - [**2102-3-15**] 12:00 AM
   Linezolid - [**2102-3-15**] 04:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-14**] 08:22 AM
   Lorazepam (Ativan) - [**2102-3-14**] 12:30 PM
   Hydromorphone (Dilaudid) - [**2102-3-14**] 12:51 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-14**] 04:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-15**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.6
   HR: 97 (97 - 126) bpm
   BP: 125/50(76) {123/50(76) - 171/73(110)} mmHg
   RR: 13 (13 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  3,169 mL
                                                                    956 mL
   PO:
   TF:
   IVF:
                                                                  1,566 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    170 mL
   Urine:
                                                                     50 mL
   NG:
                                                                    355 mL
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                  2,764 mL
                                                                    786 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: 7.39/42/187/23/0
   PaO2 / FiO2: 374
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   expiratory), decreased upper airway stridor
   Abdominal: Soft, Bowel sounds present, Distended, Tender: mild
   tenderness to palpation throughout
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   249 K/uL
   8.2 g/dL
   106 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   62 mg/dL
   101 mEq/L
   141 mEq/L
   24.6 %
   15.5 K/uL
        [image002.jpg]
                             [**2102-3-12**]  11:08 AM
                             [**2102-3-12**]  01:48 PM
                             [**2102-3-12**]  11:25 PM
                             [**2102-3-13**]  02:40 AM
                             [**2102-3-13**]  05:40 PM
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
   WBC
   19.0
   15.6
   16.8
   15.0
   15.5
   Hct
   20.5
   20.8
   26.5
   25.8
   24.6
   Plt
   232
   250
   261
   225
   249
   Cr
   3.7
   4.2
   2.8
   3.8
   TCO2
   25
   26
   29
   31
   26
   Glucose
   103
   119
   125
   106
   Other labs: PT / PTT / INR:14.2/26.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:16/31, Alk Phos / T Bili:468/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: [**3-14**] Abdominal U/S: 1. No significant change in the right
   subcapsular and gallbladder fossa fluid collections.
   2. Normal Doppler interrogation of the liver.
   3. Normal flow and waveforms in the proximal superior mesenteric artery
   and vein. Of note, Doppler interrogation of the distal superior
   mesenteric artery and vein is limited.
   [**3-14**] CXR (Prelim): New R lower lung opacity -->probable aspiration/pna
   [**3-15**] UGI w/SBFT: Read pending
   Microbiology: [**3-14**] Mycolytic BCx:
      BLOOD/FUNGAL CULTURE (Pending):
      BLOOD/AFB CULTURE (Pending):
   [**3-14**], [**3-13**] BCx: Pending
   [**3-14**] UCx: pending
   [**3-8**] Catheter tip: No growth
   [**3-7**], [**3-5**] C. Diff: negative
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Lactate, Alk Phos, WBC and NG output all
   remain elevated. Abdominal tenderness worse today. +VRE from liver
   aspiration on [**2-28**]. Repeat CT showing additional hepatic fluid
   collection near GB. Admitting to abdominal tenderness today as well. ID
   recommends completing courses of Linezolid/Ceftriaxone through today,
   Flagyl through [**3-15**]. Suboptimal CT imaging (not enough contrast) this
   morning so [**Doctor First Name **] recommending serial KUBs after increased oral contrast
   - Serial KUBs q2 hours
   - C/w all abx at this point given ongoing fevers, abdominal pain
   - Follow-up Surgery recs
   - Follow-up ID recs
   - NPO, continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Re-culture for fever if spikes
   # Fevers: Dirty urinalysis and known intrabdominal issues (etiology
   unclear)
   - Continue current antibiotic regimen
   - Re-culture for fever if spikes
    # Respiratory status: Continues to have intermittent stridorous/raspy
   breathing with equivocal neck CT findings. Has been relieved with
   anxiolytics in the past and tachypnea correlated with people being in
   the room. ENT visualized today
 benign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Follow ABGs
   - PRN ativan/dilaudid
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now per Psychiatry X1 week.
   - Appreciate ongoing psych recs
   # ESRD on HD: Tunneled line placed; HD today. Will receive [**1-28**] units
   pRBC during hemodialysis as well for low Hct. No frank blood noted,
   guaiac neg stools.
   - Renally dose medications
   - next HD session today
   - Daily weights
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has new [**Doctor Last Name 170**] rash felt consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   - If merited, consider derm c/s
   # Anemia: Slowly downtrending. Hemodynamically stable, no reported
   lightheadedness, although history can be difficult to obtain
   - Continue to monitor
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
 consider Dobhoff and Tubefeeds today
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen), 20 gauge,
   Aline (may need to be discontinued today)
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-14**] 03:55 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Arterial Line - [**2102-3-8**] 07:30 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   * Need to address re-draining Abscess in Liver. Will decide and discuss
   with IR tomorrow.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4217**] [**Name (NI) 7347**]
   on:[**2102-3-15**] 12:36 ------

2102-03-16 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-3-15**] 01:05 PM
   mycolytic
 EKG - At [**2102-3-15**] 06:10 PM
 ARTERIAL LINE - STOP [**2102-3-15**] 10:46 PM
 BLOOD CULTURED - At [**2102-3-15**] 10:55 PM
   mycolytic
   .
   - ENT recs: IV PPI [**Hospital1 **], strict aspiration/reflux precautions, diet per
   Speech & Swallow team, supplemental O2 via humidified shovel mask
   - [**Doctor First Name **] recs: Image belly (CT vs serial KUBs) to evaluate obstruction;
   place dobhoff for enteral feeds
   - CT Abd/Pelvis: 1. Moderate proximal small bowel dilatation with a
   conglomerate of small bowel in the mid abdomen, surrounded by
   mesenteric fat stranding. Findings indicate a small-bowel obstruction
   possibly the result of an nternal hernia. 2. Hypodense hepatic lesion
   has minimally decreased in size. 3. Small bilateral pleural effusions.
   - Started having significant BM's -> placed flexiseal
   - Transfused 1 unit pRBCs and 500 cc NS for tachycardia, downtrending
   Hct. Tachycardia improved with fluids and with suction of PO contrast.
   Hct didn't budge, but stable on AM labs
   - EKG unchanged
   - Spiked temp 100.8 @ 2200 -> cultured
   - Pt coughing up PO contrast, 500 cc suctioned out
   - No new psych recs
   - radial line d/c'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2102-3-14**] 04:00 AM
   Metronidazole - [**2102-3-14**] 02:38 PM
   Linezolid - [**2102-3-15**] 04:42 AM
   Meropenem - [**2102-3-15**] 10:18 AM
   Ciprofloxacin - [**2102-3-15**] 10:17 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2102-3-15**] 03:10 PM
   Pantoprazole (Protonix) - [**2102-3-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-16**] 12:32 AM
   Hydromorphone (Dilaudid) - [**2102-3-16**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-16**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.8
   HR: 100 (100 - 135) bpm
   BP: 125/50(67) {125/49(67) - 143/69(83)} mmHg
   RR: 33 (16 - 44) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    CVP: 9 (9 - 9)mmHg
   Total In:
                                                                  5,139 mL
                                                                  1,080 mL
   PO:
   TF:
   IVF:
                                                                  1,460 mL
                                                                    576 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  3,250 mL
                                                                  1,000 mL
   Urine:
   NG:
                                                                  1,250 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  1,889 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.51/35/113/26/5
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   258 K/uL
   8.6 g/dL
   142 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.5 mEq/L
   36 mg/dL
   100 mEq/L
   139 mEq/L
   25.5 %
   17.5 K/uL
        [image002.jpg]
                             [**2102-3-13**]  02:40 AM
                             [**2102-3-13**]  05:40 PM
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
   WBC
   15.6
   16.8
   15.0
   15.5
   17.5
   Hct
   20.8
   26.5
   25.8
   24.6
   25.2
   25.5
   Plt
   [**Telephone/Fax (3) 11609**]49
   258
   Cr
   4.2
   2.8
   3.8
   2.2
   TCO2
   29
   31
   26
   29
   Glucose
   119
   125
   106
   142
   Other labs: PT / PTT / INR:14.2/26.4/1.2, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:16/31, Alk Phos / T Bili:468/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:3.1 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Lactate, Alk Phos, WBC and NG output all
   remain elevated. Patient denying abdominal tenderness overnight and
   this mroning. +VRE from liver aspiration on [**2-28**]. Repeat CT showing
   additional hepatic fluid collection near GB. Serial KUBs after
   increased oral contrast could not be completed given patient
   discomfort, significant suctioning out of contrast. Did start having
   increased stooling, however
   - C/w Cipro/Meropenem/Linezolid given ongoing fevers, abdominal pain
   - Follow-up Surgery recs
   - Follow-up ID recs
   - NPO, continue TPN
 consider Dobhoff placement today in setting of
   increased stooling
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   - Re-culture for fever if spikes
   # Fevers: Dirty urinalysisbut urine culture yeast only, known
   intrabdominal issues (etiology unclear)
   - Continue current antibiotic regimen
   - Re-culture for fever if spikes
    # Respiratory status: Continues to have intermittent stridorous/raspy
   breathing with equivocal neck CT findings. Has been relieved with
   anxiolytics in the past and tachypnea correlated with people being in
   the room. ENT visualized yesterday
 benign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - Follow ABGs as tolerated
   - PRN ativan/dilaudid
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now per Psychiatry X1 week.
   - Appreciate ongoing psych recs
   # ESRD on HD: Tunneled line placed; HD tomorrow. Received pRBC
   yesterday for tachycardia and bumped appropriately. No frank blood
   noted, guaiac neg stools. Likely chronic disease, suppressed marrow
   from acute illness etc.
   - Renally dose medications
   - next HD session today
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has new [**Doctor Last Name 170**] rash felt consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   - If merited, consider derm c/s
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: NPO, on TPN
 consider Dobhoff and Tubefeeds today
   PPX:  PBoots, Bowel regimen, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen), 20 gauge
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2102-3-15**] 03:54 PM 66.[**Telephone/Fax (3) 2588**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2102-2-27**] 10:00 AM
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-17 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FLUOROSCOPY - At [**2102-3-16**] 03:00 PM
   post pyloric dophoff placed
 MULTI LUMEN - STOP [**2102-3-16**] 06:44 PM
   [**3-15**]:
   - ENT recs: IV PPI [**Hospital1 **], strict aspiration/reflux precautions, diet per
   Speech & Swallow team, supplemental O2 via humidified shovel mask
   - [**Doctor First Name **] recs: Image belly (CT vs serial KUBs) to evaluate obstruction;
   place dobhoff for enteral feeds
   - CT Abd/Pelvis: 1. Moderate proximal small bowel dilatation with a
   conglomerate of small bowel in the mid abdomen, surrounded by
   mesenteric fat stranding. Findings indicate a small-bowel obstruction
   possibly the result of an nternal hernia. 2. Hypodense hepatic lesion
   has minimally decreased in size. 3. Small bilateral pleural effusions.
   - Started having significant BM's -> placed flexiseal
   - Transfused 1 unit pRBCs and 500 cc NS for tachycardia, downtrending
   Hct. Tachycardia improved with fluids and with suction of PO contrast.
   Hct didn't budge, but stable on AM labs
   - EKG unchanged
   - Spiked temp 100.8 @ 2200 -> cultured
   - Pt coughing up PO contrast, 500 cc suctioned out
   - No new psych recs
   - radial line d/c'd
   .
   [**3-16**]:
   - Surgery recs: Consider Reglan
   - ID: Betaglucan 375 so started Micafungin, getting Micro to speciate
   urine yeast, wants another UCx (needs straight cath), ?imaging of GU
   tract for fungal ball (but per Radiology, would need urocystogram...)
   - Straight cath urine looks really murky, thick, cloudy....
   - IR attg felt liver abscess improved, prefer to medically manage given
   pt's general health
   - Clamped NGT - didn't tolerate in AM, holding Dobhoff/NG suctioning
   trial for tomorrow
   - Lactate 2.9 <--3.1
   - D/C LIJ after PICC placed
   - No new psych recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2102-3-14**] 02:38 PM
   Meropenem - [**2102-3-16**] 10:39 AM
   Ciprofloxacin - [**2102-3-16**] 10:19 PM
   Micafungin - [**2102-3-17**] 01:30 AM
   Linezolid - [**2102-3-17**] 04:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-16**] 05:00 PM
   Hydromorphone (Dilaudid) - [**2102-3-16**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-17**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 95 (91 - 109) bpm
   BP: 127/61(75) {109/32(55) - 144/84(95)} mmHg
   RR: 25 (11 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,450 mL
                                                                    371 mL
   PO:
             TF:
   IVF:
                                                                  1,340 mL
                                                                    371 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                  1,030 mL
   Urine:
   130 mL
   NG:
                                                                  2,250 mL
                                                                    900 mL
   Stool:
   Drains:
   Balance:
                                                                    200 mL
                                                                   -659 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   8.0 g/dL
   71 mg/dL
   3.3 mg/dL
   25 mEq/L
   4.8 mEq/L
   52 mg/dL
   99 mEq/L
   136 mEq/L
   24.7 %
   15.9 K/uL
        [image002.jpg]
                             [**2102-3-13**]  05:40 PM
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
   WBC
   16.8
   15.0
   15.5
   17.5
   15.9
   Hct
   26.5
   25.8
   24.6
   25.2
   25.5
   24.7
   Plt
   261
   225
   249
   258
   252
   Cr
   2.8
   3.8
   2.2
   3.3
   TCO2
   29
   31
   26
   29
   Glucose
   125
   106
   142
   71
   Other labs: PT / PTT / INR:12.6/23.9/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:16/31, Alk Phos / T Bili:468/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: NG output remains elevated. Serial KUBs
   after increased oral contrast could not be completed given patient
   discomfort, significant suctioning out of contrast. Did start having
   increased stooling, however. Did not tolerate clamp trial yesterday
   morning
   - Attempt another clamp trial. Consider Reglan per Surgery
   - Dobhoff placed by IR yesterday, will attempt tube feeding and trial
   suctioning residuals from NGT
   - C/w Meropenem/Linezolid given ongoing fevers, abdominal pain
   discontinue Cipro today as can alter mental status and UCx negative for
   bacterial infections
   - Follow-up Surgery recs
   - Follow-up ID recs
   - Continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   # Fevers: Dirty urinalysis, urine culture yeast, known intrabdominal
   issues (etiology unclear)
   - Continue antibiotic regimen; started Micafungin overnight in setting
   of elevated betaglucan
   - Re-culture for fever if spikes
   - Will hold on having IR drain liver abscess given interval improvement
   in lesion
   - Continue line holiday with pulled central venous line; will follow-up
   tip culture
    # Respiratory status: Intermittent stridorous/raspy breathing with
   equivocal neck CT findings. Has been relieved with anxiolytics in the
   past and tachypnea correlated with people being in the room. ENT
   visualizedbenign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - Follow ABGs as tolerated
   - PRN dilaudid but discontinue Ativan for now and assess patient
   tachypnea
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now per psychiatry X1 week at
   least; still on linezolid. Of note
   - Appreciate ongoing psych recs
   - Will continue pain control with Dilaudid, discontinue Ativan for now
   - Appeared very hypertonic in upper extremities yesterday on exam but
   has been this way. PT/OT following
 will see if they are actively
   following patient given relocation from SICU to MICU
   # ESRD on HD: Tunneled line placed; HD tomorrow. Received pRBC
   yesterday for tachycardia and bumped appropriately. No frank blood
   noted, guaiac neg stools. Likely chronic disease, suppressed marrow
   from acute illness etc.
   - Renally dose medications
   - next HD session today
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has new [**Doctor Last Name 170**] rash felt consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: TPN; trial Dobhoff and Tube Feeds today
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen, in for 17
   days). Ordered for a PICC.
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   Sister: [**Name (NI) 5047**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   18 Gauge - [**2102-3-16**] 05:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   * Will touch base with Radiology and ID regarding possible imaging
   modalities of genitourinary tract (?fungal ball)
   * Will discuss with nurse whether patient can be called out to the
   regular floor given her improved vital signs
   ------ Protected Section Addendum Entered By:[**Name (NI) 4217**] [**Name (NI) 7347**]
   on:[**2102-3-17**] 11:20 ------

2102-03-18 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2102-3-17**] 08:58 PM
   -PICC placed
   - ID: d/w rads how to image bladder for fungal ball eval; d/c cipro if
   no + cx data; check sputum cx; continue [**Last Name (un) 350**]/Linezolid given improving
   abscess
   - rads: recs cystoscopy vs. cystogram, not ultrasound, to eval for
   fungal ball, or could try CT of pelvis
   - wound care: abdominal wound healing w/o cellulitis, continue
   wets->drys; gluteal cleft lesion has improved. Continue pressure relief
   protocol (special mattress, reposition q1-2 hrs, heels off bed etc)
   - surgery signed off
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-3-16**] 10:39 AM
   Ciprofloxacin - [**2102-3-16**] 10:19 PM
   Micafungin - [**2102-3-18**] 02:16 AM
   Linezolid - [**2102-3-18**] 04:06 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-17**] 08:54 PM
   Hydromorphone (Dilaudid) - [**2102-3-17**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-18**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.8
   HR: 106 (76 - 132) bpm
   BP: 128/44(64) {106/39(59) - 152/77(89)} mmHg
   RR: 16 (10 - 38) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                    708 mL
                                                                    544 mL
   PO:
             TF:
                                                                    158 mL
                                                                    173 mL
   IVF:
                                                                    550 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  4,030 mL
                                                                    500 mL
   Urine:
                                                                    130 mL
   NG:
                                                                    900 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,322 mL
                                                                     44 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, Dobhoff
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Increased
   Labs / Radiology
   253 K/uL
   8.4 g/dL
   91 mg/dL
   2.6 mg/dL
   29 mEq/L
   3.8 mEq/L
   31 mg/dL
   101 mEq/L
   141 mEq/L
   24.6 %
   14.6 K/uL
        [image002.jpg]
                             [**2102-3-13**]  07:51 PM
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
   WBC
   15.0
   15.5
   17.5
   15.9
   14.6
   Hct
   25.8
   24.6
   25.2
   25.5
   24.7
   24.6
   Plt
   [**Telephone/Fax (3) 11639**]52
   253
   Cr
   2.8
   3.8
   2.2
   3.3
   2.6
   TCO2
   29
   31
   26
   29
   Glucose
   125
   106
   142
   71
   91
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:16/31, Alk Phos / T Bili:468/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: [**3-16**]:  Successful fluoroscopically placed [**Location (un) 6133**]-[**Doctor First Name 335**]
   feeding tube in a post-pyloric position. The tube is ready to use.
   [**3-17**] CXR: L PICC LIKELY AT DISTAL SVC-CAVOATRIAL JXN. LMITED BY
   OVERLYING ECG LEAD. NO OTHER CHANGE.
   Microbiology: [**3-14**] UCx:     [**Female First Name (un) **] ALBICANS, PRESUMPTIVE
   IDENTIFICATION. >100,000 ORGANISMS/ML..
   [**3-14**], [**3-15**], [**3-17**] BCx: Pending
   [**3-14**], [**3-15**] Mycolytic BCx: Pending
   [**3-16**] Catheter tip Cx: NGTD
   [**3-17**] UCx: Pending
   [**3-15**], [**3-17**] C Diff: Negative
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds. NG
   output remains elevated. Serial KUBs after increased oral contrast
   could not be completed given patient discomfort, significant suctioning
   out of contrast. Did start having increased stooling, however. Did not
   tolerate clamp trial yesterday morning
   - Attempt another clamp trial. Consider Reglan per Surgery
   - Dobhoff placed by IR yesterday, will attempt tube feeding and trial
   suctioning residuals from NGT
   - C/w Meropenem/Linezolid given ongoing fevers, abdominal pain
   discontinue Cipro today as can alter mental status and UCx negative for
   bacterial infections
   - Follow-up Surgery recs
   - Follow-up ID recs
   - Continue TPN
   - Serial abdominal exams, trending WBC, fevers, lactate, blood
   pressures
   # Fevers: Dirty urinalysis, urine culture yeast, known intrabdominal
   issues (etiology unclear)
   - Continue antibiotic regimen; started Micafungin overnight in setting
   of elevated betaglucan
   - Re-culture for fever if spikes
   - Will hold on having IR drain liver abscess given interval improvement
   in lesion
   - Continue line holiday with pulled central venous line; will follow-up
   tip culture
    # Respiratory status: Intermittent stridorous/raspy breathing with
   equivocal neck CT findings. Has been relieved with anxiolytics in the
   past and tachypnea correlated with people being in the room. ENT
   visualizedbenign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - Follow ABGs as tolerated
   - PRN dilaudid but discontinue Ativan for now and assess patient
   tachypnea
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Vastly improved, she can hold conversations now about her
   concerns. Holding all psych meds for now per psychiatry X1 week at
   least; still on linezolid. Of note
   - Appreciate ongoing psych recs
   - Will continue pain control with Dilaudid, discontinue Ativan for now
   - Appeared very hypertonic in upper extremities yesterday on exam but
   has been this way. PT/OT following
 will see if they are actively
   following patient given relocation from SICU to MICU
   # ESRD on HD: Tunneled line placed; HD tomorrow. Received pRBC
   yesterday for tachycardia and bumped appropriately. No frank blood
   noted, guaiac neg stools. Likely chronic disease, suppressed marrow
   from acute illness etc.
   - Renally dose medications
   - next HD session today
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has new [**Doctor Last Name 170**] rash felt consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: TPN; trial Dobhoff and Tube Feeds today
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen, in for 17
   days). Ordered for a PICC.
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy:
   Sister: [**Name (NI) 5047**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-17**] 06:20 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   18 Gauge - [**2102-3-16**] 05:34 PM
   PICC Line - [**2102-3-17**] 08:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-19 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2102-3-18**] 01:05 PM
   abdominal US (inc'ing alk phos)
   .
   - GGT elevated, consistent with biliary source of alk phos
   - Renal/RUQ U/S to evaluate for renal abscess or biliary process:
   Report pending
   - Further speciation of [**Female First Name (un) 474**] requested
   - Sister [**Name (NI) 5047**] updated
   - Will get next HD on Monday
   - 500 cc NS bolus for tachycardia in high 110s --> 90-100s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-3-16**] 10:19 PM
   Meropenem - [**2102-3-18**] 08:30 PM
   Micafungin - [**2102-3-19**] 02:00 AM
   Linezolid - [**2102-3-19**] 03:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-18**] 08:10 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-19**] 07:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-19**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 111 (101 - 119) bpm
   BP: 136/47(70) {118/42(61) - 142/69(77)} mmHg
   RR: 38 (12 - 39) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,885 mL
                                                                    655 mL
   PO:
             TF:
                                                                    735 mL
                                                                    276 mL
   IVF:
                                                                  1,150 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                  1,100 mL
   Urine:
   NG:
                                                                  1,150 mL
                                                                    350 mL
   Stool:
   750 mL
   Drains:
   Balance:
                                                                    735 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   7.7 g/dL
   95 mg/dL
   3.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   45 mg/dL
   103 mEq/L
   141 mEq/L
   23.3 %
   14.3 K/uL
        [image002.jpg]
                             [**2102-3-14**]  03:59 AM
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
   WBC
   15.0
   15.5
   17.5
   15.9
   14.6
   14.3
   Hct
   25.8
   24.6
   25.2
   25.5
   24.7
   24.6
   23.3
   Plt
   [**Telephone/Fax (2) 11646**]
   Cr
   2.8
   3.8
   2.2
   3.3
   2.6
   3.5
   TCO2
   31
   26
   29
   Glucose
   125
   106
   142
   71
   91
   95
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:20/42, Alk Phos / T Bili:641/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds, with
   ongoing NG output. Alk phos increasing steadily with sharp rise today.
   Other LFTs stably normal.
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Linezolid given ongoing fevers and suspected
   GI/hepatobiliary source
   - Follow-up ID recs
   - Continue TPN
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Fevers: Has [**Female First Name (un) 474**] in urine (speciation pending) and other known
   suspicious findings on abdominal imaging.
   - Continue antibiotic regimen; started Micafungin overnight in setting
   of elevated betaglucan
   - Re-culture for fever if spikes
   - Consider IR drainage if liver lesion increasing in size - Continue
   line holiday with pulled central venous line; will follow-up tip
   culture
   - Abdominal U/S and Renal U/S today to evaluate for renal abscess or
   hepatobiliary processes
    # Respiratory status: Besides intermittent tachypnea, breathing is
   stable. No further stridor over past several days. Tachypnia has been
   relieved with anxiolytics +/- analgesia. ENT visualized benign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - Follow ABGs as tolerated
   - PRN dilaudid but discontinue Ativan for now and assess patient
   tachypnea
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   all psych meds for now per psychiatry; still on linezolid.
   - Appreciate ongoing psych recs
   - Will continue pain control with Dilaudid, avoid Ativan for now
   - Appeared very hypertonic in upper extremities yesterday on exam but
   has been this way. PT/OT following
   # ESRD on HD: HD yesterday, which patient tolerated well. Occasionally
   leaking urine, but UOP consistently low when last measured (Foley
   pulled last week).
   - Renally dose medications
   - next HD session on Monday
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN Dobhoff and Tube Feeds
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ (multilumen, in for 17
   days). L PICC
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: Sister: [**Name (NI) 5047**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 ANEMIA, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-19**] 04:21 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   18 Gauge - [**2102-3-16**] 05:34 PM
   PICC Line - [**2102-3-17**] 08:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-20 08:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-18**]:
   - GGT elevated, consistent with biliary source of alk phos
   - Renal/RUQ U/S to evaluate for renal abscess or biliary process:
   Report pending
   - Further speciation of [**Female First Name (un) 474**] requested
   - Sister [**Name (NI) 5047**] updated
   - Will get next HD on Monday
   - 500 cc NS bolus for tachycardia in high 110s
   .
   [**3-19**]:
   - GPCs in pairs and clusters 1 of 2 BCx from [**3-15**]
   - ID/Renal aware - will hold off pulling lines for now given
   ?contaminant. Will touch base w/ Psych Mon. Consider switching to Dapto
   ([**Last Name (un) 46**]) to avoid 5HT syndrome w/ Linezolid although per Psych, needs two
   week period off Linezolid
   - NGT clamp trial w/ very little residual suctioned after 5+ hours -->
   but then 200cc residual at 10 hours. Restarted NGT to suction
   - PPD negative
   - Abdominal ultrasound: 1. Normal renal appearance without collection
   or evidence of infection. Pyelonephritis may not be visible via
   ultrasound. 2. Unchanged gallbladder fossa collection measuring
   approximately 3 cm. 3. No new biliary dilatation.
   ** Not great GU visualization? Check w/ rads in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-3-19**] 06:40 PM
   Micafungin - [**2102-3-20**] 02:00 AM
   Linezolid - [**2102-3-20**] 04:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-20**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-20**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100
   HR: 109 (97 - 120) bpm
   BP: 128/39(61) {116/36(58) - 159/62(84)} mmHg
   RR: 40 (12 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,780 mL
                                                                    660 mL
   PO:
             TF:
                                                                    839 mL
                                                                    280 mL
   IVF:
                                                                    940 mL
                                                                    380 mL
   Blood products:
   Total out:
                                                                  1,855 mL
                                                                    250 mL
   Urine:
   NG:
                                                                  1,105 mL
                                                                    250 mL
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                    -75 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   270 K/uL
   7.4 g/dL
   99 mg/dL
   4.4 mg/dL
   24 mEq/L
   4.1 mEq/L
   61 mg/dL
   104 mEq/L
   141 mEq/L
   22.7 %
   14.2 K/uL
        [image002.jpg]
                             [**2102-3-14**]  04:28 AM
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
   WBC
   15.5
   17.5
   15.9
   14.6
   14.3
   14.2
   Hct
   24.6
   25.2
   25.5
   24.7
   24.6
   23.3
   22.7
   Plt
   249
   258
   252
   [**Telephone/Fax (3) 11655**]
   Cr
   3.8
   2.2
   3.3
   2.6
   3.5
   4.4
   TCO2
   31
   26
   29
   Glucose
   106
   142
   71
   91
   95
   99
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:18/39, Alk Phos / T Bili:578/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:85.6 %, Band:3.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.2 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:307 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds, with
   ongoing NG output. Alk phos increasing steadily with sharp rise today.
   Other LFTs stably normal.
   - Repeat clamping trial today
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Linezolid given ongoing fevers and suspected
   GI/hepatobiliary source
   - Follow-up ID recs
   - Continue TPN
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Fevers: Has [**Female First Name (un) 474**] in urine (speciation pending) and other known
   suspicious findings on abdominal imaging. Now also has GPC in
   pairs/clusters, awaiting speciation.
   - Consider changing linezolid to daptomycin, for less interaction with
   psych meds
   - Continue antibiotic regimen
   - Address new positive BCx with ID
   - Re-culture for fever if spikes
   - Consider IR drainage if liver lesion increasing in size - Continue
   line holiday with pulled central venous line; will follow-up tip
   culture
   - F/u report from Abdominal and Renal U/S
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been fluid responsive
    # Respiratory status: Besides intermittent tachypnea, breathing is
   stable. No further stridor over past several days. Tachypnia has been
   relieved with anxiolytics +/- analgesia. ENT visualized benign exam
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - Follow ABGs as tolerated
   - PRN dilaudid but discontinue Ativan for now and assess patient
   tachypnea
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   all psych meds for now per psychiatry; still on linezolid.
   - Appreciate ongoing psych recs
   - Will continue pain control with Dilaudid, avoid Ativan for now
   - Appeared very hypertonic in upper extremities yesterday on exam but
   has been this way. PT/OT following
   # ESRD on HD: HD yesterday, which patient tolerated well. Occasionally
   leaking urine, but UOP consistently low when last measured (Foley
   pulled last week).
   - Renally dose medications
   - next HD session on Monday
   - Daily weights
   - Continue to monitor anemia
   # Anemia: Stable. Receiving EPO with HD
   # Skin breakdown/Rash: C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash.
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter, L IJ multilumen. L PICC
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: Sister: [**Name (NI) 5047**]
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-19**] 04:21 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   18 Gauge - [**2102-3-16**] 05:34 PM
   PICC Line - [**2102-3-17**] 08:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   Further speciation of [**Female First Name (un) **] requested
   Tachycardia responded to fluids
   Denies pain and dyspnea.
   Exam:
   Tm 100
   Follows commands but continues to seem a bit slow to respond.
   Increased tone which she says she has had for years.
   Clear lungs
   Soft abdomen
   Edema
   PICC site and dialysis line site look good.
   Meds, labs, imaging all reviewed.  Alk phos a bit lower than
   yesterday.
   Micro Blood Cultures
   [**3-13**]
 [**4-30**] NGSF
   2/16
 [**4-30**] NGSF (+fungals NGSF)
   2/17
 [**3-2**] growing GPCs in pairs/clusters (newly reported this
   morning); fungal/AFB NGSF
   [**3-16**]
 central line tip NGSF
   [**3-17**]
 [**4-30**] NGSF
   Assessment and Plan
   68F h/o CAD, bipolar s/p chole and ERCP, course c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy.  Now extubated, on hemodialysis, and beginning tube
   feeds.  Continues to have low-grade fever.
   Positive blood culture from [**3-15**]
   Not clear at present whether this represents a contaminant or
   infection.  Given slow-to-grow nature, coag-negative Staph probably
   most likely.  Eight subsequent cultures NGSF, and a long-dwelling
   central line has been removed.  PICC line was placed on [**3-17**], after CVL
   removed and after a line holiday (except for Hickman) while on
   linezolid.  Hickman, though, has been in place throughout.  Therefore,
   management of this is not straightforward.  Will discuss with ID and
   renal.
   Fever
   On ABX for liver abscess, which appears to have gotten somewhat
   smaller.
   Beta glucan (+)
 on micafungin for concern of invasive disease.
   Awaiting speciation.
   [**3-15**] blood culture management as above
   Continue present antimicrobials.
   Abnormal imaging / bowel ischemia /etc.
   Continue tube feeds, which she is tolerating.
   Continue present ABX.
   Encephalopathy
   In general, seems to have improved but plateaued.  Hypertonia is a more
   chronic finding (per patient).
   Discuss with ID whether we could use a non-MAOI antibiotic (e.g.
   dapto), to allow resumption of her psych meds
   Acute renal failure
   HD per renal
   Malnutrition
   Now on tube feeds.
   Elevated alkaline phosphatase
   Await RUQ U/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 118**].
   Could be related to TPN
   Other issues as per ICU team.
   Critically ill: 40 min
   ------ Protected Section Addendum

2102-03-21 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-3-20**] 09:29 AM
   from HD line
 ULTRASOUND - At [**2102-3-20**] 02:13 PM
 STOOL CULTURE - At [**2102-3-20**] 06:13 PM
 BLOOD CULTURED - At [**2102-3-20**] 10:31 PM
 URINE CULTURE - At [**2102-3-20**] 10:31 PM
 FEVER - 101.3
F - [**2102-3-20**] 08:00 PM
   - IR: to drain hepatic fluid in AM, she NPO after midnight
   - LENIs: no DVT
   - D/c'd Linezolid, started Daptomycin
   - 1 unit pRBCs during HD
   - Clamping NG for long term, given low residuals
   - T 101.3 at [**2092**], pan-cultured (including fungal cx and beta gluc),
   CXR
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-20**] 04:02 AM
   Daptomycin - [**2102-3-20**] 02:14 PM
   Meropenem - [**2102-3-20**] 08:00 PM
   Micafungin - [**2102-3-21**] 02:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-20**] 04:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2102-3-21**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.9
C (100.3
   HR: 107 (98 - 127) bpm
   BP: 133/47(67) {111/47(67) - 149/71(86)} mmHg
   RR: 22 (13 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,501 mL
                                                                     71 mL
   PO:
             TF:
                                                                    811 mL
   IVF:
                                                                    690 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                    325 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    325 mL
   Stool:
   Drains:
   Balance:
                                                                  1,176 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   Tachypnic
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   284 K/uL
   9.1 g/dL
   93 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   36 mg/dL
   102 mEq/L
   141 mEq/L
   26.4 %
   19.7 K/uL
        [image002.jpg]
                             [**2102-3-14**]  03:46 PM
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
   WBC
   15.5
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   Hct
   24.6
   25.2
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   Plt
   249
   258
   252
   [**Telephone/Fax (3) 11655**]
   284
   Cr
   3.8
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   TCO2
   26
   29
   Glucose
   106
   142
   71
   91
   95
   99
   93
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:24/62, Alk Phos / T Bili:680/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:79.0 %, Band:1.0 %,
   Lymph:12.0 %, Mono:6.0 %, Eos:1.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.9 mmol/L, Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: [**3-20**] Lower extrem U/S: Pending
   [**3-20**] CXR: Pending
   Microbiology: [**3-15**] BCx: Coag Neg Staph
   [**3-14**] UCx: > 100,000 Yeast, presumptively [**Female First Name (un) 474**] albicans;
   sensitivities pending
   C Diff studies: all negative
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds, with
   ongoing NG output. Alk phos remains elevated at 680. Other LFTs stably
   normal.
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and suspected
   GI/hepatobiliary source
   - Repeat lactate
   - Follow-up ID recs
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Fevers: Source remains elusive. Has [**Female First Name (un) 474**] in urine (speciation
   pending) and other known suspicius findings on abdominal imaging. Also
   has GPC in pairs/clusters, but coag neg staph so likely contaminant
   (also, from line that has since been pulled and culture tip so far no
   growth to date). Liver collection of blood clot was re-drained this
   morning. Bilateral LENIs negative.
   - Continue daptomycin, switched from linezolid yesterday
   - Continue micafungin
   - Re-culture for fever if spikes but ?drug fever or rheumatological
   etiology
   - Follow-up tip culture, blood/urine cultures, new liver collection
   aspirate cultures
   - Given increasing temperature curve since [**3-6**], will
   re-evaluate med changes and events during that time that could
   elucidate fever etiology
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been fluid responsive
   - Will get pRBC with hemodialysis
   - Fluid boluses (500cc) PRN
   - Restarted Ativan yesterday given patient eliciting significant
   anxiety
    # Respiratory status: Besides intermittent tachypnea, breathing is
   stable. No further stridor over past several days. Tachypnia has been
   relieved with anxiolytics +/- analgesia. ENT visualized benign exam.
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment PRN
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   all psych meds for now per psychiatry; still on linezolid.
- Appreciate ongoing psych recs
 will consider restarting citalopram 10mg daily
 with oxcarbazepine 150mg
   daily (lower doses given renal failure) later
   - Will continue pain control with Dilaudid, Ativan for anxiety
   - Appeared very hypertonic in upper extremities yesterday on exam but
   has been this way. PT/OT following
   # ESRD on HD: HD yesterday, which patient tolerated well. Occasionally
   leaking urine, but UOP consistently low when last measured (Foley
   pulled last week).
   - Renally dose medications
   - next HD session on Monday
   - Daily weights
   - Continue to monitor anemia
   # Anemia: Stable. Receiving EPO with HD
   # Skin breakdown/Rash: /w miconazole cream, per wound care recs. Coccyx
   w/ deep tissue injury, macerated rash on gluteal folds/buttocks.  Also
   has intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug
   rash. Stable on repeat physical examination yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   - Physical Therapy working with patient
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter. L PICC. PIV. Restarted Foley
   given incontinence and skin breakdown
   CODE STATUS: full
   EMERGENCY CONTACTS:
   Health Care Proxy: Sister: [**Name (NI) 5047**] (flying home this week)
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   18 Gauge - [**2102-3-16**] 05:34 PM
   PICC Line - [**2102-3-17**] 08:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-22 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2102-3-21**] 01:53 PM
   .
   - Added diff: no bands, normal eos; Lactate 1.9
   - IR guided re-drainage of biopsy: only produced 2-3 cc of
   serosanguinous fluid -> Gram stain with 2+ PMNs, no microorganisms
   - Renal recs: HD tomorrow
   - ID recs: Consider nephritis as source of fever, given pyuria. Change
   anti-fungal to fluconazole IF sensitive. Consider sinus imaging, given
   prolonged NG tube placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2102-3-20**] 04:02 AM
   Daptomycin - [**2102-3-20**] 02:14 PM
   Erythromycin - [**2102-3-21**] 02:11 PM
   Meropenem - [**2102-3-21**] 06:20 PM
   Micafungin - [**2102-3-21**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2102-3-21**] 10:23 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-22**] 12:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-22**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37
C (98.6
   HR: 110 (100 - 122) bpm
   BP: 121/45(62) {114/45(62) - 158/73(92)} mmHg
   RR: 20 (13 - 48) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                    646 mL
                                                                    310 mL
   PO:
                                                                     70 mL
             TF:
                                                                    262 mL
                                                                    238 mL
   IVF:
                                                                    284 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                     75 mL
                                                                      0 mL
   Urine:
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    571 mL
                                                                    310 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Increased
   Labs / Radiology
   320 K/uL
   8.2 g/dL
   121 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   62 mg/dL
   105 mEq/L
   141 mEq/L
   26.2 %
   17.6 K/uL
        [image002.jpg]
                             [**2102-3-15**]  03:04 AM
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
   WBC
   15.5
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   Hct
   24.6
   25.2
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   Plt
   249
   258
   252
   [**Telephone/Fax (3) 11655**]
   284
   320
   Cr
   3.8
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   TCO2
   29
   Glucose
   106
   142
   71
   91
   95
   99
   93
   121
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:24/62, Alk Phos / T Bili:680/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:81.7 %, Band:1.0 %,
   Lymph:10.8 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
   # Fevers: Source remains elusive. Has [**Female First Name (un) 474**] in urine (speciation
   pending) and other known suspicious findings on abdominal imaging. Also
   has GPC in pairs/clusters, but coag neg staph so likely contaminant
   (also, from line that has since been pulled and culture tip so far no
   growth to date). Bilateral LENIs negative. Liver collection of blood
   clot was re-drained yesterday
 GS showed 2+ PMNs, culture pending
   - Continue daptomycin, switched from linezolid two days ago
   - Continue micafungin for now
 pending [**Female First Name (un) **] albicans confirmation
   and Fluconazole sensitivities (UTexas)
   - Re-culture for fever if spikes but ?drug fever or rheumatological
   etiology
 no med changes/events [**2103-3-6**] associated with increasing
   fever curve starting then
   - Appreciate ID recs: Will order CT sinus and TTE; consider HD tunneled
   line holiday
   - Follow-up tip culture, blood/urine cultures, new liver collection
   aspirate cultures
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds, with
   ongoing NG output. Lactate low yesterday, un-dialyzed.
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and suspected
   GI/hepatobiliary source
   - Follow-up ID recs: Will order CT sinus and TTE
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been fluid responsive
   - Will get pRBC with hemodialysis
   - Fluid boluses (500cc) PRN
   - Restarted Ativan yesterday given patient eliciting significant
   anxiety
    # Respiratory status: Besides intermittent tachypnea, breathing is
   stable. No further stridor over past several days. Tachypnia has been
   relieved with anxiolytics +/- analgesia. ENT visualized benign exam.
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment PRN
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   all psych meds for now per psychiatry; still on linezolid.
- Appreciate ongoing psych recs
 will consider restarting citalopram 10mg daily
 with oxcarbazepine 150mg
   daily (lower doses given renal failure) later
   - Will continue pain control with Dilaudid, Ativan for anxiety
   - Appeared very hypertonic in upper extremities on exam but has been
   this way. PT/OT following
   # ESRD on HD:
   - Renally dose medications
   - HD today
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: /w miconazole cream, per wound care recs. Coccyx
   w/ deep tissue injury, macerated rash on gluteal folds/buttocks.  Also
   has intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug
   rash. Stable on repeat physical examination yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter. L PICC. PIV. Restarted Foley
   given incontinence and skin breakdown
   CODE STATUS: full
   EMERGENCY CONTACTS:  [**Name2 (NI) **] attempt to organize family meeting
   Health Care Proxy: Sister: [**Name (NI) 5047**] (flying home this week)
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 LIVER ABSCESS
 ANEMIA, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2102-3-10**] 12:16 PM
   PICC Line - [**2102-3-17**] 08:58 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-23 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2102-3-22**] 06:29 PM
   [**3-21**]:
   - IR guided re-drainage of biopsy: only produced 2-3 cc of
   serosanguinous fluid -> Gram stain with 2+ PMNs, no microorganisms
   - Renal recs: HD [**3-22**]
   - ID recs: Consider nephritis as source of fever, given pyuria. Change
   anti-fungal to fluconazole IF sensitive. Consider sinus imaging, given
   prolonged NG tube placement
   .
   [**3-22**]:
   - Cultures (urine, blood, abscess etc) NGTD
   - ID recs: Ordered CT sinus, TTE. Holding on CT abd for now
   - Not febrile after HD - generally low-grade temps intermittently
   - IR pulled HD tunnelled line. Renal wants tunnelled HD replaced on Fri
   and will HD on Sat. (Difficult to get tunnelled HD line last time given
   low-grade temps - but please try as renal prefers tunnelled HD line)
   -added on TSH (4.4 - mildly elev) and free t4 (WNL) for FUO work up.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2102-3-21**] 10:00 PM
   Daptomycin - [**2102-3-22**] 02:00 PM
   Erythromycin - [**2102-3-22**] 02:34 PM
   Meropenem - [**2102-3-22**] 06:36 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-22**] 04:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-23**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.2
   HR: 112 (100 - 137) bpm
   BP: 125/51(70) {99/45(60) - 146/70(82)} mmHg
   RR: 36 (16 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,195 mL
                                                                    303 mL
   PO:
             TF:
                                                                    848 mL
                                                                    236 mL
   IVF:
                                                                    347 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,412 mL
                                                                     17 mL
   Urine:
                                                                    112 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,217 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   348 K/uL
   7.9 g/dL
   121 mg/dL
   2.8 mg/dL
   29 mEq/L
   3.5 mEq/L
   51 mg/dL
   103 mEq/L
   143 mEq/L
   23.3 %
   22.3 K/uL
        [image002.jpg]
                             [**2102-3-15**]  03:50 PM
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
   WBC
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   Hct
   25.2
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   Plt
   258
   252
   253
   255
   [**Telephone/Fax (2) 11711**]48
   Cr
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   TCO2
   29
   Glucose
   142
   71
   91
   95
   99
   93
   121
   121
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:27/59, Alk Phos / T Bili:666/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:81.7 %, Band:1.0 %,
   Lymph:10.8 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 LIVER ABSCESS
 ANEMIA, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
   # Fevers: Source remains elusive. Has [**Female First Name (un) 474**] in urine (speciation
   pending) and other known suspicious findings on abdominal imaging. Also
   has GPC in pairs/clusters, but coag neg staph so likely contaminant
   (also, from line that has since been pulled and culture tip so far no
   growth to date). Bilateral LENIs negative. Liver collection of blood
   clot was re-drained yesterday
 GS showed 2+ PMNs, culture pending
   - Continue daptomycin, switched from linezolid two days ago
   - Continue micafungin for now
 pending [**Female First Name (un) **] albicans confirmation
   and Fluconazole sensitivities (UTexas)
   - Re-culture for fever if spikes but ?drug fever or rheumatological
   etiology
 no med changes/events [**2103-3-6**] associated with increasing
   fever curve starting then
   - Appreciate ID recs: Will order CT sinus and TTE; consider HD tunneled
   line holiday
   - Follow-up tip culture, blood/urine cultures, new liver collection
   aspirate cultures
    # Abdominal distention/ileus: Tolerating post-pyloric tube feeds, with
   ongoing NG output. Lactate low yesterday, un-dialyzed.
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and suspected
   GI/hepatobiliary source
   - Follow-up ID recs: Will order CT sinus and TTE
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been fluid responsive
   - Will get pRBC with hemodialysis
   - Fluid boluses (500cc) PRN
   - Restarted Ativan yesterday given patient eliciting significant
   anxiety
    # Respiratory status: Besides intermittent tachypnea, breathing is
   stable. No further stridor over past several days. Tachypnia has been
   relieved with anxiolytics +/- analgesia. ENT visualized benign exam.
   - Bilateral chest PT and nebs every 4 h
   - 50% aerosol face shovel for improved patient comfort when possible
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   # Conjunctival hemorrhage: Stable
   - Continue erythromycin ointment PRN
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   all psych meds for now per psychiatry; still on linezolid.
   - Appreciate ongoing psych recs
 will consider restarting citalopram
   10mg daily with oxcarbazepine 150mg
   daily (lower doses given renal failure) later
   - Will continue pain control with Dilaudid, Ativan for anxiety
   - Appeared very hypertonic in upper extremities on exam but has been
   this way. PT/OT following
   # ESRD on HD:
   - Renally dose medications
   - HD today
   - Daily weights
   - Continue to monitor anemia
   # Skin breakdown/Rash: /w miconazole cream, per wound care recs. Coccyx
   w/ deep tissue injury, macerated rash on gluteal folds/buttocks.  Also
   has intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug
   rash. Stable on repeat physical examination yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Tunneled R subclavian HD catheter. L PICC. PIV. Restarted Foley
   given incontinence and skin breakdown
   CODE STATUS: full
   EMERGENCY CONTACTS:  [**Name2 (NI) **] attempt to organize family meeting
   Health Care Proxy: Sister: [**Name (NI) 5047**] (flying home this week)
   Sister (just broke her ankle over the weekend): [**First Name8 (NamePattern2) 2245**] [**Last Name (NamePattern1) 11105**],
   [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-23**] 03:58 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2102-3-17**] 08:58 PM
   20 Gauge - [**2102-3-23**] 04:51 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-24 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2102-3-23**] 09:00 AM
 STOOL CULTURE - At [**2102-3-23**] 11:22 AM
 PICC LINE - STOP [**2102-3-23**] 11:28 AM
   Going for HD tunneled line at IR today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2102-3-21**] 10:00 PM
   Daptomycin - [**2102-3-22**] 02:00 PM
   Erythromycin - [**2102-3-22**] 02:34 PM
   Meropenem - [**2102-3-23**] 05:51 PM
   Fluconazole - [**2102-3-23**] 11:09 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-23**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-23**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-24**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.8
C (98.3
   HR: 113 (103 - 128) bpm
   BP: 147/62(83) {104/33(50) - 175/75(99)} mmHg
   RR: 27 (12 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    + 13L LOS
   Total In:
                                                                  1,867 mL
                                                                    299 mL
   PO:
             TF:
                                                                    817 mL
                                                                    258 mL
   IVF:
                                                                    550 mL
                                                                     40 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    410 mL
                                                                     35 mL
   Urine:
                                                                    110 mL
                                                                     35 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,457 mL
                                                                    264 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   Labs / Radiology
   429 K/uL
   8.7 g/dL
   109 mg/dL
   3.7 mg/dL
   26 mEq/L
   4.4 mEq/L
   81 mg/dL
   107 mEq/L
   146 mEq/L
   26.4 %
   23.1 K/uL
        [image002.jpg]
   - [**3-20**] beta-gluc (drawn when spiking temp): >500 pg/mL
   - Face CT: Periapical lucency at 7th, 8th, +/- 5th [**Doctor First Name **] teeth
   - Echo: no obvious vegetations
   - hct 23.3 -> 1 unit pRBCs -> 26.4
                             [**2102-3-16**]  12:04 AM
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
   WBC
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   Hct
   25.2
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   Plt
   258
   252
   253
   255
   [**Telephone/Fax (3) 11728**]
   Cr
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   Glucose
   142
   71
   91
   95
   99
   93
   121
   121
   109
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:26/48, Alk Phos / T Bili:621/0.7,
   Amylase / Lipase:362/30, Differential-Neuts:81.7 %, Band:1.0 %,
   Lymph:10.8 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan:  68F s/p chole and ERCP, c/b sepsis requiring
   intubation and pressors, VRE bacteremia, renal failure requiring HD --
   was improving then transferred to ICU for tachypnea, GNRs and G+cocci
   from liver biopsy.
    # Fevers & Leukocytosis: Afebrile since HD line removed. Last fever
   was [**3-22**] when 100.7. WBC continues to climb. CT sinus notable for
   periapical densities, ID is +/- re having dentist evaluate. For beta
   gluc > 500 while on Micafungin and continued urinary cultures +yeast,
   and presumed Albicans identification, stopped Micafungin and started
   Fluconazole. NG and PICC out. Thyroid studies nml, LENIs negative, no
   med changes track with fever curve.
   - Continue daptomycin, fluconazole
   - Re-culture for fever if spikes
   - If she decompensates can restart Micafungin
   - Periapical lucencies might be source for low-grade fevers, but not
   likely -> consider Dental c/s
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back ~Wednesday. Call 7-1492 next week if haven't heard; can
   also check "outside labs / other fluids"
   - F/u PICC cx
   # Hypertonicity: Predominantly upper extremity rigidity. Hyperreflexic.
   Moving legs/feet freely. Opening/closing eyes on command. Answering
   questions appropriately
   - Neuro consult for ?syringomyelia or other UMN lesion
   - PT following, consider OT consult
   # Anemia: Good response to 1 unit pRBCs. Hct 23.3 -> 1 unit pRBCs ->
   26.4. Guiac + stool. Restarted her PPI. Transfusions seem to help her
   tachycardia.
   - Transfuse as needed
   - Epo at HD
   # Abdominal distention / ileus: Resolving. But in setting of
   persistently elevated / rising Alk Phos of GB origin (given GGT).
   Tolerating post-pyloric tube feeds, with diminished NGT output. Seen by
   ERCP last night, they had no obvious explanations for the elevated Alk
   Phos and fevers. ID recs CT abd/pelvis
   - clarify these TWO abdominal fluid collections with ERCP, surgery, do
   we know what they are?
   - F/u CDiff
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and possibility of
   GI/hepatobiliary source
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach of long-standing now, likely [**2-28**] pain vs
   anxiety vs hypovolemia. Has been +/- fluid responsive. Of note when
   tachycardia resolves, BP sinks.
   - Fluid boluses PRN
   - Remained tachy despite blood yesterday
   - Ativan given patient eliciting significant anxiety
   # Respiratory status: Besides Tachypnea has been relieved with
   anxiolytics +/- analgesia.
   - Bilateral chest PT and nebs every 4 h
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   # Conjunctival hemorrhage: Stable; can d/c erythromycin ointment
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   psych meds while awaiting fever resolution / cool off after IR-guided
   aspiration.
   - Once we have source control for fever, restart citalopram 10mg daily
   with oxcarbazepine 150mg daily (lower doses given renal failure)
   - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: Going to IR today for tunneled HD line.
   - HD Saturday
   - Renally dose medications
   - Daily weights
   - Continue to monitor anemia
 on Epo as outpatient
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff. Can d/c fingersticks, insulin SS, as
   hyperglycemia is only mild, often normoglycemia
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Restarted Foley given incontinence and skin breakdown. PIV x2,
   Tunneled HD line to be placed today
   CODE STATUS: full
   EMERGENCY CONTACTS:  [**Name2 (NI) **] attempt to organize family meeting
   Health Care Proxy: Sister: [**Name (NI) 5047**] (flew home this week)
   Sister (local): [**Name (NI) 2245**] [**Last Name (NamePattern1) 11105**], [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]

2102-03-25 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-3-24**] 12:31 PM
   tunneled HD catheter
 PAN CULTURE - At [**2102-3-25**] 01:45 AM
 FEVER - 101.1
F - [**2102-3-25**] 12:00 AM
   .
   - ID recs [**3-23**]: Start fluconazole 400 mg IV x 1 then 200 mg QD given
   urinary concentration, d/c micafungin; CT abdomen; C Diff; if she
   decompensates can restart micafungin; CT sinus notable for periapical
   densities, ID is +/- re having dentist evaluate
   - Micro lab: presumed [**Female First Name (un) 474**] albicans. Sensies of this [**3-14**] urine cx
   being worked up in [**State 1771**], will be back ~Wednesday. Call 7-1492 next
   week if haven't heard; can also check "outside labs / other fluids"
   - hct 23.3 -> 1 unit pRBCs -> AM [**3-24**] result
   - [**3-20**] beta-gluc (drawn when spiking temp): >500 pg/mL
   - Rads re face CT: Periapical lucency at 7th, 8th, +/- 5th [**Doctor First Name **] teeth,
   might be source for low-grade fevers, or might not be.
   - NG, PICC pulled
   - guiac + stool. Restarted her PPI
   - Echo: no obvious vegetations
   - ERCP: no obvious explanations for elevated Alk Phos, fevers
   [**3-24**]:
   - Seen by neuro: recommend MRI of head/C-spine to evaluate for UMN
   pathology
   - Tunneled HD line placed
   - Fingersticks/sliding scale d/c'd
   - Neuro consult: MRI w/o contrast of brain/cervical spine, to look for
   lesion between pyramidal tracts and cervical cord. Also recommend
   restarting oxcarbazepine, and monitoring sodium levels; should page
   psych with FYI that we're starting trileptal in morning
   [**3-25**]:
   - Spiked temp to 101.1 -> pan-cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2102-3-22**] 02:34 PM
   Daptomycin - [**2102-3-24**] 02:00 PM
   Meropenem - [**2102-3-24**] 06:00 PM
   Fluconazole - [**2102-3-24**] 07:43 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2102-3-24**] 12:12 PM
   Pantoprazole (Protonix) - [**2102-3-24**] 07:42 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-25**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.2
C (99
   HR: 108 (103 - 123) bpm
   BP: 139/48(70) {116/42(61) - 168/78(101)} mmHg
   RR: 21 (17 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
                  Total In:
                                                                    961 mL
                                                                    180 mL
   PO:
                  TF:
                                                                    651 mL
                                                                    180 mL
   IVF:
                                                                    310 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    100 mL
   Urine:
                                                                    200 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    761 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Increased
   Labs / Radiology
   455 K/uL
   8.0 g/dL
   102 mg/dL
   4.4 mg/dL
   26 mEq/L
   5.0 mEq/L
   98 mg/dL
   109 mEq/L
   149 mEq/L
   24.5 %
   23.4 K/uL
        [image002.jpg]
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
   WBC
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   Hct
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   Plt
   258
   252
   253
   255
   [**Telephone/Fax (3) 11728**]
   455
   Cr
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   Glucose
   142
   71
   91
   95
   99
   93
   121
   121
   109
   102
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:38/100, Alk Phos / T Bili:841/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:81.7 %, Band:1.0 %,
   Lymph:10.8 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
    # Fevers & Leukocytosis: Afebrile since HD line removed until MN this
   morning. WBC continues to climb. CT sinus notable for periapical
   densities, ID is +/- re having dentist evaluate. For beta gluc > 500
   while on Micafungin and continued urinary cultures +yeast, and presumed
   Albicans identification, stopped Micafungin and started Fluconazole. NG
   and PICC out. Thyroid studies nml, LENIs negative, no med changes track
   with fever curve.
   - Continue daptomycin, fluconazole; if decompensates can restart
   micafungin
   - Re-culture for fever if spikes
   - Periapical lucencies might be source for low-grade fevers, but not
   likely -> consider Dental c/s given continued fevers
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back ~Wednesday. Call 7-1492 next week if haven't heard; can
   also check "outside labs / other fluids"
   - F/u PICC cx and outstanding blood/urine cultures
   # Hypertonicity: Predominantly upper extremity rigidity. Hyperreflexic.
   Moving legs/feet freely. Opening/closing eyes on command. Answering
   questions appropriately
   - Appreciate neuro consult for ?syringomyelia or other UMN lesion: MRI
   of head/C-spine this morning
   - PT following
 consider discussing with OT
   - Will restart oxcarbazepine 150mg daily
   # Anemia: Good response to 1 unit pRBCs. Hct 23.3 -> 1 unit pRBCs ->
   26.4. Guiac + stool. Restarted her PPI. Transfusions seem to help her
   tachycardia.
   - Transfuse as needed
   - Epo at HD
   # Abdominal distention / ileus: Resolving. But in setting of
   persistently elevated / rising Alk Phos of GB origin (given GGT).
   Tolerating post-pyloric tube feeds, with diminished NGT output. Seen by
   ERCP last night, they had no obvious explanations for the elevated Alk
   Phos and fevers.
   - Consider ID recommendation of  CT abd/pelvis given fever overnight
   - F/u CDiff
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and possibility of
   GI/hepatobiliary source
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach of long-standing now, likely [**2-28**] pain vs
   anxiety vs hypovolemia. Has been +/- fluid responsive. Of note when
   tachycardia resolves, BP sinks.
   - Fluid boluses PRN
   - Ativan given patient eliciting significant anxiety
   # Respiratory status: Besides Tachypnea has been relieved with
   anxiolytics +/- analgesia.
   - Bilateral chest PT and nebs every 4 h
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   # Conjunctival hemorrhage: Stable; can d/c erythromycin ointment
   # Altered MS: Stable. Responding appropriately to questioning. Holding
   psych meds while awaiting fever resolution / cool off after IR-guided
   aspiration.
   - Once we have source control for fever, restart citalopram 10mg daily
   with oxcarbazepine 150mg daily (lower doses given renal failure)
   - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: Going to IR today for tunneled HD line.
   - HD Saturday
   - Renally dose medications
   - Daily weights
   - Continue to monitor anemia
 on Epo as outpatient
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Wound better looking after surgical
   debridement and packing
   - [**Hospital1 **] dressing changes, wet to dry
   - Appreciate wound care recs
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff. Can d/c fingersticks, insulin SS, as
   hyperglycemia is only mild, often normoglycemia
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: Restarted Foley given incontinence and skin breakdown. PIV x2,
   Tunneled HD line to be placed today
   CODE STATUS: full
   EMERGENCY CONTACTS:  [**Name2 (NI) **] attempt to organize family meeting
   Health Care Proxy: Sister: [**Name (NI) 5047**] (flew home this week)
   Sister (local): [**Name (NI) 2245**] [**Last Name (NamePattern1) 11105**], [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
 LIVER ABSCESS
 ANEMIA, OTHER
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Abdominal distension
 IMPAIRED SKIN INTEGRITY
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 ANEMIA, OTHER
 RASH
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   HD dependent
 ACIDOSIS, METABOLIC
 .H/O CHOLECYSTITIS, CALCULOUS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 PSYCHIATRIC DISEASE, OTHER (INCLUDING SCHIZOPHRENIA, PERSONALITY
   DISORDERS)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-25 12:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   65 yo women with h/o schizoaffective/bipolar disorder.  Admited for lap
   chole after ERCP for cholangitis. Course complicated by bacteremia,
   sepsis.  Recent problems include persistent fever without clear source,
   liver abscess, ARF on HD.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-3-24**] 12:31 PM
   tunneled HD catheter
 PAN CULTURE - At [**2102-3-25**] 01:45 AM
 FEVER - 101.1
F - [**2102-3-25**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2102-3-22**] 02:34 PM
   Daptomycin - [**2102-3-24**] 02:00 PM
   Meropenem - [**2102-3-24**] 06:00 PM
   Fluconazole - [**2102-3-24**] 07:43 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2102-3-24**] 12:12 PM
   Pantoprazole (Protonix) - [**2102-3-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-25**] 08:00 AM
   Other medications:
   hep s/q
   nephrocaps
   fluconazole
   trileptil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-25**] 12:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 132 (104 - 132) bpm
   BP: 136/77(92) {116/43(62) - 168/78(101)} mmHg
   RR: 37 (17 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                    961 mL
                                                                    462 mL
   PO:
             TF:
                                                                    650 mL
                                                                    402 mL
   IVF:
                                                                    310 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    170 mL
   Urine:
                                                                    200 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    761 mL
                                                                    292 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   455 K/uL
   102 mg/dL
   4.4 mg/dL
   26 mEq/L
   5.0 mEq/L
   98 mg/dL
   109 mEq/L
   149 mEq/L
   24.5 %
   23.4 K/uL
        [image002.jpg]
                             [**2102-3-16**]  03:45 AM
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
   WBC
   17.5
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   Hct
   25.5
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   Plt
   258
   252
   253
   255
   [**Telephone/Fax (3) 11728**]
   455
   Cr
   2.2
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   Glucose
   142
   71
   91
   95
   99
   93
   121
   121
   109
   102
   Other labs: PT / PTT / INR:13.1/24.4/1.1, CK / CKMB /
   Troponin-T:43/40/0.07, ALT / AST:38/100, Alk Phos / T Bili:841/0.6,
   Amylase / Lipase:/30, Differential-Neuts:81.7 %, Band:1.0 %, Lymph:10.8
   %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:324 IU/L, Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:4.8
   mg/dL
   Assessment and Plan
   Fevers:  increased AST and alkphos are isolated - less likely a
   cholestatic pattern, but will get RUQ U/S in case.
   poor MS:  likely due to underlying psych disorder.  Started on
   trileptil
   hypertonicity:  getting MRI to r/o C-spine trauma with intubations.
   ?liver asbcess:  hematoma that might be infected.  Being covered
   broadly
   hypernatremia:  increase free water.
   anemia: responded to PRBCs.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-25**] 05:07 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-03-26 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2102-3-25**] 03:00 PM
   of the head and cervical spine
   Plan for HD [**2-/2021**]
 FEVER - 101.4
F - [**2102-3-25**] 07:00 PM
   101.1 earlier yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-3-24**] 02:00 PM
   Meropenem - [**2102-3-25**] 06:00 PM
   Fluconazole - [**2102-3-25**] 08:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.4
C (101.1
   HR: 115 (103 - 135) bpm
   BP: 131/56(75) {116/46(64) - 158/81(92)} mmHg
   RR: 24 (16 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,290 mL
                                                                    406 mL
   PO:
             TF:
                                                                    840 mL
                                                                    250 mL
   IVF:
                                                                    210 mL
                                                                     56 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                     45 mL
   Urine:
                                                                    215 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   At her baseline tachycardia and tachypnea
   Responds to questions, does not move arms
   Hypertonic
   CTA
   S1 S1
   Soft NT ND
   Labs / Radiology
   464 K/uL
   7.7 g/dL
   125 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.5 mEq/L
   57 mg/dL
   104 mEq/L
   144 mEq/L
   23.4 %
   22.8 K/uL
        [image002.jpg]
   ALT: 28 AP: 616 Tbili: 0.6 AST: 53 LDH: 358
   RUQ U/S [**3-25**]:
   1. Decreased size of collection in the GB fossa. 2. Prior Seg V
   collection not visualized. 3. CBD measures 2mm.
   Leuk Tr Bld Tr Nitr Neg Prot 30 Glu Neg Ket Neg
   RBC 6 WBC 25 Bact None Yeast None Epi 0 Amorph Rare
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
   WBC
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   22.8
   Hct
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   23.4
   Plt
   [**Telephone/Fax (3) 11760**]29
   455
   464
   Cr
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   3.1
   Glucose
   71
   91
   95
   99
   93
   121
   121
   109
   102
   125
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:42/40/0.07, ALT / AST:28/53, Alk Phos / T Bili:616/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:81.7 %, Band:1.0 %,
   Lymph:10.8 %, Mono:5.8 %, Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:358 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
     # Fevers & Leukocytosis: Spiked second fever yesterday night on
   Meropenem/Daptomycin/Fluconazole; WBC remains elevated. CT sinus
   notable for periapical densities, ID is +/- re having dentist evaluate.
   Changed from Micafungin to Fluconazole for urinary cultures +yeast, and
   presumed Albicans identification. Thyroid studies nml, LENIs negative,
   no med changes track with fever curve. Alk phos continues to be
   elevated but slightly improved today (vs yesterday). Sterile pyuria.
   - F/u cultures
   - Consider tagged WBC scan for localization of infectious source if
   fever persists
   - Continue daptomycin, fluconazole; if decompensates can restart
   micafungin
   - Re-culture for fever if spikes
   - Periapical lucencies might be source for low-grade fevers -> consider
   Dental c/s given continued fevers; RUQ ultrasound unrevealing. Will
   compare with MRI and consult Dental if consistent.
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back ~Wednesday. Call 7-1492 next week if haven't heard; can
   also check "outside labs / other fluids"
   # Hypertonicity: Predominantly upper extremity rigidity. Hyperreflexic.
   Moving legs/feet freely. Opening/closing eyes on command. Answering
   questions appropriately
   - Appreciate neuro consult for ?syringomyelia or other UMN lesion: MRI
   of head/C-spine yesterday and will follow-up results
   - PT following
 consider discussing with OT
   - Have restarted oxcarbazepine 150mg daily
   # Anemia: Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.
   - Transfuse as needed
   - Monitor Hct
   - Epo w/HD
   # Abdominal distention / ileus: Resolving. But in setting of
   persistently elevated / rising Alk Phos of GB origin (given GGT).
   Tolerating post-pyloric tube feeds, with diminished NGT output. RUQ U/s
   within normal limits yesterday
   - C/w tube feeding through Dobhoff
   - C/w Meropenem/Daptomycin given ongoing fevers and possibility of
   GI/hepatobiliary source
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   # Respiratory status: Besides Tachypnea has been relieved with
   anxiolytics +/- analgesia.
   - Bilateral chest PT and nebs every 4 h
   - Continue aspiration precautions and PPI
   - PRN dilaudid and Ativan for tachypnea given self-elicited anxiety
   - Will try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   # Hypernatremia: Resolved
   - recheck daily
   # Altered MS: Stable. Responding appropriately to questioning.
   - Monitor her given restarting of trileptal yesterday
   - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: HD tomorrow, -12L off
   - Renally dose medications
   - Daily weights
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Stable
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line; Foley
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full  -- call out possibly during the week
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week)
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]

2102-03-26 11:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo women with schizoaffective disorder admitted with sepsis,
   respiratory failure, renal failure, from likely biliary source.
   recent issues include persistent fevers without source.  poor MS.
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2102-3-25**] 03:00 PM
   of the head and cervical spine
 FEVER - 101.4
F - [**2102-3-25**] 07:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-3-24**] 02:00 PM
   Meropenem - [**2102-3-25**] 06:00 PM
   Fluconazole - [**2102-3-25**] 08:03 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-26**] 08:00 AM
   Other medications:
   nephrocaps
   fluconazole
   trileptil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Edema
   Nutritional Support: No(t) NPO, Tube feeds
   Genitourinary: Dialysis
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2102-3-26**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38
C (100.4
   HR: 106 (103 - 125) bpm
   BP: 134/64(80) {116/46(64) - 140/81(85)} mmHg
   RR: 19 (16 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,290 mL
                                                                    645 mL
   PO:
             TF:
                                                                    840 mL
                                                                    399 mL
   IVF:
                                                                    210 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                     45 mL
   Urine:
                                                                    215 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                    600 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left sided)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   7.7 g/dL
   464 K/uL
   125 mg/dL
   3.1 mg/dL
   29 mEq/L
   4.5 mEq/L
   57 mg/dL
   104 mEq/L
   144 mEq/L
   23.4 %
   22.8 K/uL
        [image002.jpg]
                             [**2102-3-17**]  04:13 AM
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
   WBC
   15.9
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   22.8
   Hct
   24.7
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   23.4
   Plt
   [**Telephone/Fax (2) 11760**]29
   455
   464
   Cr
   3.3
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   3.1
   Glucose
   71
   91
   95
   99
   93
   121
   121
   109
   102
   125
   Other labs: PT / PTT / INR:12.6/27.5/1.1, CK / CKMB /
   Troponin-T:42/40/0.07, ALT / AST:28/53, Alk Phos / T Bili:616/0.6,
   Differential-Neuts:81.7 %, Band:1.0 %, Lymph:10.8 %, Mono:5.8 %,
   Eos:1.3 %, Fibrinogen:614 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.0
   g/dL, LDH:358 IU/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   fevers:  continued fevers.  overall improved so will follow for now.
   hypertonia:  is now moving arms when sister is present.  follow up MRI
   results
   biliary sepsis:  U/S shows improved fluid collection
   MS:  somewhat volitional, but may be improving with reintroduction of
   psych meds.
   can probably be called out tomorrow.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-26**] 07:07 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   Comments: tunnelled HD line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2102-03-27 07:09:00 Physician Resident Progress Note
Chief Complaint: Gall Bladder sepsis, fever, bacteremia
   24 Hour Events:
 FEVER - 101.6
F - [**2102-3-26**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-3-24**] 02:00 PM
   Meropenem - [**2102-3-25**] 06:00 PM
   Fluconazole - [**2102-3-26**] 07:38 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-26**] 04:00 PM
   Pantoprazole (Protonix) - [**2102-3-26**] 07:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-27**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 113 (105 - 118) bpm
   BP: 120/46(64) {108/44(58) - 140/64(80)} mmHg
   RR: 26 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,526 mL
                                                                    280 mL
   PO:
             TF:
                                                                    840 mL
                                                                    110 mL
   IVF:
                                                                    355 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                     45 mL
   Urine:
                                                                    175 mL
                                                                     45 mL
   NG:
   Stool:
                                                                    950 mL
   Drains:
   Balance:
                                                                    401 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Lungs: transmitted upper airway sounds
   Abdomen: soft
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   437 K/uL
   7.2 g/dL
   118 mg/dL
   4.0 mg/dL
   27 mEq/L
   4.8 mEq/L
   81 mg/dL
   106 mEq/L
   145 mEq/L
   21.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2102-3-18**]  04:39 AM
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
   WBC
   14.6
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   22.8
   17.6
   Hct
   24.6
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   23.4
   21.9
   Plt
   [**Telephone/Fax (3) 11764**]55
   464
   437
   Cr
   2.6
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   3.1
   4.0
   Glucose
   91
   95
   99
   93
   121
   121
   109
   102
   125
   118
   Other labs: PT / PTT / INR:12.7/29.9/1.1, CK / CKMB /
   Troponin-T:42/40/0.07, ALT / AST:24/50, Alk Phos / T Bili:484/0.6,
   Amylase / Lipase:362/30, Differential-Neuts:85.8 %, Band:1.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.1 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:306 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.8 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
     # Fevers & Leukocytosis: WBC coming down but still spiking on [**Last Name (un) 350**]
   Dapto and Fluconazole. Cultures from 27^th still pending. CT sinus
   notable for periapical densities, ID is +/- re having dentist evaluate.
   Changed from Micafungin to Fluconazole for urinary cultures +yeast, and
   presumed Albicans identification. Thyroid studies nml, LENIs negative,
   no med changes track with fever curve. Sterile pyuria.
   - f/u cultures
   - Continue [**Last Name (un) **], daptomycin, fluconazole; if decompensates can restart
   micafungin
   - Re-culture for fever if spikes (last culture Saturday)
   - Talk with ID today ? tagged WBC scan for localization of infectious
   source
   - Periapical lucencies might be source for low-grade fevers -> consider
   Dental c/s given continued fevers; RUQ ultrasound unrevealing. Prelim
   MRI showed nothing focal.
   - f/u final MRI read.
   - f/u neuro recs
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back ~Wednesday. Call 7-1492 next week if haven't heard; can
   also check "outside labs / other fluids"
   # Hypertonicity: Predominantly upper extremity rigidity. Hyperreflexic.
   Moving legs/feet freely. Opening/closing eyes on command. Answering
   questions appropriately
   - f/u final read MRI
   - Appreciate neuro consult for ?syringomyelia or other UMN lesion: MRI
   of head/C-spine yesterday and will follow-up results
   - f/u neuro recs
   - PT following
 consider discussing with OT
   - Have restarted oxcarbazepine 150mg daily
   # Anemia: Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.
   - Transfuse 2 Units PRBCs
   - Monitor Hct
   - Epo w/HD
   # Abdominal distention / ileus: Resolving. But in setting of
   persistently elevated / rising Alk Phos of GB origin (given GGT).
   Tolerating post-pyloric tube feeds, with diminished NGT output. RUQ U/s
   within normal limits yesterday
   - c/w tube feeding through Dobhoff
   - c/w Meropenem/Daptomycin given ongoing fevers and possibility of
   GI/hepatobiliary source
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - transfuse PRBC as above
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   # Respiratory status: Besides Tachypnea has been relieved with
   anxiolytics +/- analgesia.
   - Bilateral chest PT and nebs every 4 h
   - Continue aspiration precautions and PPI
   - d/c PRN dilaudid and Ativan (for tachypnea given self-elicited
   anxiety) as she has not needed them
   - Continue to try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   - U/S arms
   # Hypernatremia: Resolved
   - recheck daily
   # Altered MS: Stable. Responding appropriately to questioning.
   - Monitor her given restarting of trileptal yesterday
   - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: HD tomorrow, -12L off
   - Renally dose medications
   - Daily weights
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Stable
   #. COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line; Foley
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   DISPO: likely call out today
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week)
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]

2102-03-28 06:44:00 Physician Resident Progress Note
Chief Complaint:   GB sepsis
   24 Hour Events:
   Pt. had ultrasound yesterday showing a nonocclusive thrombus at the
   catheter site and a KUB showing possible gastroenteritis. Received 2
   units PRBC.
   Max temperature 100.7.  Pt. has otherwise been stable with no overnight
   issues.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-3-27**] 06:00 PM
   Fluconazole - [**2102-3-27**] 10:47 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-27**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2102-3-27**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-28**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 106 (101 - 129) bpm
   BP: 116/47(64) {101/37(57) - 138/65(80)} mmHg
   RR: 17 (15 - 42) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,367 mL
                                                                    243 mL
   PO:
             TF:
                                                                    841 mL
                                                                    232 mL
   IVF:
                                                                    450 mL
                                                                     11 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                  1,697 mL
                                                                      5 mL
   Urine:
                                                                     97 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    670 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   466 K/uL
   9.3 g/dL
   112 mg/dL
   2.3 mg/dL
   29 mEq/L
   4.2 mEq/L
   41 mg/dL
   101 mEq/L
   141 mEq/L
   27.8 %
   19.6 K/uL
        [image002.jpg]
                             [**2102-3-19**]  02:31 AM
                             [**2102-3-20**]  03:30 AM
                             [**2102-3-21**]  02:37 AM
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
   WBC
   14.3
   14.2
   19.7
   17.6
   22.3
   23.1
   23.4
   22.8
   17.6
   19.6
   Hct
   23.3
   22.7
   26.4
   26.2
   23.3
   26.4
   24.5
   23.4
   21.9
   27.8
   Plt
   255
   270
   284
   [**Telephone/Fax (3) **]
   455
   464
   437
   466
   Cr
   3.5
   4.4
   2.5
   3.6
   2.8
   3.7
   4.4
   3.1
   4.0
   2.3
   Glucose
   95
   99
   93
   121
   121
   109
   102
   125
   118
   112
   Other labs: PT / PTT / INR:12.0/24.2/1.0, CK / CKMB /
   Troponin-T:42/40/0.07, ALT / AST:25/57, Alk Phos / T Bili:430/0.8,
   Amylase / Lipase:362/30, Differential-Neuts:85.8 %, Band:1.0 %,
   Lymph:8.4 %, Mono:4.3 %, Eos:1.1 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:306 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   68F s/p chole and ERCP, c/b sepsis requiring intubation and pressors,
   VRE bacteremia, renal failure requiring HD -- was improving then
   transferred to ICU for tachypnea, GNRs and G+cocci from liver biopsy.
   # Fevers & Leukocytosis: WBC coming down but still spiking on [**Last Name (un) 350**]
   Dapto and Fluconazole. Cultures from 27th still pending. CT sinus
   notable for periapical densities, ID is +/- re having dentist evaluate.
   Changed from Micafungin to Fluconazole for urinary cultures +yeast, and
   presumed Albicans identification. Thyroid studies nml, LENIs negative,
   no med changes track with fever curve. Sterile pyuria.
   - f/u blood cultures
   - Continue [**Last Name (un) **], daptomycin, fluconazole; if decompensates can restart
   micafungin
   - Re-culture for fever if spikes (last culture Saturday)
   - Talk with ID today re: antibiotics course
   - WBC scan ordered for today
   - Periapical lucencies might be source for low-grade fevers -> consider
   Dental c/s given continued fevers; RUQ ultrasound unrevealing. Prelim
   MRI showed nothing focal.
   - f/u final MRI read.
   - f/u neuro recs
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back ~Wednesday. Call 7-1492 next week if haven't heard; can
   also check "outside labs / other fluids"
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately
   - Appreciate neuro consult for ?syringomyelia or other UMN lesion: MRI
   of head/C-spine yesterday and will follow-up results
   - f/u neuro recs
   - PT following
 consider discussing with OT
   - Have restarted oxcarbazepine 150mg daily
   # Anemia: Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.
   - Transfuse 2 Units PRBCs
   - Monitor Hct
   - Epo w/HD
   # Abdominal distention / ileus: Resolving. But in setting of
   persistently elevated / rising Alk Phos of GB origin (given GGT).
   Tolerating post-pyloric tube feeds, with diminished NGT output. RUQ U/S
   within normal limits yesterday
   - c/w tube feeding through Dobhoff
   - c/w Meropenem/Daptomycin given ongoing fevers and possibility of
   GI/hepatobiliary source
   - Serial abdominal exams, trending WBC, fevers, blood pressures
   - no further imaging at this point
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - transfuse PRBC as above
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   # Respiratory status: Besides Tachypnea has been relieved with
   anxiolytics +/- analgesia.
   - Bilateral chest PT and nebs every 4 h
   - Continue aspiration precautions and PPI
   - d/c PRN dilaudid and Ativan (for tachypnea given self-elicited
   anxiety) as she has not needed them
   - Continue to try to get her out of bed to a chair as much as possible,
   working with PT/OT (appreciate their following)
   - U/S arms
   # Hypernatremia: Resolved
   - recheck daily
   # Altered MS: Stable. Responding appropriately to questioning.
   - Monitor her given restarting of trileptal yesterday
   - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: HD tomorrow, -12L off
   - Renally dose medications
   - Daily weights
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
   - Continue with lotrizone cream per wound care recs
   - Continue Miconazole
   # Infected incision site: Stable
   # COPD:  Bronchodilators
   FEN: Tube Feeds through Dobhoff
   PPX:  Hep SQ no lovenox, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line; Foley
   20 Gauge - [**2102-3-23**] 04:18 PM
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   DISPO: likely call out today
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week)
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]
   [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2102-3-27**] 10:02 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   20 Gauge - [**2102-3-27**] 05:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-30 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2102-3-29**] 02:18 PM
 FEVER - 101.9
F - [**2102-3-29**] 01:00 PM
   Transferred back to MICU for fever/tachypneic, abdominal distension. CE
   added on and elevated with trop. 1.37 --> 1.63.
   Spoke with cards who recommended cycling enzymes and repeat echo to
   eval for new wall motion abnormalities - she may have had a missed
   event.
   Spoke with transplant surgery - would recommend UGI with small bowel
   follow through - also questioned whether fever could be drug fever
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-3-29**] 07:42 PM
   Metronidazole - [**2102-3-29**] 10:16 PM
   Fluconazole - [**2102-3-29**] 11:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-29**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.4
C (99.4
   HR: 100 (100 - 133) bpm
   BP: 132/53(74) {97/46(63) - 149/81(84)} mmHg
   RR: 22 (17 - 42) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
    Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                    770 mL
                                                                     73 mL
   PO:
   TF:
   IVF:
                                                                    480 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    960 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    960 mL
   Stool:
   Drains:
   Balance:
                                                                   -190 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   458 K/uL
   8.4 g/dL
   98 mg/dL
   3.9 mg/dL
   27 mEq/L
   5.4 mEq/L
   71 mg/dL
   100 mEq/L
   142 mEq/L
   25.3 %
   22.9 K/uL
        [image002.jpg]
   CK/CKMB/Trop
   [**2102-3-30**] 04:03AM    NotDone  1.53
   [**2102-3-29**] 04:33PM    NotDone  1.63
   [**2102-3-29**] 06:58AM    7               1.37
   [**2102-2-18**] 04:01AM    40   0.6      0.07
   KUB:
   Mild colonic and small bowel distention is present throughout the
   abdomen. Numerous air-fluid levels are demonstrated on the left lateral
   decubitus view. There is no free air. There is no acute fracture or
   dislocation. A nasointestinal tube terminates within the distal
   duodenum or
   proximal jejunum.
   IMPRESSION: Multiple dilated loops of small and large bowel with
   multiple
   air-fluid levels, compatible with gastroenteritis or ileus.
   CXR:
   Cardiac size is top normal. NG tube tip is out of view below the
   diaphragm.
   Right supraclavicular catheter is in standard position. There is no
   pneumothorax or pleural effusion. Bibasilar atelectases, greater on the
   left
   side, are stable.
                             [**2102-3-22**]  04:27 AM
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
   WBC
   17.6
   22.3
   23.1
   23.4
   22.8
   17.6
   19.6
   22.9
   Hct
   26.2
   23.3
   26.4
   24.5
   23.4
   21.9
   27.8
   25.3
   Plt
   [**Telephone/Fax (3) **]55
   [**Telephone/Fax (2) 11808**]58
   Cr
   3.6
   2.8
   3.7
   4.4
   3.1
   4.0
   2.3
   3.9
   TropT
   1.37
   1.63
   1.53
   Glucose
   121
   121
   109
   102
   125
   118
   112
   98
   Other labs: PT / PTT / INR:12.0/24.2/1.0, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:25/57, Alk Phos / T Bili:357/0.8,
   Amylase / Lipase:362/32, Differential-Neuts:89.0 %, Band:4.0 %,
   Lymph:1.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:306 IU/L, Ca++:8.7 mg/dL,
   Mg++:3.0 mg/dL, PO4:7.4 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension: Patient with distended, tender abdomen on
   exam.  States diffusely tender and with rising WBC and history of bowel
   obstruction.  Unclear if decreased stool output.  Hold Dobhoff for
   now.
    - NGT placement
    - KUB for bowel obstruction, perforation
    - Surgery c/s: recommended UGI
    - Send C.diff toxin
    - Bladder pressure
    - Will start Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen
   # Tachyapnea: Chronic with baseline 25-30s.  Now on transfer with RR
   40-50.  Could be some component of pain response (intermittently denies
   pain but then says diffusely tender on abdominal exam).  Also consider
   decreased diaphragmatic excursion [**2-28**] abdominal distension.  Could also
   consider impending sepsis with respiratory compensation for metabolic
   acidosis but ABG reassuring.
    - Treat pain with dilaudid if needed
    - Decompress bowel with NGT
    - Monitor ABG / lactate if continued > 40
   # Fevers & Leukocytosis: WBC initially came down but still spiking on
   [**Last Name (un) 350**] Dapto and Fluconazole.  CT sinus notable for periapical densities,
   ID is +/- re having dentist evaluate. Changed from Micafungin to
   Fluconazole for urinary cultures +yeast, and presumed Albicans
   identification. Thyroid studies nml, LENIs negative, no med changes
   track with fever curve. Sterile pyuria. Rising in last several days,
   today 26.9.  Possible sources include intra-abdominal (bowel
   obstruction, C.diff, GB fossa, liver abscess), pulmonary, skin source,
   thrombus around HD line.
    - f/u blood cultures
    - Continue [**Last Name (un) **], daptomycin, fluconazole; if decompensates can restart
   micafungin
    - Re-culture for fever if spikes
    - Follow-up ID recs
    - WBC scan tomorrow
    - Peri-apical lucencies might be source for low-grade fevers ->
   consider Dental c/s given continued fevers
    - Abdominal evaluation as above
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back ~Wednesday. Call 7-1492 next week if haven't heard;
   can also check "outside labs / other fluids"
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately
   -  Appreciate neuro consult for ?syringomyelia or other UMN lesion: MRI
   of head/C-spine yesterday and will follow-up results
    - f/u neuro recs
    - PT/OT already consulted
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # EKG changess: With mild STE in III, AVF, V3 while in HD.  Repeat EKG
   without similar features.
    - Cycle CE, add on to AM labs
    - Repeat EKG on arrival
    - Echo today to look for missed event
   # Anemia: Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
    - Epo w/HD
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid or ativan bolus if having significant
   abdominal pain or anxiety
   # Altered MS: Stable. Responding appropriately to questioning.
    - Monitor her given restarting of trileptal yesterday
    - Will continue pain control with Dilaudid, Ativan for anxiety
   # ESRD on HD: HD tomorrow, -12L off
    - Renally dose medications
    - Daily weights
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Also has intermittent [**Doctor Last Name 170**] rash over back, possibly
   consistent with drug rash. Stable on repeat physical examination
   yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ?new bowel
   obstruction
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   For events [**2102-2-27**] - [**2102-3-28**] please see in process discharge summary.
   ------ Protected Section ------
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-3-29**] 02:17 PM
   Dialysis Catheter - [**2102-3-29**] 02:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-03-31 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2102-3-30**] 12:00 PM
   No major overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-3-30**] 08:40 PM
   Daptomycin - [**2102-3-30**] 08:40 PM
   Fluconazole - [**2102-3-30**] 10:27 PM
   Metronidazole - [**2102-3-31**] 06:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-3-30**] 08:40 PM
   Heparin Sodium (Prophylaxis) - [**2102-3-30**] 08:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-3-31**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37.7
C (99.9
   HR: 104 (86 - 126) bpm
   BP: 108/47(60) {86/26(44) - 120/79(84)} mmHg
   RR: 23 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,650 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                  1,210 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                     90 mL
   Urine:
   NG:
   90 mL
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   GEN:  NAD, breathing in 20s
   HEENT: PERRL, face tent inplace
   PULM:  equal air entry b/l, decreased at bases, no wheezing
   CV:  RRR, tachycardic, no murmur appreciated
   ABD:  decreased BS, slightly less distended today.  Abdominal wound
   packed without surrounding erythema
   Peripheral Vascular: pulses 2+, mild edema
   Skin:  warm, dry, no rash
   Neurologic: responds to questions intermittently
   Labs / Radiology
   ECHO: Suboptimal image quality. LV systolic function appears depressed
   with inferior (versus global) hypokinesis suggested. Right ventricular
   chamber size and free wall motion appear normal. There is no aortic
   valve stenosis. Mild (1+) mitral regurgitation is seen. There is a
   trivial/physiologic pericardial effusion.
   Compared to the prior study of [**2102-3-23**], suggested LV systolic
   dysfunction is new.
   KUB:
   1. Multiple dilated loops of small and large bowel with multiple
   air-fluid
   levels, unchanged, compatible with gastroenteritis or ileus.
   2. Nasogastric tube coiled within the stomach, with the tip pointing
   cephalad
   in the region of the GE junction.
   414 K/uL
   7.7 g/dL
   84 mg/dL
   2.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   45 mg/dL
   102 mEq/L
   144 mEq/L
   23.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2102-3-23**]  03:21 AM
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
   WBC
   22.3
   23.1
   23.4
   22.8
   17.6
   19.6
   22.9
   17.5
   Hct
   23.3
   26.4
   24.5
   23.4
   21.9
   27.8
   25.3
   23.3
   Plt
   348
   429
   455
   [**Telephone/Fax (3) **]
   458
   414
   Cr
   2.8
   3.7
   4.4
   3.1
   4.0
   2.3
   3.9
   2.7
   TropT
   1.37
   1.63
   1.53
   Glucose
   121
   109
   102
   125
   118
   112
   98
   84
   Other labs: PT / PTT / INR:11.8/29.3/1.0, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:18/47, Alk Phos / T Bili:298/0.5,
   Amylase / Lipase:362/32, Differential-Neuts:89.0 %, Band:4.0 %,
   Lymph:1.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:2.5 mmol/L, Albumin:2.0 g/dL, LDH:306 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:6.5 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension with new concern for mesenteric ischemia: White
   cell scan initially concerning for mesenteric ischemia. Patient with
   distended, intermittently tender abdomen on exam.  NGT remains in
   place.  Abdominal films have been c/w ileus.
    - Abd + Pelv CT w/Contrast; no UGI with SBFT needed given CT scan
    - continue intermittent NGT to suction with flush
    - touch base w/ surgery
    - continue to F/U C Diff and stool culture
    - Continue Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen
    - Treat pain with IV dilaudid PRN
   # Fevers & Leukocytosis: spiked overnight, multiple potential sources.
   WBC initially came down but still spiking on [**Last Name (un) 350**] Dapto and
   Fluconazole.  Flagyl was added on [**2102-3-29**].  Thyroid studies nml, LENIs
   negative, no med changes track with fever curve. Sterile pyuria.
   Possible sources include intra-abdominal (bowel obstruction, C.diff, GB
   fossa, liver abscess), pulmonary, skin source, thrombus around HD line.
    - f/u blood cultures
    - Continue [**Last Name (un) **], daptomycin, fluconazole, flagyl; if decompensates can
   restart micafungin
    - Re-culture for fever if spikes
    - Follow-up ID recs
    - WBC scan follow up
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back week of [**4-3**] per discussion with send out lab. Call
   7-1492 next week if haven't heard; can also check "outside labs / other
   fluids"
   # NSTEMI: EKG changes: With mild STE in III, AVF, V3 while in HD.
   Repeat EKG without similar features, however had elevated enzymes.
   Echo showing new hypokinesis. Spoke with cards, reviewed EKGs and were
   not acutely concerned in the setting of normal CKMB, however echo on
   revealed new inferior hypokinesis which may have been due to inferior
   MI.
   - Cardiology consulting
   - continue ASA 81mg
   - if goes to OR use perioperative BB
   - start high dose Simvastatin
   # Anemia: HCt ~25. Guiac + stool. Restarted her PPI. Transfusions seem
   to help her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
 consider tx if Hct<25
    - transfuse 2 units with HD
    - Epo w/HD
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
    - Continue to address anemia as above
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid bolus if having significant abdominal pain
   or anxiety
   # ESRD on HD: HD today incomplete dialysis yesterday
    - Renally dose medications
    - Daily weights
   # Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid if needed
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
   - PT/OT already consulted
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # Altered MS: Stable. Responding appropriately to questioning.
    - Monitor her given restarting of trileptal yesterday
    - Will continue pain control with Dilaudid, Ativan for anxiety
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided yesterday by surgery
 healthy tissue.  Also
   has intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug
   rash. Stable on repeat physical examination yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ileus
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2102-3-29**] 02:17 PM
   Dialysis Catheter - [**2102-3-29**] 02:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-04-01 07:35:00 Physician Resident Progress Note
Chief Complaint: Complicated course of GB sepsis, fever
   24 Hour Events:
   Pt. has no complaints this morning, denies pain.  Had CT scan yesterday
   concerning for ischemia v. inflammation.
   GNR growing in blood culture
   Transfused 2 units PRBCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-3-30**] 08:40 PM
   Meropenem - [**2102-3-31**] 08:00 PM
   Fluconazole - [**2102-3-31**] 10:00 PM
   Metronidazole - [**2102-4-1**] 05:51 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-3-31**] 08:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-1**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98
   HR: 88 (88 - 126) bpm
   BP: 96/42(54) {86/36(49) - 127/65(79)} mmHg
   RR: 17 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,069 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    610 mL
                                                                    100 mL
   Blood products:
                                                                    559 mL
   Total out:
                                                                  2,290 mL
                                                                    700 mL
   Urine:
   NG:
                                                                     90 mL
   Stool:
   Drains:
   Balance:
                                                                   -221 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///28/
   Physical Examination
   Gen: NAD
   Pulm:  breathing at baseline, decreased at bases, equal air entry
   CV: RRR, mild tachycardia
   Abd:  remains distended, but soft, no rebound or guarding, abdominal
   wounds stable, no erythema/exudate
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, no rash
   Neurologic: responds to yes or no questions
   Labs / Radiology
   366 K/uL
   9.2 g/dL
   79 mg/dL
   1.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   23 mg/dL
   99 mEq/L
   141 mEq/L
   26.8 %
   13.3 K/uL
        [image002.jpg]
                             [**2102-3-24**]  03:51 AM
                             [**2102-3-25**]  01:27 AM
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
                             [**2102-4-1**]  03:12 AM
   WBC
   23.1
   23.4
   22.8
   17.6
   19.6
   22.9
   17.5
   13.3
   Hct
   26.4
   24.5
   23.4
   21.9
   27.8
   25.3
   23.3
   26.8
   Plt
   429
   455
   464
   437
   466
   458
   414
   366
   Cr
   3.7
   4.4
   3.1
   4.0
   2.3
   3.9
   2.7
   1.7
   TropT
   1.37
   1.63
   1.53
   Glucose
   109
   102
   125
   118
   112
   98
   84
   79
   Other labs: PT / PTT / INR:11.8/29.3/1.0, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:16/41, Alk Phos / T Bili:360/0.5,
   Amylase / Lipase:362/32, Differential-Neuts:89.0 %, Band:4.0 %,
   Lymph:1.0 %, Mono:5.0 %, Eos:0.0 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:329 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension with concern for mesenteric ischemia: Appears
   improved, making stool, lactate stable. White cell scan initially
   concerning for mesenteric ischemia. Patient with distended,
   intermittently tender abdomen on exam.  NGT remains in place.
   Abdominal films have been c/w ileus.
    - F/U final read of CT scan and surgery recs
    - continue intermittent NGT to suction with flush
    - Continue to F/U C Diff and stool culture
    - Continue Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen
    - Treat pain with IV dilaudid PRN
    - consider one more CT scan later today once contrast has moved
   further through
   # Fevers, Leukocytosis + 1x Positive Gram Cultures: Afebrile in last 24
   hours, multiple potential sources. WBC down today.  Pt. on [**Last Name (un) 350**] Dapto
   and Fluconazole.  Flagyl was added on [**2102-3-29**].  Thyroid studies nml,
   LENIs negative, no med changes track with fever curve. Sterile pyuria.
   Possible sources include intra-abdominal (bowel obstruction, C.diff, GB
   fossa, liver abscess), pulmonary, skin source, thrombus around HD line.
    - f/u blood cultures and speciation of GNR
    - Continue [**Last Name (un) **], daptomycin, fluconazole, flagyl; if decompensates can
   restart micafungin
    - Daily surveillance cultures and cultures if spikes
    - Follow-up ID recs
    - CT scan f/u
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back week of [**4-3**] per discussion with send out lab. Call
   7-1492 next week if haven't heard; can also check "outside labs / other
   fluids"
   # NSTEMI: EKG changes: With mild STE in III, AVF, V3 while in HD.
   Repeat EKG without similar features, however had elevated enzymes.
   Echo showing new hypokinesis. Spoke with cards, reviewed EKGs and were
   not acutely concerned in the setting of normal CKMB, however echo on
   revealed new inferior hypokinesis which may have been due to inferior
   MI.
   - continue ASA 81mg
   - if goes to OR use perioperative BB
   - continue high dose Simvastatin
   # Anemia: HCt down yesterday and was transfused 2 units with good
   repsonse. Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
 consider tx if Hct<25
    - Epo w/HD
    - guiaic stools
    - [**Hospital1 **] hct checks for now
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
    - Continue to address anemia as above
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid bolus if having significant abdominal pain
   or anxiety
   # ESRD on HD: Next HD planned for [**Last Name (LF) 501**], [**First Name3 (LF) 124**] consider HD earlier
   given dye load, unclear if necessary
    - [**Name (NI) **] dose medications
    - Daily weights
   # Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid if needed
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
    - OT reconsulted [**2102-3-31**]
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   # Psych: holding several of her psych meds for Linezolid
    - consider restarting psych meds [**Doctor Last Name 501**]
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ileus
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]

2102-04-02 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-4-1**] 09:40 AM
   venipuncture
 BLOOD CULTURED - At [**2102-4-1**] 02:46 PM
   Venipuncture
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-3-30**] 08:40 PM
   Fluconazole - [**2102-4-1**] 08:37 PM
   Meropenem - [**2102-4-1**] 09:50 PM
   Metronidazole - [**2102-4-2**] 06:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-4-1**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2102-4-1**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-2**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.2
   HR: 94 (89 - 103) bpm
   BP: 118/50(67) {100/40(56) - 123/55(72)} mmHg
   RR: 21 (12 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                    740 mL
                                                                    177 mL
   PO:
             TF:
   IVF:
                                                                    580 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                     40 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: NAD
   Pulm:  breathing at baseline, decreased at bases, equal air entry
   CV: RRR, mild tachycardia
   Abd:  remains distended, but soft, no rebound or guarding, abdominal
   wounds stable, no erythema/exudate
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, no rash
   Neurologic: responds to yes or no questions
   Labs / Radiology
   417 K/uL
   9.2 g/dL
   65 mg/dL
   2.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   37 mg/dL
   104 mEq/L
   145 mEq/L
   27.3 %
   13.6 K/uL
        [image002.jpg]
                             [**2102-3-26**]  04:20 AM
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
                             [**2102-4-1**]  03:12 AM
                             [**2102-4-1**]  02:40 PM
                             [**2102-4-2**]  05:55 AM
   WBC
   22.8
   17.6
   19.6
   22.9
   17.5
   13.3
   13.6
   Hct
   23.4
   21.9
   27.8
   25.3
   23.3
   26.8
   26.8
   27.3
   Plt
   [**Telephone/Fax (3) 11808**]58
   414
   366
   417
   Cr
   3.1
   4.0
   2.3
   3.9
   2.7
   1.7
   2.7
   TropT
   1.37
   1.63
   1.53
   Glucose
   125
   118
   112
   98
   84
   79
   65
   Other labs: PT / PTT / INR:12.2/25.2/1.0, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:14/42, Alk Phos / T Bili:521/0.5,
   Amylase / Lipase:362/32, Differential-Neuts:82.1 %, Band:4.0 %,
   Lymph:11.3 %, Mono:4.0 %, Eos:1.9 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:304 IU/L, Ca++:7.2 mg/dL,
   Mg++:2.1 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension with concern for mesenteric ischemia: Appears
   improved, making stool, lactate stable. White cell scan initially
   concerning for mesenteric ischemia. Patient with distended,
   intermittently tender abdomen on exam.  NGT remains in place.
   Abdominal films have been c/w ileus. CT scan concerning for area of
   mesenteric ischemia, entero-enteric fistula. Lactate is flat, no change
   in abdominal exam.
   - F/u with surgery as to whether (a) to start TPN/ tube feeds (tricky
   due to rising alkaline phosphatase) for improved nutritional status and
   (b) whether they want small bowel with follow-through to evaluate for
   entero-entero fistula
   - Start on D5 1/2NS  @ 75cc/hr for maintenance
    - continue intermittent NGT to suction with flush
    - C.Diff, stool cx negative to date
    - Continue Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen
    - Treat pain with IV dilaudid PRN
   # Fevers, Leukocytosis + 1x Positive Gram Cultures: Afebrile in last 24
   hours, multiple potential sources. WBC down today.  Pt. on [**Last Name (un) 350**] Dapto
   and Fluconazole.  Flagyl was added on [**2102-3-29**].  Thyroid studies nml,
   LENIs negative, no med changes track with fever curve. Sterile pyuria.
   Possible sources include intra-abdominal (bowel obstruction, C.diff, GB
   fossa, liver abscess), pulmonary, skin source, thrombus around HD line.
    - f/u blood cultures and speciation of GNR
    - Continue [**Last Name (un) **], daptomycin, fluconazole, flagyl; if decompensates can
   restart micafungin
    - Daily surveillance cultures and cultures if spikes
    - Follow-up ID recs
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back week of [**4-3**] per discussion with send out lab. Call
   7-1492 next week if haven't heard; can also check "outside labs / other
   fluids"
   # NSTEMI: EKG changes: With mild STE in III, AVF, V3 while in HD.
   Repeat EKG without similar features, however had elevated enzymes.
   Echo showing new hypokinesis. Spoke with cards, reviewed EKGs and were
   not acutely concerned in the setting of normal CKMB, however echo on
   revealed new inferior hypokinesis which may have been due to inferior
   MI.
   - continue ASA 81mg
   - if goes to OR use low-dose perioperative BB if BP permits
   - continue high dose Simvastatin
   # Anemia: Hct down yesterday and was transfused 2 units with good
   repsonse. Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
 consider tx if Hct<25
    - Epo w/HD
    - guiaic stools
    - QD hct checks
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - Consider low-dose beta blocker if BP permits
    - Continue to address anemia as above
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid bolus if having significant abdominal pain
   or anxiety
   # ESRD on HD: Next HD planned for [**Last Name (LF) 501**], [**First Name3 (LF) 124**] consider HD earlier
   given dye load, unclear if necessary
    - [**Name (NI) **] dose medications
    - Daily weights
   # Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid if needed
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
    - OT reconsulted [**2102-3-31**]
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   # Psych: holding several of her psych meds for Linezolid
    - consider restarting psych meds [**Doctor Last Name 501**]
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ileus
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-3-29**] 02:18 PM
   20 Gauge - [**2102-3-31**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-04-03 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2102-4-2**]
   - Spoke with general surgery. They favor doing small bowel follow thru
   study to eval for entero-entero fistula, although still unlikely that
   they will intervene. They suggest holding tube feeds until that study
   is done.
   - Spoke with ERCP fellow. They acknowledge that stent could be source
   of infection, but would would have to carefully weigh risks vs benefits
   of ERCP rather than rushing to do it. Attending who did the first two
   procedures ([**Doctor First Name 11866**] Shoni) will be in tomorrow, and fellow will
   re-visit issue with him in the AM. We will check full LFTs to follow
   trend in AM.
   NPO, asking to eat
   Held tube feeds
   Getting Upper GI SBFT this morning to evaluate if entero-entero fistula
   (suspicion based on CT scans)
   Talked to ERCP:  in setting of rising alk phos ? infection of biliary
   stent, but they felt if she is clinically improved probably not a good
   idea
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-4-2**] 08:20 PM
   Fluconazole - [**2102-4-2**] 09:00 PM
   Metronidazole - [**2102-4-2**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-2**] 08:00 PM
   Pantoprazole (Protonix) - [**2102-4-2**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-3**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 88 (82 - 109) bpm
   BP: 134/58(75) {107/36(54) - 144/67(84)} mmHg
   RR: 15 (12 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,568 mL
                                                                    535 mL
   PO:
             TF:
   IVF:
                                                                  1,518 mL
                                                                    535 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,568 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen: NAD
   Pulm:  breathing at baseline, decreased at bases, equal air entry
   CV: RRR, mild tachycardia
   Abd:  remains distended, but soft, no rebound or guarding, abdominal
   wounds stable, no erythema/exudate
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, no rash
   Neurologic: responds to yes or no questions
   Labs / Radiology
   391 K/uL
   8.9 g/dL
   89 mg/dL
   3.2 mg/dL
   24 mEq/L
   3.5 mEq/L
   46 mg/dL
   105 mEq/L
   144 mEq/L
   27.0 %
   12.3 K/uL
        [image002.jpg]
                                                                [**2102-4-3**]
                                                                    05:05a
   _______________________________________________________________________
   Lactate:1.2
                             [**2102-3-27**]  04:27 AM
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
                             [**2102-4-1**]  03:12 AM
                             [**2102-4-1**]  02:40 PM
                             [**2102-4-2**]  05:55 AM
                             [**2102-4-3**]  04:47 AM
   WBC
   17.6
   19.6
   22.9
   17.5
   13.3
   13.6
   12.3
   Hct
   21.9
   27.8
   25.3
   23.3
   26.8
   26.8
   27.3
   27.0
   Plt
   437
   466
   458
   [**Telephone/Fax (3) 11865**]
   391
   Cr
   4.0
   2.3
   3.9
   2.7
   1.7
   2.7
   3.2
   TropT
   1.37
   1.63
   1.53
   Glucose
   118
   112
   98
   84
   79
   65
   89
   Other labs: PT / PTT / INR:13.0/27.3/1.1, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:15/42, Alk Phos / T Bili:629/0.4,
   Amylase / Lipase:362/32, Differential-Neuts:82.1 %, Band:4.0 %,
   Lymph:11.3 %, Mono:4.0 %, Eos:1.9 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:304 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:8.9 mg/dL
   Previous CXR: Frontal view of the chest is compared to the prior study
   from [**2102-3-29**].
   Large-bore catheter terminates in the superior vena cava. Orogastric
   tube courses towards the stomach but the tip is not seen. Nasogastric
   tube also courses towards the stomach and the tip appears to be coiled
   within the fundus. There is consolidation of the left lower lobe as
   well as interstitial edema which could reflect a combination of mild
   congestive failure superimposed on atelectasis or pneumonia.
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension with concern for mesenteric ischemia: Appears
   improved, making stool, lactate stable. White cell scan initially
   concerning for mesenteric ischemia. Patient with distended,
   intermittently tender abdomen on exam.  NGT remains in place.
   Abdominal films have been c/w ileus. CT scan concerning for area of
   mesenteric ischemia, entero-enteric fistula. Lactate is flat, no change
   in abdominal exam.
   - Surgery believes ERCP and pulling of biliary stent is priority; if
   biliary tree is intact, she may not need a new stent. F/u with surgery
   on who will staff (attending who did first two stents is back today)
   - F/u with surgery re: nutrition recs tomorrow.
   - Small bowel follow through after ERCP
   - On D5 1/2NS  @ 75cc/hr for maintenance
   -continue intermittent NGT to suction with flush
   - C.Diff, stool cx negative to date
   - Continue Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen; also on [**Last Name (un) **]/fluc/dapto
   - Treat pain with IV dilaudid PRN
   # Fevers, Leukocytosis + 1x Positive Gram Cultures: Afebrile in last 24
   hours, multiple potential sources. WBC down today.  Pt. on [**Last Name (un) 350**] Dapto
   and Fluconazole.  Flagyl was added on [**2102-3-29**].  Thyroid studies nml,
   LENIs negative, no med changes track with fever curve. Sterile pyuria.
   Possible sources include intra-abdominal (bowel obstruction, C.diff, GB
   fossa, liver abscess), pulmonary, skin source, thrombus around HD line.
    - f/u blood cultures and speciation of GNR
    - Continue [**Last Name (un) **], daptomycin, fluconazole, flagyl; if decompensates can
   restart micafungin
    - Daily surveillance cultures and cultures if spikes
    - Follow-up ID recs
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back week of [**4-3**] per discussion with send out lab. Call
   7-1492 next week if haven't heard; can also check "outside labs / other
   fluids"
   # NSTEMI: EKG changes: With mild STE in III, AVF, V3 while in HD.
   Repeat EKG without similar features, however had elevated enzymes.
   Echo showing new hypokinesis. Spoke with cards, reviewed EKGs and were
   not acutely concerned in the setting of normal CKMB, however echo on
   revealed new inferior hypokinesis which may have been due to inferior
   MI.
   - continue ASA 81mg
   - if goes to OR use low-dose perioperative BB if BP permits
   - Started low-dose beta-blocker (lopressor 12.5mg TID)
   - continue high dose Simvastatin
   # Anemia: Hct down yesterday and was transfused 2 units with good
   repsonse. Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
 consider tx if Hct<25
    - Epo w/HD
    - guiaic stools
    - QD hct checks
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - Consider low-dose beta blocker if BP permits
    - Continue to address anemia as above
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid bolus if having significant abdominal pain
   or anxiety
   # ESRD on HD:
    - Next HD planned for today
    - Renally dose medications
    - Daily weights
   #) Psyche
will resume psyche meds today; psyche meds held on linezolid
   - Will start celexa 10mg QD (home dose 40)
   # Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid if needed
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   # Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   - Will resume psychiatric meds today.
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
    - OT reconsulted [**2102-3-31**]
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ileus
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   Dispo: pending ERCP, may transfer to floor tomorrow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2102-3-29**] 02:18 PM
   20 Gauge - [**2102-3-31**] 06:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-04-04 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Plan for ERCP today, celexa was started yesterday.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2102-4-3**] 08:00 PM
   Meropenem - [**2102-4-3**] 09:43 PM
   Daptomycin - [**2102-4-3**] 09:46 PM
   Metronidazole - [**2102-4-4**] 06:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-4-3**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2102-4-3**] 09:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-4**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (99
   HR: 97 (87 - 114) bpm
   BP: 115/46(64) {103/34(54) - 135/67(82)} mmHg
   RR: 26 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,378 mL
                                                                    661 mL
   PO:
             TF:
   IVF:
                                                                  2,258 mL
                                                                    661 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    778 mL
                                                                    661 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Gen: NAD, denies pain
   Pulm:  breathing at baseline, decreased at bases, equal air entry
   CV: RRR,
   Abd:  remains distended, but soft, no rebound or guarding, abdominal
   wounds stable, no erythema/exudates, when asked about TTP, she
   complains diffusely, points to umbilical area
 unable to localize on
   exam
   Peripheral Vascular: pulses intact, trace nonpitting edema
   Skin:  warm, dry, no rash
   Neurologic: responds to yes or no questions, moves all extremities
   Labs / Radiology
   373 K/uL
   8.9 g/dL
   100 mg/dL
   1.7 mg/dL
   30 mEq/L
   3.4 mEq/L
   21 mg/dL
   106 mEq/L
   145 mEq/L
   26.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2102-3-28**]  03:40 AM
                             [**2102-3-29**]  06:58 AM
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
                             [**2102-4-1**]  03:12 AM
                             [**2102-4-1**]  02:40 PM
                             [**2102-4-2**]  05:55 AM
                             [**2102-4-3**]  04:47 AM
                             [**2102-4-4**]  02:12 AM
   WBC
   19.6
   22.9
   17.5
   13.3
   13.6
   12.3
   11.2
   Hct
   27.8
   25.3
   23.3
   26.8
   26.8
   27.3
   27.0
   26.7
   Plt
   466
   458
   414
   366
   417
   391
   373
   Cr
   2.3
   3.9
   2.7
   1.7
   2.7
   3.2
   1.7
   TropT
   1.37
   1.63
   1.53
   Glucose
   112
   98
   84
   79
   65
   89
   100
   Other labs: PT / PTT / INR:13.0/27.3/1.1, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:15/42, Alk Phos / T Bili:634/0.4,
   Amylase / Lipase:362/32, Differential-Neuts:82.1 %, Band:4.0 %,
   Lymph:11.3 %, Mono:4.0 %, Eos:1.9 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:304 IU/L, Ca++:7.3 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease s/p cholecystectomy and ERCP,
   course complicated by sepsis requiring intubation and pressors, VRE
   bacteremia, renal failure requiring CVVH/HD who was improving but now
   transferred back to ICU for tachypnea and abdominal distension.
   # Abdominal distension with concern for mesenteric ischemia: Appears
   improved, making stool, lactate stable. White cell scan initially
   concerning for mesenteric ischemia. Patient with distended,
   intermittently tender abdomen on exam.  NGT remains in place.
   Abdominal films have been c/w ileus. CT scan concerning for area of
   mesenteric ischemia, entero-enteric fistula. Lactate is flat, no change
   in abdominal exam.
   - Surgery believes ERCP and pulling of biliary stent is priority; if
   biliary tree is intact, she may not need a new stent. F/u with surgery
   on who will staff (attending who did first two stents is back today)
   - F/u with surgery re: nutrition recs tomorrow.
   - Small bowel follow through after ERCP
   - On D5 1/2NS  @ 75cc/hr for maintenance
   -continue intermittent NGT to suction with flush
   - C.Diff, stool cx negative to date
   - Continue Flagyl empirically for C.diff given increased WBC,
   distended, tender abdomen; also on [**Last Name (un) **]/fluc/dapto
   - Treat pain with IV dilaudid PRN
   # Fevers, Leukocytosis + 1x Positive Gram Cultures: Afebrile in last 24
   hours, multiple potential sources. WBC down today.  Pt. on [**Last Name (un) 350**] Dapto
   and Fluconazole.  Flagyl was added on [**2102-3-29**].  Thyroid studies nml,
   LENIs negative, no med changes track with fever curve. Sterile pyuria.
   Possible sources include intra-abdominal (bowel obstruction, C.diff, GB
   fossa, liver abscess), pulmonary, skin source, thrombus around HD line.
    - f/u blood cultures and speciation of GNR
    - Continue [**Last Name (un) **], daptomycin, fluconazole, flagyl; if decompensates can
   restart micafungin
    - Daily surveillance cultures and cultures if spikes
    - Follow-up ID recs
    - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in
   [**State 1771**], will be back week of [**4-3**] per discussion with send out lab. Call
   7-1492 next week if haven't heard; can also check "outside labs / other
   fluids"
   # NSTEMI: EKG changes: With mild STE in III, AVF, V3 while in HD.
   Repeat EKG without similar features, however had elevated enzymes.
   Echo showing new hypokinesis. Spoke with cards, reviewed EKGs and were
   not acutely concerned in the setting of normal CKMB, however echo on
   revealed new inferior hypokinesis which may have been due to inferior
   MI.
   - continue ASA 81mg
   - if goes to OR use low-dose perioperative BB if BP permits
   - Started low-dose beta-blocker (lopressor 12.5mg TID)
   - continue high dose Simvastatin
   # Anemia: Hct down yesterday and was transfused 2 units with good
   repsonse. Guiac + stool. Restarted her PPI. Transfusions seem to help
   her tachycardia.  Last transfused [**2102-3-27**].
    - Monitor Hct
 consider tx if Hct<25
    - Epo w/HD
    - guiaic stools - positive
    - QD hct checks
   # Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - Consider low-dose beta blocker if BP permits
    - Continue to address anemia as above
    - Cautious Fluid boluses PRN, given ESRD
    - Ativan given patient eliciting significant anxiety
    - Consider small dilaudid bolus if having significant abdominal pain
   or anxiety
   # ESRD on HD:
    - Next HD planned for tomorrow
    - Renally dose medications
    - Daily weights
   #) Psyche
will resume psyche meds today; psyche meds held on linezolid
   - Will start celexa 10mg QD (home dose 40)
   # Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid if needed
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   # Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   - Will resume psychiatric meds today.
   # Hypertonicity: Predominantly upper extremity rigidity. Final read MRI
   negative. Hyperreflexic. Moving legs/feet freely. Opening/closing eyes
   on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
    - OT reconsulted [**2102-3-31**]
    - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   # Skin breakdown/Rash:C /w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination yesterday
    - Continue wound care recs
    - Continue Miconazole
   # COPD: Stable.
    - Ipratroprium and Albuterol Nebs PRN
   FEN: IVF PRN, replete electrolytes PRN, hold Dobhoff TF for ileus
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   Dispo: pending ERCP, may transfer to floor tomorrow.

2102-04-05 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2102-4-5**] 06:19 AM
   Pt. went to ERCP yesterday and spent most of the day in the [**Hospital Unit Name 4**].
   Cultures + for enterobacter, but per ID antibiotics were not changed.
   She had a temp to 100.3 axillary and in the setting of an elevated WBC
   count, blood cultures were sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-4-3**] 09:46 PM
   Meropenem - [**2102-4-4**] 10:15 PM
   Fluconazole - [**2102-4-4**] 11:37 PM
   Metronidazole - [**2102-4-5**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-4-4**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-4**] 08:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-5**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 115 (91 - 119) bpm
   BP: 127/29(52) {108/29(52) - 131/72(80)} mmHg
   RR: 27 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  2,345 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  2,345 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,945 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Gen:  NAD, responds to questions
   Pulm:  Coarse, decreased at bases
   CV: RRR, no murmur appreciated
   ABD:  dressings intact, stable abdominal wounds, no rebound/guarding,
   unable to localize discomfort
   Peripheral Vascular: pulses intact, no edema
   Skin:  warm, dry
   Neurologic: alert, responds to questions, moves all extremities and
   follows commands
   Labs / Radiology
   453 K/uL
   7.6 g/dL
   89 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   47 mg/dL
   105 mEq/L
   142 mEq/L
   23.6 %
   23.3 K/uL
        [image002.jpg]
                             [**2102-3-29**]  04:33 PM
                             [**2102-3-30**]  04:03 AM
                             [**2102-3-31**]  02:10 AM
                             [**2102-4-1**]  03:12 AM
                             [**2102-4-1**]  02:40 PM
                             [**2102-4-2**]  05:55 AM
                             [**2102-4-3**]  04:47 AM
                             [**2102-4-4**]  02:12 AM
                             [**2102-4-4**]  02:46 PM
                             [**2102-4-5**]  04:00 AM
   WBC
   22.9
   17.5
   13.3
   13.6
   12.3
   11.2
   23.3
   Hct
   25.3
   23.3
   26.8
   26.8
   27.3
   27.0
   26.7
   23.6
   Plt
   458
   414
   366
   [**Telephone/Fax (3) 11892**]
   453
   Cr
   3.9
   2.7
   1.7
   2.7
   3.2
   1.7
   2.1
   2.4
   TropT
   1.63
   1.53
   Glucose
   98
   84
   79
   65
   89
   100
   121
   89
   Other labs: PT / PTT / INR:13.0/27.3/1.1, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:10/35, Alk Phos / T Bili:580/0.5,
   Amylase / Lipase:362/32, Differential-Neuts:88.3 %, Band:4.0 %,
   Lymph:8.0 %, Mono:2.9 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:330 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease with gangrenous cholecystitis
   s/p cholecystectomy and ERCP, course complicated by sepsis requiring
   intubation and pressors, VRE and Kluyveria cryo-crescans bacteremia,
   renal failure requiring CVVH/HD, elevated B-glucan with persistent
   candiduria now with new GNR bacteremia, abdominal distention and pain
   transferred to the [**Hospital Unit Name 4**] for ERCP and ICU bed.
   #) Abdominal distension with concern for mesenteric ischemia and/or
   complication of biliary stent: Appears improved, making stool, lactate
   stable. White cell scan initially concerning for mesenteric ischemia.
   Patient with distended, intermittently tender abdomen on exam.  NGT
   remains in place.  Abdominal films have been c/w ileus. CT scan
   concerning for area of mesenteric ischemia, entero-enteric fistula.
   Lactate is flat, no change in abdominal exam.   S/P ERCP with stent
   removal and replacement on [**2102-4-4**].
   - F/u with surgery re: nutrition and resuming TF vs resuming TPN
   - Confirm with surgery need for Small bowel follow through after ERCP
   - On D5 1/2NS  @ 75cc/hr for maintenance
   - continue intermittent NGT to suction with flush
   - C.Diff, stool cx negative to date
   - on [**Last Name (un) **]/fluc/dapto, flagyl added on [**3-29**] for concern of c.diff, neg x1
   todate, revisit need w/ ID today
   - Treat pain with IV dilaudid PRN
   #) Fever, Leukocytosis + 1x Positive Gram Cultures Had 100.3 axillary
   temp overnight, WBC elevated to 22.  Could be d/t ERCP yesterday,
   however bacteremia, abdominal infection, UTI, etc still possible
   sources.  Cultures sent.
   - f/u blood cultures and resistance patterns of enterobactor
 ID did
   not recommend changing antibiotics
   - Continue [**Last Name (un) **], daptomycin, fluconazole, empiric flagyl for concern of
   C.diff (negative x1); if decompensates can restart micafungin
   - Daily surveillance cultures and cultures if spikes
   - Follow-up ID recs, discuss discontining flagyl given negative c.diff
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back week of [**4-3**] per discussion with send out lab. Call 7-1492
   end of week if haven't heard; can also check "outside labs / other
   fluids"
   #) NSTEMI: On [**3-29**] EKG changes: With mild STE in III, AVF, V3 while in
   HD. Repeat EKG without similar features, however had elevated enzymes.
   Echo revealed new inferior hypokinesis which may have been due to
   inferior MI.
   - continue ASA 81mg
   - Started low-dose beta-blocker (lopressor 12.5mg TID) on [**4-2**]
   - continue high dose Simvastatin
   #) Anemia: Has required intermittent transfusions during her stay. GI
   tract is presumed source of chronic blood loss. Guiac + stool.
   Transfusions seem to help her tachycardia.  Last transfused [**2102-3-31**].
   - Monitor Hct
 consider tx if Hct<25
   - Epo w/HD
   - continue to guiaic stools - positive
   - QD hct checks
   - continue to hold on anticoagulation for SCV clot
   #) Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - started low dose beta blocker as BP permits on [**4-2**]
   - Continue to address anemia as above
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   - Consider small dilaudid bolus if having significant abdominal pain or
   anxiety
   - if associated w/ new hypoxia, would need to eval for PE given known
   SCV clot off anticoagulation
   #) ESRD on HD: c/b non-occlusive clot in right SCV surrounding
   tunnelled HD line
   - HD on M/W/F
   - Renally dose medications
   - Daily weights
   - given ongoing suspected GI blood loss, plan is not for
   anticoagulation at this time
   #) Psych
 Psyche meds held on linezolid, now s/p 2 week wash out
   period. Slowly resuming home regimen
   - Will start celexa 10mg QD (home dose 40)
   - continue oxcarbazipine
   #) Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid prn
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   #) Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   - Will resume psychiatric meds today.
   #) Hypertonicity: Predominantly upper extremity rigidity. Final read
   MRI negative. Hyperreflexic. Moving legs/feet freely. Opening/closing
   eyes on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
   - OT reconsulted [**2102-3-31**]
   - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   #) Skin breakdown/Rash:C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination
   - Continue wound care recs
   - Continue Miconazole powder
   #) COPD: Stable.
   - Ipratroprium and Albuterol Nebs PRN
   FEN: Mait IVF, replete electrolytes PRN, check lytes [**Hospital1 **], hold Dobhoff
   TF for ileus, consider resuming TPN if TF remain held [**2-28**] abdominal
   pathology
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS: PIV x2, Tunneled HD line, Foley - d/c given infectious risk
   Dialysis Catheter - [**2102-3-24**] 12:31 PM
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   Dispo: pending ERCP, may transfer to floor tomorrow.

2102-04-06 07:07:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events: Pt. was dialyzed yesterday and received 1 unit of
   blood.  She went for RUQ u/s yesterday which was negative for a
   drainable fluid collection.
   Plan for SBFT this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2102-4-5**] 09:45 PM
   Daptomycin - [**2102-4-5**] 10:18 PM
   Fluconazole - [**2102-4-6**] 12:00 AM
   Metronidazole - [**2102-4-6**] 06:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-4-5**] 09:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-6**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.9
C (98.5
   HR: 94 (92 - 122) bpm
   BP: 130/46(66) {78/29(41) - 136/65(80)} mmHg
   RR: 25 (13 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
           Total In:
                                                                  1,373 mL
                                                                    648 mL
   PO:
           TF:
   IVF:
                                                                  1,088 mL
                                                                    273 mL
   Blood products:
                                                                    285 mL
                                                                    375 mL
   Total out:
                                                                    800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    573 mL
                                                                    648 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   Gen:  NAD, responds to questions
   Pulm:  Coarse, decreased at bases
   CV: RRR, no murmur appreciated
   ABD:  decreased BS, distended, dressings intact, stable abdominal
   wounds, no rebound/guarding, unable to localize discomfort, but does
   complain of TTP diffusely
   Peripheral Vascular: pulses intact, no edema
   Skin:  warm, dry
   Neurologic: alert, responds to questions, moves all extremities and
   follows commands
   Labs / Radiology
   310 K/uL
   8.5 g/dL
   84 mg/dL
   1.6 mg/dL
   26 mEq/L
   3.3 mEq/L
   27 mg/dL
   108 mEq/L
   144 mEq/L
   24.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2102-4-1**]  03:12 AM
                             [**2102-4-1**]  02:40 PM
                             [**2102-4-2**]  05:55 AM
                             [**2102-4-3**]  04:47 AM
                             [**2102-4-4**]  02:12 AM
                             [**2102-4-4**]  02:46 PM
                             [**2102-4-5**]  04:00 AM
                             [**2102-4-5**]  05:38 PM
                             [**2102-4-5**]  10:19 PM
                             [**2102-4-6**]  04:11 AM
   WBC
   13.3
   13.6
   12.3
   11.2
   23.3
   12.7
   Hct
   26.8
   26.8
   27.3
   27.0
   26.7
   23.6
   23.0
   22.3
   24.6
   Plt
   366
   417
   391
   373
   453
   310
   Cr
   1.7
   2.7
   3.2
   1.7
   2.1
   2.4
   1.6
   Glucose
   79
   65
   89
   100
   121
   89
   84
   Other labs: PT / PTT / INR:14.3/28.8/1.2, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:[**10-26**], Alk Phos / T Bili:402/0.5,
   Amylase / Lipase:362/28, Differential-Neuts:88.3 %, Band:4.0 %,
   Lymph:8.0 %, Mono:2.9 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.9 g/dL, LDH:275 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   68 yo female with CAD, bipolar disease with gangrenous cholecystitis
   s/p cholecystectomy and ERCP, course complicated by sepsis requiring
   intubation and pressors, VRE and Kluyveria cryo-crescans bacteremia,
   renal failure requiring CVVH/HD, elevated B-glucan with persistent
   candiduria now with new GNR bacteremia, abdominal distention and pain
   transferred to the [**Hospital Unit Name 4**] for ERCP and ICU bed.
   #) Abdominal distension with concern for mesenteric ischemia and/or
   complication of biliary stent: Appears improved, making stool, lactate
   stable. White cell scan initially concerning for mesenteric ischemia.
   Patient with distended, intermittently tender abdomen on exam.  NGT
   remains in place.  Abdominal films have been c/w ileus. CT scan
   concerning for area of mesenteric ischemia, entero-enteric fistula.
   Lactate is flat, no change in abdominal exam.   S/P ERCP with stent
   removal and replacement on [**2102-4-4**] with concern for fluid leak.  RUQ
   ultrasound on [**4-5**] did not show a drainable collection.
   - Small bowel follow through today
   - F/u with surgery re: nutrition and resuming TF vs resuming TPN after
   SBFT
   - On D5 1/2NS  @ 75cc/hr for maintenance
   - continue intermittent NGT to suction with flush
   - C.Diff, stool cx negative to date
   - on [**Last Name (un) **]/fluc/dapto, flagyl added on [**3-29**] for concern of c.diff, neg x2
   todate, revisit need w/ ID today
   - Treat pain with IV dilaudid PRN
   #) Fever, Leukocytosis + 1x Positive Gram Cultures T max to 100.5.  WBC
   count now down to 13 from 23.   Bacteremia, abdominal infection, UTI,
   etc still possible sources.  Cultures sent.
   - f/u blood cultures and resistance patterns of enterobactor
   - Continue [**Last Name (un) **], daptomycin, fluconazole, empiric flagyl for concern of
   C.diff (negative x1); if decompensates can restart micafungin
   - Plan to place PICC given need for lengthy Abx course
   - Daily surveillance cultures and cultures if spikes
   - Follow-up ID recs, discuss discontining flagyl given negative c.diff
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back week of [**4-3**] per discussion with send out lab. Call 7-1492
   end of week if haven't heard; can also check "outside labs / other
   fluids"
   #) NSTEMI: On [**3-29**] EKG changes: With mild STE in III, AVF, V3 while in
   HD. Repeat EKG without similar features, however had elevated enzymes.
   Echo revealed new inferior hypokinesis which likely due to a recent
   inferior MI.
   - continue ASA 81mg
   - Started low-dose beta-blocker (lopressor 12.5mg TID) on [**4-2**]
   - Will hold BB prior to HD days
   - continue high dose Simvastatin
   #) Anemia: Has required intermittent transfusions during her stay. GI
   tract is presumed source of chronic blood loss. Guiac + stool.
   Transfusions seem to help her tachycardia.  Last transfused [**2102-4-5**].
   - Monitor Hct
 consider tx if Hct<25
   - Check PM hct and order blood if needed tonight for HD tomorrow
   - Epo w/HD
   - continue to guiaic stools - positive
   - QD hct checks
   - continue to hold on anticoagulation for SCV clot
   #) Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - started low dose beta blocker as BP permits on [**4-2**]
   - Continue to address anemia as above
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   - Consider small dilaudid bolus if having significant abdominal pain or
   anxiety
   - if associated w/ new hypoxia, would need to eval for PE given known
   SCV clot off anticoagulation
   #) ESRD on HD: c/b non-occlusive clot in right SCV surrounding
   tunnelled HD line
   - HD on M/W/F
   - Renally dose medications
   - Daily weights
   - given ongoing suspected GI blood loss, plan is not for
   anticoagulation at this time
   #) Psych: Psych meds held on linezolid, now s/p 2 week wash out period.
   Slowly resuming home regimen
   - Will start celexa 10mg QD (home dose 40)
   - continue oxcarbazepine
   #) Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid prn
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   #) Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   - Will resume psychiatric meds today.
   #) Hypertonicity: Predominantly upper extremity rigidity. Final read
   MRI negative. Hyperreflexic. Moving legs/feet freely. Opening/closing
   eyes on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
   - OT reconsulted [**2102-3-31**]
   - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   #) Skin breakdown/Rash:C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination
   - Continue wound care recs
   - Continue Miconazole powder
   #) COPD: Stable.
   - Ipratroprium and Albuterol Nebs PRN
   FEN: Mait IVF, replete electrolytes PRN, check lytes [**Hospital1 **], hold Dobhoff
   TF for ileus, NPO for now
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS:
    - PIV x2
    - Tunneled HD line
    - Foley - d/c given infectious risk
    - Dialysis Catheter - [**2102-3-24**] 12:31 PM
    - plan to place PICC
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   Dispo: consider calling out to floor later today after SBFT

2102-04-07 06:59:00 Physician Resident Progress Note
Chief Complaint: Abdominal Pain
   24 Hour Events:
   Tachy to baseline of 120s-130s overnight.
   Yesterday she had a small bowel follow through and we spoke with psych
   and based on her renal failure they would not put her on > 10 mg
   celexa, also would not start any of her other psych meds in the near
   future (if ever)
   hct stable at 6pm, no blood ordered
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2102-4-5**] 10:18 PM
   Meropenem - [**2102-4-6**] 08:01 PM
   Fluconazole - [**2102-4-6**] 11:01 PM
   Metronidazole - [**2102-4-7**] 05:45 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-4-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2102-4-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-4-7**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**04**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 110 (82 - 110) bpm
   BP: 122/42(62) {97/37(52) - 132/56(74)} mmHg
   RR: 24 (10 - 28) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 83.5 kg
   Height: 64 Inch
             Total In:
                                                                  1,227 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    852 mL
                                                                    170 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    800 mL
                                                                    125 mL
   Urine:
                                                                    800 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    427 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   Gen:  NAD, sleeping
   Pulm:  slightly decreased at bases, otherwise clear
   CV:  RRR, nl S1/S2
   Abd:  hypoactive BS, soft, nt, although no rebound/guarding, abdominal
   wound stable with dry dressing intact
   Peripheral Vascular: pulses 2+ all 4 extremities, mild edema b/l LE
   Skin:  warm, dry
   Neurologic: easily arousable, following commands
   Labs / Radiology
   354 K/uL
   8.1 g/dL
   67 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.4 mEq/L
   33 mg/dL
   109 mEq/L
   147 mEq/L
   24.2 %
   12.3 K/uL
        [image002.jpg]
                             [**2102-4-2**]  05:55 AM
                             [**2102-4-3**]  04:47 AM
                             [**2102-4-4**]  02:12 AM
                             [**2102-4-4**]  02:46 PM
                             [**2102-4-5**]  04:00 AM
                             [**2102-4-5**]  05:38 PM
                             [**2102-4-5**]  10:19 PM
                             [**2102-4-6**]  04:11 AM
                             [**2102-4-6**]  06:08 PM
                             [**2102-4-7**]  03:27 AM
   WBC
   13.6
   12.3
   11.2
   23.3
   12.7
   12.3
   Hct
   27.3
   27.0
   26.7
   23.6
   23.0
   22.3
   24.6
   25.8
   24.2
   Plt
   [**Telephone/Fax (3) 11915**]53
   310
   354
   Cr
   2.7
   3.2
   1.7
   2.1
   2.4
   1.6
   2.0
   Glucose
   65
   89
   100
   121
   89
   84
   67
   Other labs: PT / PTT / INR:14.0/31.4/1.2, CK / CKMB /
   Troponin-T:32/7/1.53, ALT / AST:8/34, Alk Phos / T Bili:506/0.4,
   Amylase / Lipase:362/28, Differential-Neuts:88.3 %, Band:4.0 %,
   Lymph:8.0 %, Mono:2.9 %, Eos:0.4 %, Fibrinogen:614 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.9 g/dL, LDH:286 IU/L, Ca++:7.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:5.4 mg/dL
   Small Bowel Follow Through:
   1. No evidence of enteroenteric fistula.
   2. Multiple dilated loops of small bowel, with eventual passage of
   contrast to the large bowel, compatible with a partial small-bowel
   obstruction.
   3. Distended urinary bladder.
   Assessment and Plan
   68 yo female with CAD, bipolar disease with gangrenous cholecystitis
   s/p cholecystectomy and ERCP, course complicated by sepsis requiring
   intubation and pressors, VRE and Kluyveria cryo-crescans bacteremia,
   renal failure requiring CVVH/HD, elevated B-glucan with persistent
   candiduria now with new GNR bacteremia, abdominal distention and pain
   transferred to the [**Hospital Unit Name 4**] for ERCP and ICU bed.
   #) Abdominal distension with concern for mesenteric ischemia and/or
   complication of biliary stent: Appears improved, making stool, lactate
   stable. White cell scan initially concerning for mesenteric ischemia.
   Patient with distended, intermittently tender abdomen on exam.  NGT
   remains in place.  Abdominal films have been c/w ileus. CT scan
   concerning for area of mesenteric ischemia, entero-enteric fistula.
   Lactate is flat, no change in abdominal exam.   S/P ERCP with stent
   removal and replacement on [**2102-4-4**] with concern for fluid leak.  RUQ
   ultrasound on [**4-5**] did not show a drainable collection.
   - Small bowel follow through done yesterday-
 no evidence of
   entero-enteric fistula
   - F/u with surgery re: nutrition and resuming TF vs resuming TPN after
   SBFT
   - On D5 1/2NS  @ 75cc/hr for maintenance
   - continue intermittent NGT to suction with flush
   - C.Diff, stool cx negative to date
   - on [**Last Name (un) **]/fluc/dapto, flagyl added on [**3-29**] for concern of c.diff, neg x2
   todate, revisit need w/ ID today
   - Treat pain with IV dilaudid PRN
   #) Fever, Leukocytosis + 1x Positive Gram Cultures T max to 100.3  WBC
   count now down to 13 from 23.   Bacteremia, abdominal infection, UTI,
   etc still possible sources.  Cultures sent.
   - f/u blood cultures and resistance patterns of enterobactor
   - Continue [**Last Name (un) **], daptomycin, fluconazole, empiric flagyl for concern of
   C.diff (negative x1); if decompensates can restart micafungin
   - Plan to place PICC given need for lengthy Abx course
   - Daily surveillance cultures and cultures if spikes
   - Follow-up ID recs regarding duration of therapy, discuss discontining
   flagyl given negative c.diff,
   - F/u [**3-14**] urine cx [**Female First Name (un) 474**] albicans sensies: being worked up in [**State 1771**],
   will be back week of [**4-3**] per discussion with send out lab. Call 7-1492
   end of week if haven't heard; can also check "outside labs / other
   fluids"
   #) NSTEMI: On [**3-29**] EKG changes: With mild STE in III, AVF, V3 while in
   HD. Repeat EKG without similar features, however had elevated enzymes.
   Echo revealed new inferior hypokinesis which likely due to a recent
   inferior MI.
   - continue ASA 81mg
   - Started low-dose beta-blocker (lopressor 12.5mg TID) on [**4-2**]
   - Will hold BB prior to HD days
   - continue high dose Simvastatin
   #) Anemia: Has required intermittent transfusions during her stay. GI
   tract is presumed source of chronic blood loss. Guiac + stool.
   Transfusions seem to help her tachycardia.  Last transfused [**2102-4-5**].
   - Monitor Hct
 consider tx if Hct<24
   - Check PM hct today
   - Epo w/HD
   - continue to guiaic stools - positive
   - QD hct checks
   - continue to hold on anticoagulation for SCV clot
   #) Tachycardia: Sinus tach, likely [**2-28**] pain vs anxiety vs hypovolemia.
   Has been +/- fluid responsive. Of note when tachycardia resolves, BP
   sinks.
   - started low dose beta blocker as BP permits on [**4-2**]
   - Continue to address anemia as above
   - Cautious Fluid boluses PRN, given ESRD
   - Ativan given patient eliciting significant anxiety
   - Consider small dilaudid bolus if having significant abdominal pain or
   anxiety
   - if associated w/ new hypoxia, would need to eval for PE given known
   SCV clot off anticoagulation
   #) ESRD on HD: c/b non-occlusive clot in right SCV surrounding
   tunnelled HD line
   - HD on M/W/F
   - [**Month (only) 8**] consider spacing out dialysis if renal function improves
   - Renally dose medications
   - Daily weights
   - given ongoing suspected GI blood loss, plan is not for
   anticoagulation at this time
   #) Psych: Psych meds held on linezolid, now s/p 2 week wash out period.
   Slowly resuming home regimen
   - Will start celexa 10mg QD (home dose 40)
   - continue oxcarbazepine
   #) Tachypnea: Chronic with baseline 25-30s.  Could be some component of
   pain response (intermittently denies pain but then says diffusely
   tender on abdominal exam.  Also consider decreased diaphragmatic
   excursion [**2-28**] abdominal distension.
   - Treat pain with dilaudid prn
   - Continue to decompress bowel with NGT
   - Monitor ABG / lactate prn
   #) Altered MS: Stable. Responding appropriately to questioning.
   - Will continue pain control with Dilaudid, Ativan for anxiety with
   caution
   - Will resume psychiatric meds today.
   #) Hypertonicity: Predominantly upper extremity rigidity. Final read
   MRI negative. Hyperreflexic. Moving legs/feet freely. Opening/closing
   eyes on command. Answering questions appropriately.  MRI negative for
   suspicious collection.
   - OT reconsulted [**2102-3-31**]
   - Have restarted oxcarbazepine 150mg daily with improvement in
   communication
   #) Skin breakdown/Rash:C/w miconazole cream, per wound care recs.
   Coccyx w/ deep tissue injury, macerated rash on gluteal
   folds/buttocks.  Debrided [**3-30**] by surgery
 healthy tissue.  Also has
   intermittent [**Doctor Last Name 170**] rash over back, possibly consistent with drug rash.
   Stable on repeat physical examination
   - Continue wound care recs
   - Continue Miconazole powder
   #) COPD: Stable.
   - Ipratroprium and Albuterol Nebs PRN
   FEN: Mait IVF, replete electrolytes PRN, check lytes [**Hospital1 **], hold Dobhoff
   TF for ileus, NPO for now
   PPX:  Hep SQ, PBoots, hold Bowel regimen for diarrhea, PPI
   ACCESS:
    - PIV x2
    - Tunneled HD line
    - Foley - d/c given infectious risk
    - Dialysis Catheter - [**2102-3-24**] 12:31 PM
    - plan to place PICC
   CODE STATUS: Full
   EMERGENCY CONTACTS:  HCP: Sister: [**Name (NI) 5047**] [**Name (NI) 2760**] (flew home this week);
   Sister (local): [**Name (NI) 2245**] [**Name (NI) 11105**], [**Telephone/Fax (1) 11106**]; [**Name (NI) 768**] [**Name (NI) 7288**] (son), cell
   [**Telephone/Fax (1) 11104**]
   ICU attending at [**Hospital3 **]: Dr. [**Last Name (STitle) 11107**], cell [**Telephone/Fax (1) 11108**]
   Dispo: consider calling out to floor later today